2138-09-13 09:13:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo y/o presents with evidence of ARF on routine lab test.  in ED VS
   significant for sat 91% on RA, K 7.1, HCO3 16, WBC of 16.5.  EKG
   unremarkable.  Echo with right sided strain, but no evidence of
   tamponade.  Treated for hyperK - fluids, Ca, Kayexalate,HCO3. Also got
   levoflox with ?PNA on Left.
   24 Hour Events:
 ULTRASOUND - At [**2138-9-12**] 11:30 PM
   renal
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2138-9-13**] 07:47 AM
   Other medications:
   pepcid
   heparin
   docusate
   kayexalate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain, increased abdominal girth
   Genitourinary: oliguria
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2138-9-13**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 108 (93 - 108) bpm
   BP: 98/48(61) {79/33(48) - 110/56(64)} mmHg
   RR: 34 (26 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 58 Inch
             Total In:
                                                                  2,375 mL
                                                                  2,633 mL
   PO:
             300 mL
   TF:
   IVF:
                                                                    675 mL
                                                                  2,283 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,310 mL
   Urine:
   10 mL
   NG:
   Stool:
   1,300 mL
   Drains:
   Balance:
                                                                  2,375 mL
                                                                  1,323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.26/34/111/16/-10
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: on right)
   Abdominal: Soft, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   522 K/uL
   112 mg/dL
   7.3 mg/dL
   16 mEq/L
   7.1 mEq/L
   114 mg/dL
   99 mEq/L
   131 mEq/L
   27.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2138-9-12**]  11:50 PM
                             [**2138-9-13**]  03:56 AM
                             [**2138-9-13**]  04:46 AM
   WBC
   14.6
   16.5
   Hct
   29.0
   27.1
   Plt
   538
   522
   Cr
   7.1
   7.3
   TCO2
   16
   Glucose
   116
   112
   Other labs: PT / PTT / INR:15.8/27.5/1.4, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**1-14**], Alk Phos / T Bili:59/0.2, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:411 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.7 mg/dL, PO4:9.6 mg/dL
   Imaging: CXR: Large left effusion
   Assessment and Plan
   Respiratory distress:  Large left effusion, could be malignant and
   likely causing her respiratory distress.  Will do large volume
   thoracentesis.  RV dysfunction is also worrisome
   for PE.  Will try gettinga  V/Q scan after thoracentesis.
   Cancer:  Ovarian versus lymphoma.  Will send ovarian tumour markers.
   Will need LN biopsy - surgical consult.
   ARF:  Contrast dye, obstructive.  Will consult urology re: hydro.  Good
   chance she may need dialysis await renal input.
   hyperk:  Continue kayexalate, continue HCO3.
   metabolic acidosis:  Push amps of bicarb.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-9-12**] 10:26 PM
   18 Gauge - [**2138-9-12**] 10:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-09-14 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS
 with removal of 1000 mL of bloody appearing pleural
   fluid
   -HCT dropped to 22.9 and CVP was 5 to 6.  Hypotensive, requiring
   levophed, and tachy.  Felt to be due to hypovolemia because would
   expect elev CVP with tamponade or PE, however, both etiologies are
   still possible.
   -Hypotension may be due to increased amount of stool.  Hold kayexalate
   and lactulose.  Have been blousing with NS but transitioned to d5 with
   3 amps bicarb.  Pt has been asx during hypotensive periods
   -Gave 2un pRBCs with incr of HCt to 30.6
 DIALYSIS CATHETER and ARTERIAL LINE
 placed
   - Holding on dialysis per renal; re-eval today
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-13**] 08:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2138-9-14**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-9-14**] 06:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-14**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 110 (96 - 120) bpm
   BP: 83/47(59) {64/33(44) - 106/64(79)} mmHg
   RR: 20 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 58 Inch
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  7,270 mL
                                                                  2,091 mL
   PO:
                                                                  1,770 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  5,350 mL
                                                                    221 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  4,158 mL
                                                                  1,160 mL
   Urine:
                                                                    108 mL
                                                                     60 mL
   NG:
   Stool:
                                                                  2,950 mL
                                                                  1,100 mL
   Drains:
                                                                  1,100 mL
   Balance:
                                                                  3,112 mL
                                                                    931 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.28/39/106/18/-7
   Physical Examination
   Gen: alert and oriented
   Neck: Right central line in neck
   CV: tachy
   Pulm: decr breath sounds at left base, diffuse crackles
   Labs / Radiology
   498 K/uL
   10.3 g/dL
   172 mg/dL
   6.9 mg/dL
   18 mEq/L
   4.3 mEq/L
   107 mg/dL
   107 mEq/L
   142 mEq/L
   30.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2138-9-12**]  11:50 PM
                             [**2138-9-13**]  03:56 AM
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  08:19 AM
                             [**2138-9-13**]  01:40 PM
                             [**2138-9-13**]  08:04 PM
                             [**2138-9-13**]  11:09 PM
                             [**2138-9-14**]  04:16 AM
                             [**2138-9-14**]  04:32 AM
   WBC
   14.6
   16.5
   12.4
   12.3
   Hct
   29.0
   27.1
   27.3
   24.7
   22.9
   30.6
   Plt
   538
   522
   425
   498
   Cr
   7.1
   7.3
   7.3
   7.6
   7.3
   7.1
   6.9
   TCO2
   16
   16
   19
   Glucose
   116
   112
   112
   86
   110
   102
   172
   Other labs: PT / PTT / INR:18.7/34.6/1.7, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-15**], Alk Phos / T Bili:50/0.3, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.7 g/dL, LDH:416 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:9.6 mg/dL
   Uric Acid: 12.5
   CA-125 > 200
   Pleural Fluid
                                      WBC
                                    5389
                                      RBC
                                   [**Numeric Identifier 1263**]
                                     Poly
                                     41
                                     Lymph
                                      2
                                     Mono
                                      7
                                      EOs
   Meso: 30
   Macro: 1
   Other: 19
   pH: 6.79
   Renal U/s:
   1. Moderate right-sided hydronephrosis. No renal calculi.
   2. Moderate amount of ascites.
   Assessment and Plan
   74-F w/ HTN, HL, hypothyroidism, and recent dx of ovarian ca vs.
   lymphoma, who presented to the ED for evaluation of acute renal failure
   and hyperkalemia.
   # CA- ovarian vs lymphoma
   - Gyn/onc feel clinical picture is more consistent with lymphoma
   - Elev CA-125 increases likelihood for ovarian CA, however, per gyn-onc
   the CA-125 is non-diagnostic
   - Consulted gen [**Doctor First Name 213**] for lymph node biopsy
   .
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment and is now 4.3
   - Hold kayexalate and lactulose
   - monitor K Q6hrs for now
   - serial ECGs prn
   .
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who feel no emergent need for HD. Would
   aggressively volume resuscitate given her significant volume depletion.
   - HD team aware, placed line for catheter yesterday.  Renal still
   recommends holding on dialysis.
   - appreciate HD Renal team recs
   - 1L bolus of D5 with 3 amps bicarb x 2 for hypotension
   - holding home Lasix and ACE-I in ARF
   - d/c phos-lo as phos is 9.  Change to aluminum hydroxide 30 ml TID.
   - renal recs a new echo to eval for change in pericardial effusion.
   CVP remains low.
   - Consulted uro for possible perc nephrostomy; will hold on any
   intervention at this time given tenuous cardiopulm status
   # SOB and pleural effusion- much improved following thoracentesis
   - No obvious clearing of white on xray following removal of fluid.  pH
   of 6.79 is suggestive of an empyema.  Will consult Ct [**Doctor First Name 213**]  vs IP for
   chest tube placement.  Following procedure, will get a non-contrast
   chest/abd CT.  Empirically treat pneumonia with ceftriaxone.
   .
   #. Hypotension- on Levophed, volume resuscitating with D5 with 3 amps
   bicarb
   .
   #. Hyperlipidemia - cont home statin dose
   .
   #. Hypothyroidism - cont home levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-9-13**] 05:39 PM
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   Arterial Line - [**2138-9-13**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-14 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with SOB, ARF.
   24 Hour Events:
 THORACENTESIS - At [**2138-9-13**] 01:08 PM
 DIALYSIS CATHETER - START [**2138-9-13**] 07:30 PM
 ARTERIAL LINE - START [**2138-9-13**] 11:00 PM
   Overnight became hypotensive and Hct dropped to 27.3 to 24.7 to 22.9
   and 2U and up to 30.6
   Levophed started.
   Feels much better after fluid removed.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-14**] 06:28 AM
   Famotidine (Pepcid) - [**2138-9-14**] 08:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2138-9-14**] 08:17 AM
   Other medications:
   Pepcid
   Levoxyl
   Lipitor
   Hep s/q
   CaAcetate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-14**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 124 (96 - 124) bpm
   BP: 130/73(94) {64/33(44) - 130/73(94)} mmHg
   RR: 26 (13 - 34) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 58 Inch
   CVP: 10 (5 - 10)mmHg
   Total In:
                                                                  7,270 mL
                                                                  3,229 mL
   PO:
                                                                  1,770 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  5,350 mL
                                                                    299 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  4,158 mL
                                                                  1,215 mL
   Urine:
                                                                    108 mL
                                                                    115 mL
   NG:
   Stool:
                                                                  2,950 mL
                                                                  1,100 mL
   Drains:
                                                                  1,100 mL
   Balance:
                                                                  3,112 mL
                                                                  2,014 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.28/39/106/19/-7
   Physical Examination
   General Appearance: Overweight / Obese, mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : expiratory, Diminished:
   Left sided)
   Abdominal: Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.3 g/dL
   498 K/uL
   138 mg/dL
   6.7 mg/dL
   19 mEq/L
   4.3 mEq/L
   103 mg/dL
   105 mEq/L
   141 mEq/L
   30.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2138-9-12**]  11:50 PM
                             [**2138-9-13**]  03:56 AM
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  08:19 AM
                             [**2138-9-13**]  01:40 PM
                             [**2138-9-13**]  08:04 PM
                             [**2138-9-13**]  11:09 PM
                             [**2138-9-14**]  04:16 AM
                             [**2138-9-14**]  04:32 AM
                             [**2138-9-14**]  07:52 AM
   WBC
   14.6
   16.5
   12.4
   12.3
   Hct
   29.0
   27.1
   27.3
   24.7
   22.9
   30.6
   30.0
   Plt
   538
   522
   425
   498
   Cr
   7.1
   7.3
   7.3
   7.6
   7.3
   7.1
   6.9
   6.7
   TCO2
   16
   16
   19
   Glucose
   116
   112
   112
   86
   110
   102
   172
   138
   Other labs: PT / PTT / INR:18.7/34.6/1.7, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-15**], Alk Phos / T Bili:50/0.3, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.7 g/dL, LDH:416 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:9.6 mg/dL
   Fluid analysis / Other labs: CA-125>200
   Pleural Fluid pH 6.79
   5389WBC, 1,071,000RBC
   19% "other" cells.
   Assessment and Plan
   Acute renal failure:  BUN/Creatinine elevated.  Contrast nephropathy.
   HOTN: On Levophed.  Getting HCO3.
   SOB:  Effusion still present, although unclear how much is effusion
   versus atelectasis also.  Since pH is so low (6.9) this may be an
   empyema.  Would treat with CTX for PNA, and ask IP to place Chest tube.
   Chest CT after Chest tube placement.
   Coagulopathy:  Will need FFP for chest Tube.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-9-13**] 05:39 PM
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   Arterial Line - [**2138-9-13**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2138-09-15 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2138-9-14**] 04:30 PM
   Got CT -> showed hemothorax on left.
   Got 2 units FFP and DDAVP. Then thoracics placed chest tube.
   Gen surgery will not do biopsy unless more medically stable.
   Hcts 30.6 _> 30.0 -> 29.8->27.0 (post tap and 3L NS IV fluid boluses).
   K 4.3-> 4.[**5-25**] need TTE today to eval pericardial effusion.
   Pleural Fluid: Prot 2.6 glucose 126 LDH 1261 Amylase 12 WBC 351 84N 2L
   340K RBCs
   TP eff (2.6)/TPserum (6.0) = 0.43; LDHeff(1261)/LDHserum(416) = 3.03
   Meets Lights criteria for exudative.
   ON feels better, less SOB, hungry
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2138-9-14**] 10:45 AM
   Infusions:
   Norepinephrine - 0.11 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-14**] 06:28 AM
   Famotidine (Pepcid) - [**2138-9-14**] 08:00 AM
   Midazolam (Versed) - [**2138-9-14**] 04:40 PM
   Hydromorphone (Dilaudid) - [**2138-9-14**] 04:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-15**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 98 (98 - 124) bpm
   BP: 107/62(75) {71/45(55) - 140/81(101)} mmHg
   RR: 24 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 15 (8 - 15)mmHg
   Total In:
                                                                  7,410 mL
                                                                  1,619 mL
   PO:
                                                                    180 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  6,065 mL
                                                                  1,379 mL
   Blood products:
                                                                  1,165 mL
   Total out:
                                                                  2,278 mL
                                                                    100 mL
   Urine:
                                                                    228 mL
                                                                     70 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                  5,132 mL
                                                                  1,519 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.28/41/108/19/-6
   PaO2 / FiO2: 270
   Physical Examination
   GEN: NAD, chatting pleasantly in bed
   HEENT: MMM, moist axilla
   CV: RRR NL S1S2 no MRG
   PULM: Improved aeration on the L. Bilat crackles. Dense L base. Chest
   tube in place
   ABD: BS+. Distended. NT, no masses
   LIMBS: Cold R hand, good strength and sensation
   Labs / Radiology
   405 K/uL
   9.1 g/dL
   130 mg/dL
   6.3 mg/dL
   19 mEq/L
   3.9 mEq/L
   95 mg/dL
   106 mEq/L
   141 mEq/L
   26.4 %
   12.6 K/uL
        [image002.jpg]
   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [1][**2138-9-15**] 03:21AM
                                    12.6*
                                    3.49*
                                    9.1*
                                    26.4*
                                     76*
                                    26.1*
                                    34.6
                                    16.6*
                                     405
   [2][**2138-9-14**] 11:40PM
                                    13.3*
                                    3.69*
                                    9.2*
                                    28.0*
                                     76*
                                    24.9*
                                    32.8
                                    15.9*
                                     392
   [3][**2138-9-14**] 06:29PM
                                    14.3*
                                    3.57*
                                    9.1*
                                    27.0*
                                     76*
                                    25.5*
                                    33.6
                                    16.6*
                                     381
   [4][**2138-9-14**] 12:42PM
   29.8*
   [5][**2138-9-14**] 07:52AM
   30.0*
   [6][**2138-9-14**] 04:16AM
                                    12.3*
                                   4.08*#
                                   10.3*#
                                   30.6*#
                                     75*
                                    25.3*
                                    33.8
                                    16.4*
                                     498
   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [7][**2138-9-15**] 03:21AM
                                    130*
                                     95*
                                    6.3*
                                     141
                                     3.9
                                     106
                                     19*
                                     20
   [8][**2138-9-14**] 11:40PM
                                    118*
                                     96*
                                    6.3*
                                     142
                                     3.9
                                     105
                                     21*
                                     20
   [9][**2138-9-14**] 06:29PM
                                    142*
                                     98*
                                    6.5*
                                     141
                                     4.0
                                     103
                                     21*
                                     21*
   [10][**2138-9-14**] 07:52AM
                                    138*
                                   103*[1]
                                    6.7*
                                     141
                                     4.3
                                     105
                                     19*
                                     21*
   [11][**2138-9-14**] 04:16AM
                                    172*
                                    107*
                                    6.9*
                                     142
                                     4.3
                                     107
                                     18*
                                     21*
   BLOOD GASES
                                    Type
                                    Temp
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   [12][**2138-9-15**] 03:34AM
                                     ART
                                    36.1
                                    108*
                                     41
                                    7.28*
                                     20*
                                     -6
   [13][**2138-9-14**] 11:57PM
                                     ART
                                    36.1
                                     98
                                     52*
                                  7.23*[2]
                                     23
                                     -6
   [14][**2138-9-14**] 04:32AM
                                     ART
                                    37.2
                                    106*
                                     39
                                    7.28*
                                     19*
                                     -7
   PLEURAL ANALYSIS
                                     WBC
                                     RBC
                                   Hct,Fl
                                    Polys
                                   Lymphs
                                    Monos
                                    Meso
                                    Macro
                                    Other
   [15][**2138-9-14**] 06:29PM
                                   351*[1]
                                   [**Numeric Identifier 1270**]*
                                   2.0*[2]
                                     84*
                                     2*
                                     1*
                                     3*
                                     2*
                                    8*[3]
   [16][**2138-9-13**] 12:09PM
                                    5389*
                                  [**Numeric Identifier 1263**]*
   41*
                                     2*
                                     7*
                                   30*[3]
                                     1*
                                   19*[3]
                             [**2138-9-13**]  11:09 PM
                             [**2138-9-14**]  04:16 AM
                             [**2138-9-14**]  04:32 AM
                             [**2138-9-14**]  07:52 AM
                             [**2138-9-14**]  12:42 PM
                             [**2138-9-14**]  06:29 PM
                             [**2138-9-14**]  11:40 PM
                             [**2138-9-14**]  11:57 PM
                             [**2138-9-15**]  03:21 AM
                             [**2138-9-15**]  03:34 AM
   WBC
   12.4
   12.3
   14.3
   13.3
   12.6
   Hct
   22.9
   30.6
   30.0
   29.8
   27.0
   28.0
   26.4
   Plt
   [**Telephone/Fax (3) 1269**]92
   405
   Cr
   7.1
   6.9
   6.7
   6.5
   6.3
   6.3
   TCO2
   16
   19
   23
   20
   Glucose
   102
   172
   138
   142
   118
   130
   Other labs: PT / PTT / INR:18.7/34.6/1.7, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-15**], Alk Phos / T Bili:50/0.3, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.1 mmol/L, Albumin:2.6 g/dL, LDH:416 IU/L, Ca++:6.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:8.8 mg/dL
   Assessment and Plan
   74-F w/ HTN, HL, hypothyroidism, and recent dx of ovarian ca vs.
   lymphoma, who presented to the ED for evaluation of acute renal failure
   and hyperkalemia.
   # CA- ovarian vs lymphoma
   - Gyn/onc feel clinical picture is more consistent with lymphoma
   - Elev CA-125 increases likelihood for ovarian CA, however, per gyn-onc
   the CA-125 is non-diagnostic
   - Consulted gen [**Doctor First Name 213**] for lymph node biopsy, but refused until Pt more
   stable
   - Will consult with H/O re workup
   .
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment
   .
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who feel no emergent need for HD. Would
   aggressively volume resuscitate given her significant volume depletion.
   - HD team aware, placed line for catheter yesterday.  Renal still
   recommends holding on dialysis.
   - appreciate HD Renal team recs
   - 1L bolus of D5 with 3 amps bicarb x 2 for hypotension
   - holding home Lasix and ACE-I in ARF
   - d/c phos-lo as phos is 9.  Change to aluminum hydroxide 30 ml TID.
   - renal recs a new echo to eval for change in pericardial effusion.
   CVP remains low.
   - Consulted uro for possible perc nephrostomy; will hold on any
   intervention at this time given tenuous cardiopulm status
   # SOB and pleural effusion- much improved following thoracentesis
   -          Chest tube in place draining about 30mL per hour
   -          Chemistry consistent with exudate
   -          Cytology pending
   .
   #. Hypotension- on Levophed, volume resuscitating with D5 with 3 amps
   bicarb
   .
   #. Hyperlipidemia - cont home statin dose
   .
   #. Hypothyroidism - cont home levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-9-13**] 05:39 PM
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   Arterial Line - [**2138-9-13**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_42%22);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_43%22);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_44%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_57%22);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_58%22);

2138-09-15 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with ARF and with ovarian mass.
   24 Hour Events:
 CHEST TUBE PLACED - At [**2138-9-14**] 04:30 PM yesterday.
   Surgery feels that she is too unstable for axillary node biopsy.
   Feels better, less SOB hungry.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2138-9-14**] 10:45 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2138-9-14**] 04:40 PM
   Hydromorphone (Dilaudid) - [**2138-9-14**] 04:50 PM
   Other medications:
   pepcid
   simvastatin
   heparin
   calcium
   albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-15**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 104 (98 - 124) bpm
   BP: 132/70(91) {71/45(55) - 140/81(101)} mmHg
   RR: 23 (10 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 15 (15 - 15)mmHg
   Total In:
                                                                  7,410 mL
                                                                  1,876 mL
   PO:
                                                                    180 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  6,065 mL
                                                                  1,516 mL
   Blood products:
                                                                  1,165 mL
   Total out:
                                                                  2,278 mL
                                                                    140 mL
   Urine:
                                                                    228 mL
                                                                    110 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                  5,132 mL
                                                                  1,736 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.29/41/91/19/-6
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.3 g/dL
   369 K/uL
   135 mg/dL
   6.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   95 mg/dL
   105 mEq/L
   140 mEq/L
   27.6 %
   13.6 K/uL
         [image002.jpg]
                             [**2138-9-14**]  04:32 AM
                             [**2138-9-14**]  07:52 AM
                             [**2138-9-14**]  12:42 PM
                             [**2138-9-14**]  06:29 PM
                             [**2138-9-14**]  11:40 PM
                             [**2138-9-14**]  11:57 PM
                             [**2138-9-15**]  03:21 AM
                             [**2138-9-15**]  03:34 AM
                             [**2138-9-15**]  08:32 AM
                             [**2138-9-15**]  08:58 AM
   WBC
   14.3
   13.3
   12.6
   13.6
   Hct
   30.0
   29.8
   27.0
   28.0
   26.4
   27.6
   Plt
   381
   392
   405
   369
   Cr
   6.7
   6.5
   6.3
   6.3
   6.1
   TCO2
   19
   23
   20
   21
   Glucose
   138
   142
   118
   130
   135
   Other labs: PT / PTT / INR:18.7/34.6/1.7, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-15**], Alk Phos / T Bili:50/0.3, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.1 mmol/L, Albumin:2.6 g/dL, LDH:416 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:8.7 mg/dL
   Fluid analysis / Other labs: pleural fluid LDH 1251, ph 6.97, diff with
   10-20% unidentified cells.
   Urine Na<10
   Imaging: CXR:  Improved airation of left lung
   Assessment and Plan
   Lymphadnopathy/malignant effusion:  F/U on cytology today for pleural
   effusion.  [**Month (only) 51**] need pleurodesis
              - Continue CTX  until cultures negative.
   HOTN:  Low urine suggests prerenal state:  Will recheck echo to r/o
   tamponade as she had moderate effusion.  Will also check LENIs to
   assess for DVT as prior echo had evidence of RV dysfxn.  Try 1 unit of
   blood to expand intravascular volume in effort to get off levophed.
   Acute renal failure:  Creatinine slowly improving.  K stable.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2138-9-13**] 05:39 PM
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   Arterial Line - [**2138-9-13**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-09-16 05:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2138-9-16**] 01:00 AM
 NON-INVASIVE VENTILATION - START [**2138-9-16**] 01:15 AM
   Pt increasingly tachycardic throughout the day. ECHO showed small
   effusion with suggestion of tamponade physiology, but not tappable by
   cardiology. Around midnight tachycardia worsened rapidly to around 140
   with increasing SOB and wheezes on exam. ABG showed increasing
   acidosis. CXR showed no PTX but that the chest tube was almost pulled
   out on the L. CPAP was initiated with good effect.
   Cytology of pleural fluid consistent with adenocarcinoma
   H/O following actively
   Thoracic surgery consulted O/N re: chest tube placement (now out of
   position) and need for pericardial window. Will eval in the AM with
   surgery team.
   Pt itchy and complaining about trouble sleeping
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2138-9-15**] 11:00 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-16**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.3
   HR: 114 (98 - 139) bpm
   BP: 95/59(70) {67/48(57) - 132/76(91)} mmHg
   RR: 10 (8 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  3,390 mL
                                                                    383 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  2,040 mL
                                                                    383 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    374 mL
                                                                     35 mL
   Urine:
                                                                    294 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,016 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: 7.21/48/170/19/-8
   Ve: 8.3 L/min
   PaO2 / FiO2: 425
   Physical Examination
   GEN: More relaxed now, breathing comfortably on CPAP, good color
   HEENT: MMM, JVD present
   CV: Distant heart sounds. ?NLS1S2 no MRG
   PULM: Bilat mild wheezes much improved since midnight. Dense L base
   without breath sounds. Chest tube in place on the L.
   ABD: BS+, NTND
   SKIN: Diffuse anasarca. Inflammation of R upper arm at site of old IV
   Labs / Radiology
   373 K/uL
   11.7 g/dL
   135 mg/dL
   5.8 mg/dL
   19 mEq/L
   3.9 mEq/L
   97 mg/dL
   106 mEq/L
   142 mEq/L
   35.5 %
   17.7 K/uL
        [image002.jpg]
   BLOOD GASES
                                    Type
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   [1][**2138-9-16**] 04:25AM
                                     ART
                                    170*
                                     48*
                                  7.21*[1]
                                     20*
                                     -8
   [2][**2138-9-16**] 01:43AM
                                     ART
                                    376*
                                     47*
                                  7.21*[2]
                                     20*
                                     -9
   [3][**2138-9-16**] 12:42AM
                                     ART
                                    141*
                                     54*
                                  7.19*[2]
                                     22
                                     -7
   [4][**2138-9-16**] 12:09AM
                                     ART
                                    114*
                                     59*
                                  7.15*[3]
                                     22
                                     -9
   [5][**2138-9-15**] 08:58AM
                                     ART
                                     91
                                     41
                                    7.29*
                                     21
                                     -6
                             [**2138-9-15**]  03:34 AM
                             [**2138-9-15**]  08:32 AM
                             [**2138-9-15**]  08:58 AM
                             [**2138-9-15**]  10:00 AM
                             [**2138-9-15**]  03:55 PM
                             [**2138-9-16**]  12:09 AM
                             [**2138-9-16**]  12:42 AM
                             [**2138-9-16**]  01:43 AM
                             [**2138-9-16**]  04:00 AM
                             [**2138-9-16**]  04:25 AM
   WBC
   13.6
   13.5
   17.7
   Hct
   27.6
   33.6
   35.5
   Plt
   [**Telephone/Fax (3) 1279**]
   Cr
   6.1
   5.8
   TCO2
   20
   21
   22
   22
   20
   20
   Glucose
   135
   138
   135
   Other labs: PT / PTT / INR:15.7/29.1/1.4, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-18**], Alk Phos / T Bili:56/0.2, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:491 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:9.4 mg/dL
   Assessment and Plan
   74-F w/ HTN, HL, hypothyroidism, and recent dx of ovarian ca vs.
   lymphoma, who presented to the ED for evaluation of acute renal failure
   and hyperkalemia.
   # CA- ovarian vs lymphoma
   - Cytology consistent with an adenocarcinoma. Specific stains pending.
   - Consulted gen [**Doctor First Name 213**] for lymph node biopsy, but refused until Pt more
   stable
   - H/O believes this may be an adenoca of ovarian origin. Tumor markers
   ordered.
   .
   # SOB and pleural effusion- much improved following thoracentesis but
   rercurred O/N for unknown reasons. Concerned about tamponade v PE
   - Chest tube in place draining about 30mL per hour
   - Chemistry consistent with exudate
   - Cytology pending, but so far consistent with adenoca
   - LENIs WNL
   - Pt now on CPAP. [**Month (only) 51**] need intubation if cannot maintain pH and
   oxygenation. [**Month (only) 51**] also require intubation to allow fluid resus if
   tamponade
   - ECHO unconvincing for tamponade, just small effusion. Repeat ECHO
   today
   - Volume overload seems to be a critical issue here. Will consult renal
   re CVVH for her today
   .
   #. Hypotension- on Levophed 0.1, max o/n 0.15, but was on 0.03
   yesterday
   - Concern for tamponade physiology, as above
   - CT surgery following, will not advance chest tube or place
   pericardial window for now
   - Could be a component of uremic pericarditis
   - Given concern for uremic symptoms, CVVH may alleviate this. Pressors
   continue be on board and could allow CVVH to proceed.
   .
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who feel no emergent need for HD. Would
   aggressively volume resuscitate given her significant volume depletion.
   - HD team aware, catheter in place.  We are hoping for CVVA tonight
   given O/N hypotension
   - holding home Lasix and ACE-I in ARF
   - d/c phos-lo as phos is 9.  Changed to aluminum hydroxide 30 ml TID
   per renal.
   - Consulted uro for possible perc nephrostomy; will hold on any
   intervention at this time given tenuous cardiopulm status
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment
   .
   #. Hyperlipidemia - cont home statin dose
   .
   #. Hypothyroidism - cont home levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   Arterial Line - [**2138-9-13**] 11:00 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22);

2138-09-16 09:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with adenoCA from ovary.  Large left effusion.
   24 Hour Events:
 EKG - At [**2138-9-16**] 01:00 AM
 NON-INVASIVE VENTILATION - START [**2138-9-16**] 01:15 AM.
   Overnight became tachycardic, SOB, hypoxemic.  Had b/l wheezes.  Placed
   on bipap and improved subsequently.  Also became hypotensive.  Levophed
   titrated up to 0.15mcg/kg/min.    ABG was 7.15/55/114
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2138-9-15**] 11:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-16**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-16**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 118 (103 - 139) bpm
   BP: 87/56(66) {67/48(57) - 132/76(91)} mmHg
   RR: 10 (8 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  3,390 mL
                                                                    472 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  2,040 mL
                                                                    472 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    374 mL
                                                                     40 mL
   Urine:
                                                                    294 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,016 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 488 (488 - 488) mL
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: 7.26/41/153/19/-8
   Ve: 10.6 L/min
   PaO2 / FiO2: 383
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   373 K/uL
   135 mg/dL
   5.8 mg/dL
   19 mEq/L
   3.9 mEq/L
   97 mg/dL
   106 mEq/L
   142 mEq/L
   35.5 %
   17.7 K/uL
        [image002.jpg]
                             [**2138-9-15**]  08:32 AM
                             [**2138-9-15**]  08:58 AM
                             [**2138-9-15**]  10:00 AM
                             [**2138-9-15**]  03:55 PM
                             [**2138-9-16**]  12:09 AM
                             [**2138-9-16**]  12:42 AM
                             [**2138-9-16**]  01:43 AM
                             [**2138-9-16**]  04:00 AM
                             [**2138-9-16**]  04:25 AM
                             [**2138-9-16**]  08:12 AM
   WBC
   13.6
   13.5
   17.7
   Hct
   27.6
   33.6
   35.5
   Plt
   [**Telephone/Fax (3) 1279**]
   Cr
   6.1
   5.8
   TCO2
   21
   22
   22
   20
   20
   19
   Glucose
   135
   138
   135
   Other labs: PT / PTT / INR:15.7/29.1/1.4, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-18**], Alk Phos / T Bili:56/0.2, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:491 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:9.4 mg/dL
   Assessment and Plan
   HOTN/tachycardia/respiratory distress:  Diff [**Last Name (un) 1280**] includes worsening
   pericardial effusion causing tamponade, pulmonary emboli, increasing
   pleural effusion, fluid overload.  If she had PE, would be high risk
   for anticoagulation with pericardial process.  It is possible that
   pericardial process is related to uremia or maligancy.  Repeat echo and
   will d/w renal about dialysis.
   AdenoCA from ovary: currently too ill to get chemo
   Acute renal failure:  discuss with renal about dialysis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   Arterial Line - [**2138-9-13**] 11:00 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2138-09-17 06:24:00 Physician Resident Progress Note
24 Hour Events:
   -Started CVVH with goal of net neg 50/hr.  Over last few ables,
   pressures able to tolerate net neg of 100 mL.  Also, decreased levophed
   dose from 0.15 to 0.1.
   -Maintains sats with shovel mask but pt prefers bipap.
   -Changed A-line (required anesthesia's help)
   -D/c'd cipro
   -Repeat TTE- read as no change
   CVVH Net balance
   23:00   -33
   00:00   -59
   01:00   +17
   02:00   -158
   03:00   -106
   04:00   -111
   05:00   -110
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2138-9-15**] 11:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.1 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-16**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-17**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 110 (99 - 125) bpm
   BP: 106/64(79) {63/40(49) - 117/102(111)} mmHg
   RR: 28 (10 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  2,826 mL
                                                                  1,617 mL
   PO:
             TF:
   IVF:
                                                                  2,826 mL
                                                                  1,617 mL
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                  2,069 mL
   Urine:
                                                                    265 mL
                                                                    108 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    736 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (391 - 522) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 70%
   SpO2: 100%
   ABG: 7.36/42/137  05: 56
   Ve: 7.3 L/min
   PaO2 / FiO2: 196
   Physical Examination
   GEN: NAD, uncomfortable with CPAP mask, A&O, talking
   HEENT: MMM, R IJ w/o edema, hematoma, or signs of infection
   CV: Distant, ?RRR no MRG
   PULM: Bilat wheezes, reduced breath sounds on L
   ABD: BS+, distended, NT
   SKIN: 3+ edema throughout
   Labs / Radiology
   353 K/uL
   11.5 g/dL
   161 mg/dL
   4.6 mg/dL
   20 mEq/L
   3.7 mEq/L
   82 mg/dL
   103 mEq/L
   140 mEq/L
   34.4 %
   15.7 K/uL
        [image002.jpg]
   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [1][**2138-9-17**] 05:40AM
                                    130*
                                     73*
                                    4.1*
                                     141
                                     3.7
                                     102
                                     23
                                     20
   [2][**2138-9-16**] 11:10PM
                                    161*
                                     82*
                                    4.6*
                                     140
                                     3.7
                                     103
                                     20*
                                     21*
   [3][**2138-9-16**] 08:46PM
                                    138*
                                     84*
                                    4.8*
                                     143
                                     3.7
                                     103
                                     22
                                     22*
   [4][**2138-9-16**] 04:00AM
                                    135*
                                     97*
                                    5.8*
                                     142
                                     3.9
                                     106
                                     19*
                                     21*
                                     pH
                                    7.36
                                    pCO2
                                     42
                                     pO2
                                     137
                                    HCO3
                                     25
                                   BaseXS
                                     -1
                             [**2138-9-16**]  12:42 AM
                             [**2138-9-16**]  01:43 AM
                             [**2138-9-16**]  04:00 AM
                             [**2138-9-16**]  04:25 AM
                             [**2138-9-16**]  08:12 AM
                             [**2138-9-16**]  10:00 AM
                             [**2138-9-16**]  08:46 PM
                             [**2138-9-16**]  11:10 PM
                             [**2138-9-16**]  11:34 PM
                             [**2138-9-17**]  05:56 AM
   WBC
   17.7
   15.7
   Hct
   35.5
   34.4
   Plt
   373
   353
   Cr
   5.8
   4.8
   4.6
   TCO2
   22
   20
   20
   19
   21
   25
   Glucose
   135
   120
   138
   161
   Other labs: PT / PTT / INR:15.7/29.1/1.4, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-18**], Alk Phos / T Bili:56/0.2, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.1 mmol/L, Albumin:2.6 g/dL, LDH:491 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   74-F w/ HTN, HL, hypothyroidism, and recent dx of ovarian ca vs.
   lymphoma, who presented to the ED for evaluation of acute renal failure
   and hyperkalemia.
   # CA- ovarian vs lymphoma
   - Cytology consistent with an adenocarcinoma. Specific stains pending.
   - Consulted gen [**Doctor First Name 213**] for lymph node biopsy, but refused until Pt more
   stable
   - H/O believes this may be an adenoca of ovarian origin. Tumor markers
   are borderline high for CA-125 and elevated CA27,29 which is consistent
   with an ovarian mass but very non-specific
   .
   # SOB and pleural effusion- originally improved s/p thoracentesis but
   rercurred and has presented a challenge for this patient for several
   days now. Concerned for pulm edema v  tamponade v PE
   - Chest tube in place draining about 30mL per hour. Surgery considering
   adding pigtail or changing position to better access the L base.
   - Chemistry consistent with exudate, cytology pending, but so far
   consistent with adenoca
   - Pt now on CPAP
   - ECHO unconvincing for tamponade, just small effusion. Repeat ECHO
unchanged
   - Volume overload seems to be a critical issue here. Will continue with
   CVVH for now taking off as much as tolerated with her BP controlled
   with pressors
 50-100mL per hour
   .
   #. Hypotension- on Levophed 0.13, 0.15/hr yesterday. Was stable for a
   while on 0.1
   - Concern for tamponade physiology, as above
   - CT surgery following and may change or alter the chest tube today
   - Could be a component of uremic pericarditis
   - Given concern for uremic symptoms, CVVH may alleviate this. Pressors
   continue be on board to allow CVVH to proceed.
   .
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who feel no emergent need for HD. Would
   aggressively volume resuscitate given her significant volume depletion.
   - CVVH started on [**9-16**]
   - holding home Lasix and ACE-I in ARF
   - d/c phos-lo as phos is 9.  Changed to aluminum hydroxide 30 ml TID
   per renal.
   - Consulted uro for possible perc nephrostomy; will hold on any
   intervention at this time given tenuous cardiopulm status
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment
   .
   #. Hyperlipidemia - cont home statin dose
   .
   #. Hypothyroidism - cont home levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Arterial Line - [**2138-9-16**] 09:47 PM
   Prophylaxis:
   DVT: SC heparin and boots
   Stress ulcer: famotodine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_27%22);

2138-09-17 10:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with metastatic ovarian CA.  Started yesterday CVVH, was
   able to get up to 150 ml per hours.  Slept better and itching less.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2138-9-16**] 07:08 PM
 NON-INVASIVE VENTILATION - STOP [**2138-9-16**] 08:58 PM
 ARTERIAL LINE - START [**2138-9-16**] 09:47 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2138-9-15**] 11:00 AM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-16**] 10:07 PM
   Other medications:
   synthroid
   simvastatin
   Aluminum hydroxide
   allopurinol
   vitamin K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-17**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 112 (99 - 125) bpm
   BP: 88/58(69) {63/40(49) - 117/102(111)} mmHg
   RR: 21 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  2,826 mL
                                                                  1,944 mL
   PO:
             TF:
   IVF:
                                                                  2,826 mL
                                                                  1,944 mL
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                  2,129 mL
   Urine:
                                                                    265 mL
                                                                    168 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    736 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (391 - 522) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: 7.36/42/137/23/-1
   Ve: 8.9 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : b/l, Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   314 K/uL
   130 mg/dL
   4.1 mg/dL
   23 mEq/L
   3.7 mEq/L
   73 mg/dL
   102 mEq/L
   141 mEq/L
   33.7 %
   16.0 K/uL
        [image002.jpg]
                             [**2138-9-16**]  01:43 AM
                             [**2138-9-16**]  04:00 AM
                             [**2138-9-16**]  04:25 AM
                             [**2138-9-16**]  08:12 AM
                             [**2138-9-16**]  10:00 AM
                             [**2138-9-16**]  08:46 PM
                             [**2138-9-16**]  11:10 PM
                             [**2138-9-16**]  11:34 PM
                             [**2138-9-17**]  05:40 AM
                             [**2138-9-17**]  05:56 AM
   WBC
   17.7
   15.7
   16.0
   Hct
   35.5
   34.4
   33.7
   Plt
   373
   353
   314
   Cr
   5.8
   4.8
   4.6
   4.1
   TCO2
   20
   20
   19
   21
   25
   Glucose
   135
   120
   138
   161
   130
   Other labs: PT / PTT / INR:15.5/28.9/1.4, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-18**], Alk Phos / T Bili:56/0.2, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.1 mmol/L, Albumin:2.6 g/dL, LDH:491 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   Respiratory distress:  Improved, still on/off bipap periodically, but
   better
   metastatic ovarian CA:  no chemo currently
   Acute renal failure:  On CVVH for fluid overload, continue.
   HOTN:   Continues on levophed.   Unclear why.   [**Month (only) 51**] improve with fluid
   removal if its due to pressure overload of RV.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Arterial Line - [**2138-9-16**] 09:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-09-18 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2138-9-17**] 05:30 PM
   -Pig tail placed. 960mL drained. Transiently dropped sats and BP. Post
   placement CXR showed improved aeration of L lung as well as the
   original chest tube situated extrathoracically. No PTX. CT surgery will
   likely pull chest tube today.
   -Net neg 30 to 90 per hour
   -Req decreased levophed dose
   -BP cuff [**Location (un) **] consistently 20mmHg higher than A-line. For now are
   using BP cuff measurements to guide CVVH instead of A-line as not sure
   A-line [**Location (un) **] appropriately.
   -Pt reports that she is very hungry
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2138-9-15**] 11:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Norepinephrine - 0.1 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-18**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 109 (105 - 116) bpm
   BP: 81/59(92) {81/33(57) - 134/76(96)} mmHg
   RR: 34 (13 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  5,999 mL
                                                                  1,819 mL
   PO:
             TF:
   IVF:
                                                                  5,999 mL
                                                                  1,819 mL
   Blood products:
   Total out:
                                                                  6,936 mL
                                                                  1,926 mL
   Urine:
                                                                    401 mL
                                                                    182 mL
   NG:
   Stool:
   Drains:
                                                             1-         20
                                                              2-       960
                                                               1-       55
                                                               2-       75
   Balance:
                                                                   -937 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 99%
   ABG: 7.42/43/138/28/3
   Ve: 8.9 L/min
   PaO2 / FiO2: 276
   Physical Examination
   Gen: Alert and oriented x 3
   Pulm: improved breath sounds of LUL, no breath sounds heard in LLL.
   Moving air well in right lobe
   CV: rate 100s, reg rhythm
   Abd: soft
   Ext: edematous
   Labs / Radiology
   286 K/uL
   10.8 g/dL
   123 mg/dL
   2.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   46 mg/dL
   97 mEq/L
   139 mEq/L
   31.8 %
   15.4 K/uL
        [image002.jpg]
                             [**2138-9-17**]  05:56 AM
                             [**2138-9-17**]  11:08 AM
                             [**2138-9-17**]  11:24 AM
                             [**2138-9-17**]  03:26 PM
                             [**2138-9-17**]  05:59 PM
                             [**2138-9-17**]  06:14 PM
                             [**2138-9-17**]  11:48 PM
                             [**2138-9-18**]  12:30 AM
                             [**2138-9-18**]  05:30 AM
                             [**2138-9-18**]  05:42 AM
   WBC
   15.4
   Hct
   32.7
   31.8
   Plt
   316
   286
   Cr
   3.4
   3.0
   2.6
   TCO2
   25
   26
   26
   28
   30
   29
   Glucose
   132
   136
   126
   123
   Other labs: PT / PTT / INR:13.7/28.6/1.2, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-18**], Alk Phos / T Bili:56/0.2, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:491 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74-F w/ HTN, HL, hypothyroidism, and recent dx of ovarian ca vs.
   lymphoma, who presented to the ED for evaluation of acute renal failure
   and hyperkalemia.
   # CA- ovarian vs lymphoma
   - Cytology consistent with an adenocarcinoma. Specific stains pending.
   - Consulted gen [**Doctor First Name 213**] for lymph node biopsy, but refused until Pt more
   stable
   - H/O believes this may be an adenoca of ovarian origin. Tumor markers
   are borderline high for CA-125 and elevated CA27,29 which is consistent
   with an ovarian mass but very non-specific
   .
   # SOB and pleural effusion- originally improved s/p thoracentesis but
   recurred and this has presented a challenge for this patient for
   several days now. Concerned for pulm edema v  tamponade v PE
   - Pigtail catheter placed yesterday.  Drained 960mL over the last 24
   hrs and 75 mL since midnight.  Post placement CXR showed improved
   aeration of the left lung.  Pt also subjectively reports improvement.
   - Chest tube 1 is now extrathoracic.  Drained 20mL over the last 24
   hrs, and 55 mL since midnight last night.  CT [**Doctor First Name 213**] will most likely
   pull today, however, there is a consideration of leaving it in place to
   allow for pleurodesis
   - Chemistry consistent with exudate, cytology pending, but so far
   consistent with adenoca
   - Pt now on CPAP
   - ECHO unconvincing for tamponade, just small effusion. Repeat ECHO
unchanged
   - Volume overload seems to be a critical issue here. Will continue with
   CVVH for now taking off as much as tolerated with her BP controlled
   with pressors
 50-100mL per hour
   .
   #. Hypotension- on Levophed 0.13, 0.15/hr yesterday. Was stable for a
   while on 0.1
   - Concern for tamponade physiology, as above
   - CT surgery following and may change or alter the chest tube today
   - Could be a component of uremic pericarditis
   - Given concern for uremic symptoms, CVVH may alleviate this. Pressors
   continue be on board to allow CVVH to proceed.
   .
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who feel no emergent need for HD. Would
   aggressively volume resuscitate given her significant volume depletion.
   - CVVH started on [**9-16**]
   - holding home Lasix and ACE-I in ARF
   - d/c phos-lo as phos is 9.  Changed to aluminum hydroxide 30 ml TID
   per renal. Per renal will now chage to Renagel 1600mg TID
   - Consulted uro for possible perc nephrostomy; will hold on any
   intervention at this time given tenuous cardiopulm status
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment
   .
   #. Hyperlipidemia - cont home statin dose
   .
   #. Hypothyroidism - cont home levothyroxine
   # Nutrition- low Na, heart healthy diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Arterial Line - [**2138-9-16**] 09:47 PM
   Prophylaxis:
   DVT: subq hep, pneumo boots
   Stress ulcer: h2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-18 11:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with ARF, metastatic ovarian CA, malignant pleural
   effusion.  Had pigtail catheter placed yesterday which drained almost
   1L.
   24 Hour Events:
 CHEST TUBE PLACED - At [**2138-9-17**] 05:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-18**] 06:00 AM
   Other medications:
   synthroid
   simvastatin
   hep s/q
   colace
   allopurinol
   pepcid
   chlorhex
   vitamin K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-18**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 98 (94 - 116) bpm
   BP: 106/61(78) {64/40(49) - 123/73(92)} mmHg
   RR: 28 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  5,999 mL
                                                                  3,057 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  5,999 mL
                                                                  2,997 mL
   Blood products:
   Total out:
                                                                  6,987 mL
                                                                  3,632 mL
   Urine:
                                                                    401 mL
                                                                    297 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -988 mL
                                                                   -575 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.42/43/138/28/3
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: No(t) Resonant : ), (Breath Sounds:
   Clear : )
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   286 K/uL
   123 mg/dL
   2.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   46 mg/dL
   97 mEq/L
   139 mEq/L
   31.8 %
   15.4 K/uL
        [image002.jpg]
                             [**2138-9-17**]  05:56 AM
                             [**2138-9-17**]  11:08 AM
                             [**2138-9-17**]  11:24 AM
                             [**2138-9-17**]  03:26 PM
                             [**2138-9-17**]  05:59 PM
                             [**2138-9-17**]  06:14 PM
                             [**2138-9-17**]  11:48 PM
                             [**2138-9-18**]  12:30 AM
                             [**2138-9-18**]  05:30 AM
                             [**2138-9-18**]  05:42 AM
   WBC
   15.4
   Hct
   32.7
   31.8
   Plt
   316
   286
   Cr
   3.4
   3.0
   2.6
   TCO2
   25
   26
   26
   28
   30
   29
   Glucose
   132
   136
   126
   123
   Other labs: PT / PTT / INR:13.7/28.6/1.2, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-18**], Alk Phos / T Bili:56/0.2, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:491 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Pleural effusion:  Will discuss with thoracic whether 1st chest tube
   needs to stay in for pleurodesis.
   ARF/fluid overload:  BP improved so able to take off more fluid
   HOTN:  Improved.  Levophed rate lowered.
   Ovarian AdenoCA:  Treatment once improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Arterial Line - [**2138-9-16**] 09:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Other)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-09-19 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Initially cytology: CK7 positive only with rare B72.3 cells positive,
   however negative stains (calretinin, TTf-1, CK 20, WT-1, p53) may be
   technical complication of cytology preparation. Equivocal in
   determination of ovarian vs lung cancer, however morphology is
   suggestive of ovarian CA.
   -Complains of intense, diffuse itchiness.  Improved with Sarna lotion
   On norepi 0.08mg/hr with SPBs in the 100s, >1L net negative in the past
   24 hrs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-9-19**] 05:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-19**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 101 (94 - 110) bpm
   BP: 96/55(70) {72/44(59) - 110/62(79)} mmHg
   RR: 21 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  6,751 mL
                                                                  1,612 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                  6,331 mL
                                                                  1,612 mL
   Blood products:
   Total out:
                                                                  8,002 mL
                                                                  1,519 mL
   Urine:
                                                                    473 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
                                                                   CT 1 68
                                                                  CT 2 350
                                                           CT 1 0 CT 2 125
   Balance:
                                                                 -1,251 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.41/44/153/27/3
   PaO2 / FiO2: 383
   Physical Examination
   Gen: awake, alert, conversant
   Pulm: moving air well on right, decreased breath sounds at LLL
   CV: tachy
   Abd: nontender
   Ext: pitting pedal edema
   Labs / Radiology
   245 K/uL
   10.3 g/dL
   113 mg/dL
   1.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   29 mg/dL
   98 mEq/L
   136 mEq/L
   30.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2138-9-17**]  11:48 PM
                             [**2138-9-18**]  12:30 AM
                             [**2138-9-18**]  05:30 AM
                             [**2138-9-18**]  05:42 AM
                             [**2138-9-18**]  11:32 AM
                             [**2138-9-18**]  11:45 AM
                             [**2138-9-18**]  05:53 PM
                             [**2138-9-18**]  06:17 PM
                             [**2138-9-19**]  12:00 AM
                             [**2138-9-19**]  12:15 AM
   WBC
   15.4
   15.4
   Hct
   31.8
   31.0
   Plt
   286
   238
   Cr
   3.0
   2.6
   2.3
   2.0
   1.9
   TCO2
   30
   29
   31
   30
   29
   Glucose
   126
   123
   127
   123
   115
   Other labs: PT / PTT / INR:13.4/28.1/1.2, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-18**], Alk Phos / T Bili:56/0.2, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.1 g/dL, LDH:491 IU/L, Ca++:10 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   74-F w/ HTN, HL, hypothyroidism, and recent dx of ovarian ca vs.
   lymphoma, who presented to the ED for evaluation of acute renal failure
   and hyperkalemia.
   # Adenocarcinoma, most likely ovarian
   - Cytology consistent with an adenocarcinoma. Staining revealed CK7
   positive only with rare B72.3 cells positive.  Equivocal for ovarian vs
   lung but morphology is consistent with ovarian.  Heme no longer feels
   it is necessary to obtain further tissue sample.  Will no require a
   lymph node biopsy
   # SOB and pleural effusion- originally improved s/p thoracentesis but
   recurred and this has presented a challenge for this patient for
   several days now. Concerned for pulm edema v  tamponade v PE
   - Pigtail catheter in L base draining wel1 and pt more comfortable and
   off BiPAP.
   - Chest tube 1 is now extrathoracic and will be removed by CT surgery
   today
   - Chemistry consistent with exudate, cytology pending, but so far
   consistent with adenoca
   - ECHO unconvincing for tamponade, just small effusion. Repeat ECHO
unchanged
   - Volume overload seems to be a critical issue here. Will continue with
   CVVH for now taking off as much as tolerated with her BP controlled
   with pressors
 50-100mL per hour
   #. Hypotension- on Levophed 0.0.08/hr, which is an improvement,
   continuing to taper pressors
   - Concern for tamponade physiology, as above
   - Could be a component of uremic pericarditis
   - Given concern for uremic symptoms, CVVH may alleviate this. Pressors
   continue be on board to allow CVVH to proceed.
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who feel no emergent need for HD. Would
   aggressively volume resuscitate given her significant volume depletion.
   - CVVH started on [**9-16**].  [**Month (only) 51**] be able to transition to HD.  Will check
   with renal.
   - holding home Lasix and ACE-I in ARF
   - D/c renagel as phos is 2.4
   - Consulted uro for possible perc nephrostomy; will hold on any
   intervention at this time given tenuous cardiopulm status
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment
   #. Hyperlipidemia - cont home statin dose
   #. Hypothyroidism - cont home levothyroxine
   # Nutrition- low Na, heart healthy diet
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Arterial Line - [**2138-9-16**] 09:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2138-09-19 12:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo with ovarian CA.  Levophed  down to 0.08.  Has been 1L negative.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-19**] 05:42 AM
   Famotidine (Pepcid) - [**2138-9-19**] 08:00 AM
   Other medications:
   synthroid
   simvastatin
   heparin
   colace
   pepcid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-19**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 106 (94 - 117) bpm
   BP: 85/51(59) {84/49(57) - 122/99(103)} mmHg
   RR: 22 (17 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  6,751 mL
                                                                  3,059 mL
   PO:
                                                                    420 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  6,331 mL
                                                                  3,029 mL
   Blood products:
   Total out:
                                                                  8,002 mL
                                                                  3,290 mL
   Urine:
                                                                    473 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,251 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.44/40/110/27/2
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left base)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   245 K/uL
   113 mg/dL
   1.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   29 mg/dL
   98 mEq/L
   136 mEq/L
   30.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2138-9-18**]  05:30 AM
                             [**2138-9-18**]  05:42 AM
                             [**2138-9-18**]  11:32 AM
                             [**2138-9-18**]  11:45 AM
                             [**2138-9-18**]  05:53 PM
                             [**2138-9-18**]  06:17 PM
                             [**2138-9-19**]  12:00 AM
                             [**2138-9-19**]  12:15 AM
                             [**2138-9-19**]  06:00 AM
                             [**2138-9-19**]  06:13 AM
   WBC
   15.4
   15.4
   17.5
   Hct
   31.8
   31.0
   30.3
   Plt
   286
   238
   245
   Cr
   2.6
   2.3
   2.0
   1.9
   1.6
   TCO2
   29
   31
   30
   29
   28
   Glucose
   123
   127
   123
   115
   113
   Other labs: PT / PTT / INR:13.0/27.2/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:11/37, Alk Phos / T Bili:59/0.5, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.1 g/dL, LDH:384 IU/L, Ca++:10.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   HOTN:  Slow improvement with removal of fluid.  Likely came in fluid
   overloaded with ventricular interdependance.  Now better.
   Respiratory distress:  pleural effusion and pulmonary edema now
   improved.
   ARF:  Continue CVVH, fluid removal.  Getting 1L of per day.  U/O also
   picking up.
   Ovarian CA: treament once better.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Arterial Line - [**2138-9-16**] 09:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2138-09-20 07:12:00 Physician Resident Progress Note
24 Hour Events:
   -Pigtail catheter changed to water seal
   -Onc- most likely ovarian, does not need LN biopsy.  Can transfer to
   OMED when stable
   -Had to d/c CVVH at approx 2:30am due to difficulties with the line.
   Renal feels safe to give him a CVVH holiday today.
   -Net neg 1.1 L in 24 hrs
   -Levo up to 0.1 (from 0.08)
   -Pt very uncomfortable overnight and had difficulty sleeping.  Gave
   1.5mg Ativan with min results, however, following CVVH discontinuation,
   pt was able to sleep
   -RN reports yeast infection.  Gave one dose of fluconazole
   -WBC increasing, at 20.7 today.  Added on diff (last diff from [**9-12**])
   - Blood cultures and urine cultures sent this am from A-line and neck
   line.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-9-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-20**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 130 (105 - 160) bpm
   BP: 67/46(55) {67/41(55) - 122/75(92)} mmHg
   RR: 27 (22 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  6,526 mL
                                                                    764 mL
   PO:
                                                                    230 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  6,296 mL
                                                                    664 mL
   Blood products:
   Total out:
                                                                  7,628 mL
                                                                    327 mL
   Urine:
                                                                    390 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
   [**Location 1360**]1,102 mL
                                                                  +11028mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.48/37/116/27/4 Lactate 2.5
   Physical Examination
   Gen: awake, alert, conversant
   Pulm: moving air well on right, decreased breath sounds at LLL
   CV: tachy
   Abd: soft. nontender
   Ext: pitting edema in BL Upper and lower Extremities
   Labs / Radiology
   224 K/uL
   10.4 g/dL
   109 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   23 mg/dL
   101 mEq/L
   137 mEq/L
   31.5 %
   20.7 K/uL
        [image002.jpg]
                             [**2138-9-19**]  12:41 AM
                             [**2138-9-19**]  06:00 AM
                             [**2138-9-19**]  06:13 AM
                             [**2138-9-19**]  11:45 AM
                             [**2138-9-19**]  11:57 AM
                             [**2138-9-19**]  05:48 PM
                             [**2138-9-19**]  06:04 PM
                             [**2138-9-20**]  12:13 AM
                             [**2138-9-20**]  05:00 AM
                             [**2138-9-20**]  05:22 AM
   WBC
   17.5
   20.7
   Hct
   30.3
   31.5
   Plt
   245
   224
   Cr
   1.4
   1.6
   1.5
   1.5
   1.5
   TCO2
   28
   29
   30
   28
   28
   Glucose
   110
   113
   116
   131
   109
   Other labs: PT / PTT / INR:12.7/27.0/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:11/37, Alk Phos / T Bili:59/0.5, Amylase / Lipase:45/26,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.7 %, Eos:0.1 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.2 g/dL, LDH:384 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   74-F w/ HTN, HL, hypothyroidism, and recent dx of ovarian ca vs.
   lymphoma, who presented to the ED for evaluation of acute renal failure
   and hyperkalemia.
   #. Hypotension- on Levophed required more overnight however A-line
   over-dampened and when has good [**Location (un) **] after flush matches cuff
   [**Location (un) **].
   -Concerned for sepsis as has tachy, leukocytosis and inc
ing pressor
   requirements.
   -Will start empiric vanc, zosyn, cipro to cover HAP as this most likely
   given poor pulmonary status. Also will cover line infections.
   -Will check [**Last Name (un) 402**] stim test to make sure no adrenal insufficiency since
   in the setting of CA could have mets to adrenals.
   - Has known pericardial effusion that has been stable but will check
   CVP through Vigileo if able to assess fluid status as now total body
   volume overloaded but likely intravascularly depleted.
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who felt no emergent need for HD.
   - CVVH started on [**9-16**] and had to be held as line is no longer
   working.  [**Month (only) 51**] be able to transition to HD.  Will check with renal.
   -Will likely need new HD line placed and this will likely require IR as
   this was needed for last line.
   - holding home Lasix and ACE-I in ARF
   - D/c renagel as phos is 2.4
   - Consulted uro for possible perc nephrostomy; will hold on any
   intervention at this time given tenuous cardiopulm status
   # Adenocarcinoma, most likely ovarian
   - Cytology consistent with an adenocarcinoma. Staining revealed CK7
   positive only with rare B72.3 cells positive.  Equivocal for ovarian vs
   lung but morphology is consistent with ovarian.  Heme no longer feels
   it is necessary to obtain further tissue sample.  Will not require a
   lymph node biopsy
   # SOB and pleural effusion- improved s/p pigtail placement. Now on NC
   only.
   - Pigtail catheter in L base draining wel1 and pt more comfortable and
   off BiPAP.
   - Chemistry of pleural fluid consistent with exudate, cytology pending,
   but so far consistent with adenoca
   - ECHO unconvincing for tamponade, just small effusion. Repeat ECHO
unchanged
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment
   #. Hyperlipidemia - cont home statin dose
   #. Hypothyroidism - cont home levothyroxine
   ICU Care
   Nutrition: low Na, HH diet
   Glycemic Control:  RISS as patient
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Arterial Line - [**2138-9-16**] 09:47 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI QD
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: IN ICU on pressors

2138-09-21 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2138-9-20**] 05:07 PM
 EKG - At [**2138-9-21**] 02:00 AM
   Iv nurse able to place PICC with U/S.
   Renal will replace HD line today. Have been using port to give ABx
   yesterday but now should be able to use PICC instead.
   Differential with no bands but left shift.
   ID approved Vanc, Zosyn, Cipro for HAP. First day yesterday. 7 day
   course. Last day [**2138-9-26**].
   28 beat run of NSVT (~10seconds). Lytes showed Creatinine 1.9 and Mg
   1.5. EKG was unchanged. Might be from levophed but unable to wean down
   as pressures decreased when tried to wean down. Repleted mag with SS.
   After pulling back PICC NSVT resolved
   [**Last Name (un) **] stim was done. results were 23.8->42.2.
   U/A large blood, mod bacteria, 100 prot, 3 WBCs. Culture pending. Will
   pull PICC if positive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-20**] 04:55 PM
   Piperacillin - [**2138-9-20**] 05:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-21**] 06:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-20**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-9-21**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-21**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 96 (96 - 137) bpm
   BP: 101/60(76) {67/46(55) - 146/88(107)} mmHg
   RR: 35 (23 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  2,476 mL
                                                                    451 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,776 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                    687 mL
                                                                    200 mL
   Urine:
                                                                    310 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,789 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GEN: NAD, talking pleasantly, only very mildly dyspneic
   HEENT: MMM, R HD line w/o edema, hemorrhage, or signs of infection
   CV: More easily auscultated than in the past. RRR, NL S1S2 no S3S4 no
   MRG
   PULM: Bilat wheezes L>R
   ABD: BS+, distended, nontender. Multiple masses and unusual consistency
   of abdomen
   Labs / Radiology
   206 K/uL
   9.5 g/dL
   116 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   30 mg/dL
   98 mEq/L
   133 mEq/L
   28.9 %
   21.5 K/uL
        [image002.jpg]
                             [**2138-9-19**]  06:13 AM
                             [**2138-9-19**]  11:45 AM
                             [**2138-9-19**]  11:57 AM
                             [**2138-9-19**]  05:48 PM
                             [**2138-9-19**]  06:04 PM
                             [**2138-9-20**]  12:13 AM
                             [**2138-9-20**]  05:00 AM
                             [**2138-9-20**]  05:22 AM
                             [**2138-9-20**]  08:28 PM
                             [**2138-9-21**]  04:22 AM
   WBC
   20.7
   21.5
   Hct
   31.5
   28.9
   Plt
   224
   206
   Cr
   1.5
   1.5
   1.5
   1.9
   1.7
   TCO2
   28
   29
   30
   28
   28
   Glucose
   116
   131
   109
   113
   116
   Other labs: PT / PTT / INR:13.2/26.9/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:11/37, Alk Phos / T Bili:59/0.5, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:2.5 mmol/L, Albumin:2.0 g/dL, LDH:384 IU/L, Ca++:9.0
   mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   74-F w/ HTN, HL, hypothyroidism, and recent dx of ovarian ca vs.
   lymphoma, who presented to the ED for evaluation of acute renal failure
   and hyperkalemia.
   #. Hypotension- on Levophed 0.1mg/min stable with SBPs around 110
   -Concerned for sepsis as has tachy, leukocytosis and on pressors
   - started empiric vanc, zosyn, cipro to cover HAP as this most likely
   given poor pulmonary status.
   - Antibiotics will also cover line infections. Renal to pull HD line
   today. Will culture tip.
   - [**Last Name (un) **] stim wnl so likely not adrenally insufficient.
   - Has known pericardial effusion that has been stable but will check
   CVP through Vigileo if able to assess fluid status as now total body
   volume overloaded but likely intravascularly depleted.
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who felt no emergent need for HD.
   - CVVH started on [**9-16**] and had to be held as line is no longer
   working.  [**Month (only) 51**] be able to transition to HD.  Will check with renal.
   -Will likely need new HD line placed and this will likely require IR as
   this was needed for last line.
   - holding home Lasix and ACE-I in ARF
   - D/c renagel as phos is 2.4
   - Consulted uro for possible perc nephrostomy; will hold on any
   intervention at this time given tenuous cardiopulm status
   # Adenocarcinoma, most likely ovarian
   - Cytology consistent with an adenocarcinoma. Staining revealed CK7
   positive only with rare B72.3 cells positive.  Equivocal for ovarian vs
   lung but morphology is consistent with ovarian.  Heme no longer feels
   it is necessary to obtain further tissue sample.  Will not require a
   lymph node biopsy
   # SOB and pleural effusion- improved s/p pigtail placement. Now on NC
   only.
   - Pigtail catheter in L base draining wel1 and pt more comfortable and
   off BiPAP.
   - Chemistry of pleural fluid consistent with exudate, cytology pending,
   but so far consistent with adenoca
   - ECHO unconvincing for tamponade, just small effusion. Repeat ECHO
unchanged
   - Added standing bronchodilators
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment
   #. Hyperlipidemia - cont home statin dose
   #. Hypothyroidism - cont home levothyroxine
   ICU Care
   Nutrition: low Na, HH diet
   Glycemic Control:  RISS as patient
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   20 Gauge - [**2138-9-15**] 12:30 PM
   Arterial Line - [**2138-9-16**] 09:47 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI QD
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: IN ICU on pressors

2138-09-22 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Leukocytosis, tachy, hypotension
 concern for sepsis.  Started on
   empiric hospital acq pneumonia abx.  Also, will change lines.  Plan was
   to change both HD cath and A line yesterday but were delayed.
   Pt been off CVVH since early Saturday am.
   Vanco: 8.4, will need increased dosing
   All cultures negative so far
   Levophed dose was 0.08 for a while, but back up to 0.1mg/min once she
   was sleeping
   UOP 10-15mL/hr
   Pigtail cath placed by IP but CT surgery following as well.  [**Doctor First Name **]
   recommended CT to suction of -20cmH2O plus regular flushes of sterile
   NS. Clarified with IP who said they will be by tomorrow morning to
   flush tube.  Also, requested since she is off CVVH to get a non
   contrast chest CT for further eval.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-20**] 04:55 PM
   Ciprofloxacin - [**2138-9-21**] 04:00 PM
   Piperacillin - [**2138-9-21**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-22**] 12:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-9-21**] 10:00 PM
   Lorazepam (Ativan) - [**2138-9-22**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-22**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 102 (93 - 114) bpm
   BP: 86/51(65) {80/50(61) - 135/76(98)} mmHg
   RR: 25 (0 - 44) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  1,931 mL
                                                                    189 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  1,091 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                    533 mL
                                                                    145 mL
   Urine:
                                                                    358 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
                                                             70 mL Pigtail
   Balance:
                                                                  1,398 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: awake, alert, oriented
   Chest: coarse bs bilat
   CV: tachy
   Abd: soft, obese
   Ext: pitting edema to thighs bilat;  eccymoses of left wrist around art
   line.
   Labs / Radiology
   202 K/uL
   9.3 g/dL
   111 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.1 mEq/L
   36 mg/dL
   100 mEq/L
   135 mEq/L
   28.2 %
   21.0 K/uL
        [image002.jpg]
                             [**2138-9-19**]  11:45 AM
                             [**2138-9-19**]  11:57 AM
                             [**2138-9-19**]  05:48 PM
                             [**2138-9-19**]  06:04 PM
                             [**2138-9-20**]  12:13 AM
                             [**2138-9-20**]  05:00 AM
                             [**2138-9-20**]  05:22 AM
                             [**2138-9-20**]  08:28 PM
                             [**2138-9-21**]  04:22 AM
                             [**2138-9-22**]  03:24 AM
   WBC
   20.7
   21.5
   21.0
   Hct
   31.5
   28.9
   28.2
   Plt
   [**Telephone/Fax (3) 1400**]
   Cr
   1.5
   1.5
   1.5
   1.9
   1.7
   2.0
   TCO2
   29
   30
   28
   28
   Glucose
   116
   131
   109
   113
   116
   111
   Other labs: PT / PTT / INR:13.4/24.7/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:11/37, Alk Phos / T Bili:59/0.5, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:2.5 mmol/L, Albumin:2.2 g/dL, LDH:384 IU/L, Ca++:8.8
   mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   74-F w/ HTN, HL, hypothyroidism, and recent dx of ovarian ca vs.
   lymphoma, who presented to the ED for evaluation of acute renal failure
   and hyperkalemia.
   #. Hypotension- on Levophed 0.1mg/min stable with SBPs around 110. Was
   0.08 for a while
   -Concerned for sepsis as has tachy, leukocytosis and on pressors
   - started empiric vanc, zosyn, cipro to cover HAP as this most likely
   given poor pulmonary status.
   - Antibiotics will also cover line infections. Need to change both HD
   cath and art line
   - [**Last Name (un) **] stim wnl so likely not adrenally insufficient.
   - Has known pericardial effusion that has been stable but will check
   CVP through Vigileo if able to assess fluid status as now total body
   volume overloaded but likely intravascularly depleted.
   - Intravascular volume repletion with crystalloid and colloid as needed
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who felt no emergent need for HD.
   - CVVH started on [**9-16**] and had to be held as line is no longer
   working.  [**Month (only) 51**] be able to transition to HD.
   - Will likely need new HD line placed and this will likely require IR
   as this was needed for last line.
   - holding home Lasix and ACE-I in ARF
   - D/c renagel as phos is 2.4
   - Will obtain new u/a and urine culture.  Consider repeart renal
   ultrasound to eval current level of hydronephrosis.
   - If it is decided that pt needs a perc nephrostomy will re-consult uro
   (they had been consulted when first admitted and it was decided to
   hold)
   # Adenocarcinoma, most likely ovarian
   - Cytology consistent with an adenocarcinoma. Staining revealed CK7
   positive only with rare B72.3 cells positive.  Equivocal for ovarian vs
   lung but morphology is consistent with ovarian.  Heme no longer feels
   it is necessary to obtain further tissue sample.  Will not require a
   lymph node biopsy
   # SOB and pleural effusion- improved s/p pigtail placement. Now on NC
   only.
   - Pigtail catheter in L base draining wel1 and pt more comfortable and
   off BiPAP.
   - IP will see pt tomorrow  morning to help flush tube (although it is
   still draining freely) as well as determine need for wall suction vs
   water seal.  IP also requests non contrast chest CT for further eval.
   - Chemistry of pleural fluid consistent with exudate, cytology pending,
   but so far consistent with adenoca
   - ECHO unconvincing for tamponade, just small effusion. Repeat ECHO
unchanged
.  If pt continues to require pressors, will repeat echo.
   Depending on what echo shows in terms of the RV, will eval need for a
   V/Q scan to r/o PE.
   - Added standing bronchodilators
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment
   #. Hyperlipidemia - cont home statin dose
   #. Hypothyroidism - cont home levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   Arterial Line - [**2138-9-16**] 09:47 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: pneumo boots; subq heparin
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-23 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Was off of Levophed for majority of yesterday .  Placed back on
   Levophed once MAPs were consistently <60.
   - IP- to see pt this am regarding flushing line, need for suction vs
   water seal, as well as next steps.  Also, requested non contrast chest
   CT to aid in further eval
   - Renal- advised repeat u/a, urine culture, and renal u/s.  However,
   given that we were obtaining a chest CT, expanded CT to included
   abd/pelvis.
   - Non contrast CT performed, unread
   - Endocrine- Increased Synthroid dose from 40mcg to 125 mcg.  Elev TSH
   and decr free T4 and T3.  Anti-TPO Ab pending
   - Art line- not resited yesterday due to question of small radial
   thrombus
   - HD cath- will be placed by IR per renal, most likely today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-21**] 06:00 PM
   Vancomycin - [**2138-9-22**] 08:23 AM
   Ciprofloxacin - [**2138-9-22**] 04:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-23**] 12:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-22**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-9-22**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-23**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 105 (95 - 122) bpm
   BP: 117/44(64) {79/32(47) - 149/99(107)} mmHg
   RR: 17 (10 - 51) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  3,425 mL
                                                                    167 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  1,830 mL
                                                                    167 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                    660 mL
                                                                     80 mL
   Urine:
                                                                    380 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,765 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   9.3 g/dL
   96 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.1 mEq/L
   38 mg/dL
   97 mEq/L
   133 mEq/L
   28.2 %
   21.0 K/uL
        [image002.jpg]
                             [**2138-9-19**]  11:57 AM
                             [**2138-9-19**]  05:48 PM
                             [**2138-9-19**]  06:04 PM
                             [**2138-9-20**]  12:13 AM
                             [**2138-9-20**]  05:00 AM
                             [**2138-9-20**]  05:22 AM
                             [**2138-9-20**]  08:28 PM
                             [**2138-9-21**]  04:22 AM
                             [**2138-9-22**]  03:24 AM
                             [**2138-9-22**]  06:29 PM
   WBC
   20.7
   21.5
   21.0
   Hct
   31.5
   28.9
   28.2
   Plt
   [**Telephone/Fax (3) 1400**]
   Cr
   1.5
   1.5
   1.9
   1.7
   2.0
   2.1
   TCO2
   29
   30
   28
   28
   Glucose
   131
   109
   113
   116
   111
   96
   Other labs: PT / PTT / INR:13.4/24.7/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:11/37, Alk Phos / T Bili:59/0.5, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:2.5 mmol/L, Albumin:2.2 g/dL, LDH:384 IU/L, Ca++:8.8
   mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
    74-F w/ HTN, HL, hypothyroidism, and recent dx of adenocarcinoma, most
   likely ovarian primary, who presented to the ED for evaluation of acute
   renal failure and hyperkalemia.  Noted to have pleural and pericardial
   effusions.
   #. Hypotension- Has required Levophed for much of admission.
   -Concerned for sepsis as has tachy, leukocytosis and on pressors
   - started empiric vanc, zosyn, cipro to cover HAP as this most likely
   given poor pulmonary status.
   - Antibiotics will also cover line infections. Need to change both HD
   cath and art line
   - [**Last Name (un) **] stim wnl so likely not adrenally insufficient.
   - Has known pericardial effusion that has been stable but will check
   CVP through Vigileo if able to assess fluid status as now total body
   volume overloaded but likely intravascularly depleted.
   - Intravascular volume repletion with crystalloid and colloid as needed
   On my ultrasound exam, there is an entirely noncompressible portion of
   the right radial artery.  More proximally, the artery is compressible
   with very firm pressure and is pulsatile when compressed.  Suspect this
   represents a small radial thrombosis.  There is good distal perfusion.
   Given this, I think that risks of resiting art line outweigh benefits
   at present.
   #. Acute renal failure - Pt p/w weakness and SOB, found to have ARF w/
   Cr 7.8. Seen by renal in [**Name (NI) 73**], unclear baseline Cr for comparison but
   impressively sick. DDx includes pre-renal physiology [**2-22**] poor PO intake
   in combination with an increased dose of Lasix, contrast-induced
   nephropathy (however, significant time delay between CT scan-[**9-5**] and
   first lab results showing elev Cr), and post-obstructive renal failure
   from R hydronephrosis (?) [**2-22**] tumor burden vs. ascites as seen US o/n.
   Seen by renal in ED, who felt no emergent need for HD.
   - CVVH started on [**9-16**] and had to be held as line is no longer
   working.  [**Month (only) 51**] be able to transition to HD.
   - Will likely need new HD line placed and this will likely require IR
   as this was needed for last line.
   - holding home Lasix and ACE-I in ARF
   - D/c renagel as phos is 2.4
   - Will obtain new u/a and urine culture.  Consider repeart renal
   ultrasound to eval current level of hydronephrosis.
    - If it is decided that pt needs a perc nephrostomy will re-consult
   uro (they had been consulted when first admitted and it was decided to
   hold
   # Adenocarcinoma, most likely ovarian
   - Cytology consistent with an adenocarcinoma. Staining revealed CK7
   positive only with rare B72.3 cells positive.  Equivocal for ovarian vs
   lung but morphology is consistent with ovarian.  Heme no longer feels
   it is necessary to obtain further tissue sample.  Will not require a
   lymph node biopsy
   # SOB and pleural effusion- improved s/p pigtail placement. Now on NC
   only.
   - Pigtail catheter in L base draining wel1 and pt more comfortable and
   off BiPAP.
   - IP will see pt tomorrow  morning to help flush tube (although it is
   still draining freely) as well as determine need for wall suction vs
   water seal.  IP also requests non contrast chest CT for further eval.
   - Chemistry of pleural fluid consistent with exudate, cytology pending,
   but so far consistent with adenoca
   - ECHO unconvincing for tamponade, just small effusion. Repeat ECHO
   "unchanged".  If pt continues to require pressors, will repeat echo.
   Depending on what echo shows in terms of the RV, will eval need for a
   V/Q scan to r/o PE.
   - Added standing bronchodilators
   #. Hyperkalemia - Most likely [**2-22**] worsening acute renal failure, esp in
   setting of the medications she was taking, including Lasix and ACE-I.
   Pt had K 7.8 on arrival to ED, without ECG changes. Now s/p tx w/ Ca
   gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment
   #. Hyperlipidemia - cont home statin dose
   #. Hypothyroidism - cont home levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-23 10:58:00 Physician Attending Progress Note
Chief Complaint: shock of uncertain etiology
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2138-9-22**] 02:01 PM
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2138-9-22**] 02:23 PM
   leftr a line fell out
 URINE CULTURE - At [**2138-9-22**] 02:24 PM
   Off of levophed most of the day yesterday, but had to resume due to
   hypotension.
   Discussed with renal regarding hydronephrosis.  Recommended imaging.
   TSH/FT4 suggested mark hypothyroidism.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-21**] 06:00 PM
   Ciprofloxacin - [**2138-9-22**] 04:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-23**] 06:00 AM
   Vancomycin - [**2138-9-23**] 08:18 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-23**] 06:00 AM
   Other medications:
   sqh, statin, colace, H2B, zosyn, cipro, MDIs, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-23**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 111 (95 - 122) bpm
   BP: 98/50(61) {79/32(47) - 129/99(107)} mmHg
   RR: 20 (10 - 51) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  3,425 mL
                                                                    483 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  1,830 mL
                                                                    483 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                    660 mL
                                                                    320 mL
   Urine:
                                                                    380 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,765 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese, comfortable
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : very scant)
   Abdominal: Soft, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.5 g/dL
   220 K/uL
   101 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.1 mEq/L
   38 mg/dL
   99 mEq/L
   134 mEq/L
   31.5 %
   21.2 K/uL
        [image002.jpg]
                             [**2138-9-19**]  05:48 PM
                             [**2138-9-19**]  06:04 PM
                             [**2138-9-20**]  12:13 AM
                             [**2138-9-20**]  05:00 AM
                             [**2138-9-20**]  05:22 AM
                             [**2138-9-20**]  08:28 PM
                             [**2138-9-21**]  04:22 AM
                             [**2138-9-22**]  03:24 AM
                             [**2138-9-22**]  06:29 PM
                             [**2138-9-23**]  06:07 AM
   WBC
   20.7
   21.5
   21.0
   21.2
   Hct
   31.5
   28.9
   28.2
   31.5
   Plt
   [**Telephone/Fax (3) 1417**]20
   Cr
   1.5
   1.5
   1.9
   1.7
   2.0
   2.1
   2.2
   TCO2
   30
   28
   28
   Glucose
   131
   109
   113
   116
   111
   96
   101
   Other labs: PT / PTT / INR:13.2/24.6/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:10/36, Alk Phos / T Bili:54/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:2.5 mmol/L, Albumin:2.2 g/dL, LDH:393 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   74 y/o woman with shock of uncertain etiology in the setting of recent
   diagnosis of ovarian cancer.
   Shock
   Echo showed small effusion but no signs of tamponade
   Cortisol results exclude adrenal insufficiency
   Rising white count is concerning for possible infection. We are
   following cultures at present, but shock preceded leucocytosis.
   Treating empirically while awaiting cultures
   Dialysis line change under discussion by renal and I.R.
   TSH/FT4 results concerning that hypothyroidism may be contributing to
   shock.  We have consulted endocrine and will use intravenous
   replacement therapy.
   Respiratory Distress
   Chest tube management per IP team
   Bronchodilate
   Acute renal failure
   Resume CVVHD once line changed.
   Discuss postrenal issues with renal team.
   Ovarian cancer
   To OMED once acute issues complete
   Pleural effusion (malignant)
   Leave pigtail in.  Eventual sclerosis.
   Other issues as per ICU team note.
   ICU Care
   Nutrition:  PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   discussed with patient and family
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2138-09-24 06:27:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - HD cath changed over the wire by Renal  (IR couldn't place as pt
   couldn't lie flat)
   - Radiology called to report L PICC is too deep on CT, appears to be in
   right ventricle.  Discussed with IV nurse, who was not concerned.  Line
   can't be visualized on CXR, lateral film needed.
   - Has episodes of ectopy with changes in position
   - Restarted on Levophed
   - Started on CVVH overnight
   - Slept with ativan
   - Changed from po to IV synthroid for questions of poor absorptions
   - IP recs: pleuradesis possibly when more stable.  Will perform
   thoracentesis on right effusion today.
   - Day 5 of Zosyn, 8 of cipro, and 3 of vanc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-21**] 06:00 PM
   Ciprofloxacin - [**2138-9-22**] 04:05 PM
   Vancomycin - [**2138-9-23**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-24**] 05:57 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-24**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96.1
   HR: 97 (97 - 131) bpm
   BP: 121/92(70) {81/32(55) - 128/92(98)} mmHg
   RR: 25 (16 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  1,105 mL
                                                                  1,624 mL
   PO:
             TF:
   IVF:
                                                                  1,105 mL
                                                                  1,624 mL
   Blood products:
   Total out:
                                                                  1,137 mL
                                                                  1,466 mL
   Urine:
   Dialysis:
                                                                    455 mL
                                                                    412 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
                                                                    270 mL
   Balance:
                                                                    -32 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 99%
   VBG: 4am
   7.35/46/31
   Physical Examination
GENERAL:  She is alert and oriented x3
HEENT:  Sclerae are anicteric, OP clear, MMM
LUNGS:  Decreased breath sounds bilaterally over both anterior lung fields.  Fai
nt exp wheezes on right
CARDIAC:  Tachycardic, regular
ABDOMEN:  Very distended, but nontender with decreased bowel
EXTREMITIES:  3+ edema without rashes or cyanosis.
   Labs / Radiology
   248 K/uL
   10.1 g/dL
   166 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   34 mg/dL
   100 mEq/L
   133 mEq/L
   30.3 %
   19.4 K/uL
        [image002.jpg]
   [**9-23**] WBC 21
                             [**2138-9-20**]  12:13 AM
                             [**2138-9-20**]  05:00 AM
                             [**2138-9-20**]  05:22 AM
                             [**2138-9-20**]  08:28 PM
                             [**2138-9-21**]  04:22 AM
                             [**2138-9-22**]  03:24 AM
                             [**2138-9-22**]  06:29 PM
                             [**2138-9-23**]  06:07 AM
                             [**2138-9-23**]  07:04 PM
                             [**2138-9-24**]  03:55 AM
   WBC
   20.7
   21.5
   21.0
   21.2
   19.4
   Hct
   31.5
   28.9
   28.2
   31.5
   30.3
   Plt
   [**Telephone/Fax (3) 1417**]20
   248
   Cr
   1.5
   1.9
   1.7
   2.0
   2.1
   2.2
   2.2
   1.8
   TCO2
   28
   28
   Glucose
   109
   113
   116
   111
   96
   101
   111
   166
   Other labs: PT / PTT / INR:15.2/26.3/1.3 (1.1 since [**9-19**]), Lactic
   Acid:2.5 mmol/L([**9-20**]), Ca++:8.0 mg/dL, ionized Ca++: 0.95, Mg++:2.0
   mg/dL, PO4:3.2 mg/dL
   CT ([**9-22**]):
   Left lung re-expansion
   Increase right pleural effusion with collapse of RLL
   No change in right hydronephrosis
   Assessment and Plan.
   74
R w/ metastatic ovarian cancer, ARF on CVVH, and malignant pleural
   effusion.  Course has been complicated by hypotension requiring
   pressors.  Originally presented to ED [**2-22**] ARF and hyperkalemia.  PMH
   includes hypothyroidism and HLD.
   #. Hypotension
 shock.  Has required Levophed for much of
   admission.  Last 2 days been able to tolerate long pressor free
   periods.   Differential dx for shock includes sepsis, metabolic causes,
   cardiogenic, hypovolemia.
   - [**Name (NI) 1064**] pt has a leukocytosis but has been afebrile.  Started on
   empiric abx to cover for HAP.  Stopped today, [**9-24**], as no clear evidence
   of HAP.  Received 5 days of zosyn, 8 days of cipro, and 3 days of
   vanc.  Abx also would have covered a line infection.  Changed HD cath
   over the wire on [**9-22**] and art line was d/c
ed.  Will monitor PICC line
   for signs of infection.
   - Metabolic- [**Last Name (un) 402**] stim was wnl so likely not adrenal insufficiency.
   Consulted ID for evaluation of whether hypothyroidism could cause
   shock.  Increased dose of Synthroid and transitioned to IV but
   endocrinology felt that this was unlikely.
   - Cardiogenic-  ECHO unconvincing for tamponade, just small effusion.
   Repeat ECHO reported that it was "unchanged".  Will repeat TTE today to
   again eval for tamponade.  Depending on what echo shows in terms of the
   RV, will eval need for a V/Q scan to r/o PE as a cause of shock.
   - On [**9-22**], Vigileo suggested intravascular depletion, and repleted pt
   with crystalloid and colloid.  However, she did not require pressors
   for much of the day.  Will run CVVH at a 0 balance.
   # Bilat pleural effusions, cytology c/w malignancy.  Left sided
   effusion improved s/p pigtail placement but CT on [**9-22**] showed increased
   right sided effusion.  Only requiring NC at this time.
   - Pigtail cath draining well.  270cc serosang fluid in prev 24 hours.
   - IP following pigtail.
   - IP will also perform thoracentesis of right sided effusion.
   - ? of Pleurodesis when stable
   - Added standing bronchodilators for wheezing
   #. Acute renal failure
 Significant vol overload and anasarca.  CVVH
   started on [**9-16**] and stopped on [**9-20**] [**2-22**] poor access.
   - Line replaced by renal on [**9-23**] and restarted CVVH.
   - Repeat imaging of kidneys showed unchanged right hydronephrosis.
   Will re-consult urology for percutaneous nephrostomy tube for
   drainage.  [**Month (only) 51**] need anesthesia eval prior to procedure.
   - holding home Lasix and ACE-I in ARF
   - Follow electrolytes and replete as needed
   # Metastatic ovarian cancer: at this time, not stable for treatment
   - Will require inpt palliative chemotherapy, most likely carboplatinum
   - When off pressors, can be transferred to OMED
   - Onc would prefer chest tube to be out prior to chemotherapy
   - Allopurinol to prevent tumor lysis syndrome
   #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.  Preliminary
   thought is no, but increased dose to 125 mcg.  Also, obtained anti-TPO
   antibodies.  Need to re-check a free T4 in several days.
   - Changed from oral to IV to ensure proper absorption
   #. Hyperkalemia, resolved: Most likely due to worsening renal function,
   esp in setting of the medications she was taking, including Lasix and
   ACE-I. Pt had K 7.8 on arrival to ED, without ECG changes. Treated w/
   Ca gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment  and has remained
   wnl.
   #. Hyperlipidemia - cont home statin dose
   ICU Care
   Nutrition: Heart healthy, low sodium diet
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM, changed over the wire on [**9-23**]
   by renal
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: family, mainly son
   [**Name (NI) 36**] status: Full code
   Disposition: MICU

2138-09-24 10:47:00 Physician Attending Progress Note
Chief Complaint: shock, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Line re-wired
   CVVH resumed
   History obtained from [**Hospital 15**] Medical records, ICU team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-21**] 06:00 PM
   Ciprofloxacin - [**2138-9-22**] 04:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-24**] 05:57 AM
   Vancomycin - [**2138-9-24**] 08:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-23**] 10:00 PM
   Other medications:
   as per [**Month (only) **] (reviewed on rounds today)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-24**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 98 (93 - 131) bpm
   BP: 104/78(84) {81/45(60) - 128/92(98)} mmHg
   RR: 31 (16 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  1,105 mL
                                                                  3,072 mL
   PO:
             TF:
   IVF:
                                                                  1,105 mL
                                                                  3,072 mL
   Blood products:
   Total out:
                                                                  1,157 mL
                                                                  2,616 mL
   Urine:
                                                                    475 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -52 mL
                                                                    456 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam only)
   Abdominal: Soft, Distended, No(t) Tender:
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   248 K/uL
   166 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   34 mg/dL
   100 mEq/L
   133 mEq/L
   30.3 %
   19.4 K/uL
        [image002.jpg]
                             [**2138-9-20**]  12:13 AM
                             [**2138-9-20**]  05:00 AM
                             [**2138-9-20**]  05:22 AM
                             [**2138-9-20**]  08:28 PM
                             [**2138-9-21**]  04:22 AM
                             [**2138-9-22**]  03:24 AM
                             [**2138-9-22**]  06:29 PM
                             [**2138-9-23**]  06:07 AM
                             [**2138-9-23**]  07:04 PM
                             [**2138-9-24**]  03:55 AM
   WBC
   20.7
   21.5
   21.0
   21.2
   19.4
   Hct
   31.5
   28.9
   28.2
   31.5
   30.3
   Plt
   [**Telephone/Fax (3) 1417**]20
   248
   Cr
   1.5
   1.9
   1.7
   2.0
   2.1
   2.2
   2.2
   1.8
   TCO2
   28
   28
   Glucose
   109
   113
   116
   111
   96
   101
   111
   166
   Other labs: PT / PTT / INR:15.2/26.3/1.3, CK / CKMB / Troponin-T:130//,
   ALT / AST:10/36, Alk Phos / T Bili:54/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:2.5 mmol/L, Albumin:2.2 g/dL, LDH:393 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   74 y/o woman with shock of uncertain etiology in the setting of recent
   diagnosis of ovarian cancer.
   Shock
   Echo showed small effusion but no signs of tamponade.  Repeat today to
   see if it has increased.
   Cortisol results exclude adrenal insufficiency
   Leucocytosis persists. Treating empirically while awaiting cultures.
   Thoracentesis today per IP
   Dialysis line changed by renal yesterday.
   TSH/FT4 results concerning that hypothyroidism may be contributing to
   shock. We have consulted endocrine and are using intravenous
   replacement therapy.
   Respiratory Distress
   Chest tube management per IP team
   Bronchodilate
   Acute renal failure
   On CVVHD.
   Urology to see today. They and renal will provide recommendations
   Ovarian cancer
   To OMED once acute issues complete
   Pleural effusion (malignant)
   Leave pigtail in. Eventual pleurodesis vs Pleurx.
   Other issues as per ICU team note.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:  40 min

2138-09-25 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Urology to take patient to OR/cysto suite on [**Hospital Ward Name 1437**] (cysto-suite)
   on [**9-26**] (Friday) for stent placement in attempt to relieve
   hydronephrosis (will need transport arranged, NPO after MN, anesthesia
   (MAC?) arranged as patient may be a difficult airway)
   -initiated regular insulin sliding scale for hyperglycemia (had never
   been above 200 previously), hyponatremia resolved with glucose control
   but should ask renal what is in ultrafiltrate and could this be causing
   her electrolyte shifts
   -PICC pulled back 2cm (51cm in, 4 cm out)
 THORACENTESIS -  R pleural tap- gm stain neg
 TRANSTHORACIC ECHO - Small pericardial effusion. No echo signs of
   tamponade, normal RV size and motion
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2138-9-22**] 04:05 PM
   Vancomycin - [**2138-9-24**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-24**] 11:38 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Norepinephrine - 0.09 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-24**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2138-9-24**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-25**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 99 (84 - 120) bpm
   BP: 93/67(74) {81/56(58) - 126/92(95)} mmHg
   RR: 23 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 7 (5 - 12)mmHg
   Total In:
                                                                  7,704 mL
                                                                  1,559 mL
   PO:
                                                                    620 mL
   TF:
   IVF:
                                                                  7,084 mL
                                                                  1,559 mL
   Blood products:
   Total out:
                                                                  7,696 mL
                                                                  1,309 mL
   Urine:
                                                                    620 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Dialysis:
                                                                 L: 225 mL
                                                                R: 1300 mL
                                                                   5551 mL
   Balance:
                                                                      8 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula on ___ L
   SpO2: 100%
   Physical Examination
GENERAL:  She is alert and oriented x3
HEENT:  Sclerae are anicteric, OP clear, MMM
LUNGS:  Decreased breath sounds bilaterally over both anterior lung fields.  Fai
nt exp wheezes on right
CARDIAC:  Tachycardic, regular
ABDOMEN:  Very distended, but nontender with decreased bowel
EXTREMITIES:  3+ edema without rashes or cyanosis.
   Labs / Radiology
   254 K/uL
   9.9 g/dL
   237 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.0 mEq/L
   19 mg/dL
   98 mEq/L
   131 mEq/L
   29.4 %
   17.9 K/uL
        [image002.jpg] Lowest Na was 127
                             [**2138-9-22**]  06:29 PM
                             [**2138-9-23**]  06:07 AM
                             [**2138-9-23**]  07:04 PM
                             [**2138-9-24**]  03:55 AM
                             [**2138-9-24**]  10:58 AM
                             [**2138-9-24**]  12:00 PM
                             [**2138-9-24**]  04:13 PM
                             [**2138-9-24**]  04:16 PM
                             [**2138-9-24**]  10:00 PM
                             [**2138-9-25**]  04:08 AM
   WBC
   21.2
   19.4
   16.9
   17.9
   Hct
   31.5
   30.3
   30.2
   29.4
   Plt
   220
   248
   250
   254
   Cr
   2.1
   2.2
   2.2
   1.8
   1.5
   1.3
   1.2
   Glucose
   96
   101
   111
   166
   282
   174
   379
   236
   237
   Other labs: PT / PTT / INR:13.8/25.9/1.2, Ca++:8.7 mg/dL, Ionized Ca++:
   1.12, Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Pleural fluid:
   pH 6.99, HCT 3%, 600 WBC: 15%polys, 2% lymphs, 3% monos, 5% macros, 75%
   others.  Gluc 21, tot prot 2.7, LDH 626
   Micro:
   Pleural Fluid: Gram stain- no PMNs, no microorg
   Urine ([**9-22**] and [**9-20**]): neg (final)
   Blood ([**9-20**]): NGTD
   TTE ([**9-24**]):
   - Normal LA size. Normal RA size.
   - Normal LV wall thickness, cavity size, and global systolic function
   (LVEF>55%). Suboptimal technical quality, a focal LV wall motion
   abnormality cannot be fully excluded. No resting LVOT gradient. No VSD.
   - Normal RV chamber size and free wall motion.
   - Normal aortic valve leaflets (3). No AS. No AR.
   - Normal mitral valve leaflets with trivial MR.
   - Normal tricuspid valve leaflets with trivial TR. Moderate PA systolic
   hypertension.
   - Small pericardial effusion. No echocardiographic signs of tamponade.
   - Suboptimal image quality - poor echo windows. Suboptimal image
   quality - body habitus. Resting tachycardia (HR>100bpm).
   Conclusions
   The left atrium is normal in size. Left ventricular wall thickness,
   cavity size, and global systolic function are normal (LVEF>55%). Due to
   suboptimal technical quality, a focal wall motion abnormality cannot be
   fully excluded. There is no ventricular septal defect. Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets (3) appear structurally normal with good leaflet
   excursion and no aortic regurgitation. The mitral valve appears
   structurally normal with trivial mitral regurgitation. There is
   moderate pulmonary artery systolic hypertension. There is a small
   posterior pericardial effusion. There are no echocardiographic signs of
   tamponade.
   Compared with the prior study (images reviewed) of [**2138-9-16**], the
   posterior effusion appears smaller.
   Assessment and Plan
   74
R w/ metastatic ovarian cancer, ARF on CVVH, and malignant pleural
   effusion.  Course has been complicated by hypotension requiring
   pressors.  Originally presented to ED [**2-22**] ARF and hyperkalemia.  PMH
   includes hypothyroidism and HLD.
   #. Hypotension
 shock.  Has required Levophed for much of admission.
   Last 2 days been able to tolerate long pressor free periods.
   Differential dx for shock includes sepsis, metabolic causes,
   cardiogenic, hypovolemia.
   - [**Name (NI) 1064**] pt has a leukocytosis but has been afebrile.  Started on
   empiric abx to cover for HAP.  D/c abx today ([**9-25**]); pt received 6 days
   of zosyn, 9 days of cipro, and 4 days of vanc.  Line infections:
   changed HD cath over the wire on [**9-23**] and art line was d/c
ed.  Will
   monitor PICC line for signs of infection.
   - Metabolic- [**Last Name (un) 402**] stim was wnl so likely not adrenal insufficiency.
   Consulted ID for evaluation of whether hypothyroidism could cause
   shock.  Increased dose of Synthroid and transitioned to IV but
   endocrinology that it is unlikely for hypothyroidism to be the cause.
   Endo also concerned because pt had one episode of paroxysmal a. fib on
   [**9-20**] and increased dose of synthroid may precipitate further episodes.
   Will continue to monitor, however, this episodes appears to be
   isolated.
   - Cardiogenic-  Repeat echo on [**9-24**] did not show evidence of tamponade,
   just small effusion.  RV size and motion was wnl; can consider V/Q scan
   to r/o PE as cause of hypotension however, given the echo findings
   there is a lower pretest probability
   - On [**9-22**], SVV suggested intravascular depletion, and repleted pt with
   crystalloid and colloid.  However, she did not require pressors for
   much of the day.  Will run CVVH at a 0 balance.  Will give albumin
   challenge today and if no improvement, can consider midodrine.  She
   continues to require levophed.  Will attempt to decrease levophed as
   tolerated
   # Bilat pleural effusions, cytology from left c/w malignancy.  Left
   sided effusion improved s/p pigtail placement but CT on [**9-22**] showed
   increased right sided effusion.  Only requiring NC at this time.
   - Pigtail cath draining well.  225 serosang fluid in prev 24 hours.
   - IP following pigtail.
   - IP performed thoracentesis of right sided effusion on [**9-24**]
   - ? of Pleurodesis vs pleurex when stable
   - Added standing bronchodilators for wheezing
   #. Acute renal failure
 Significant vol overload and anasarca.  CVVH
   started on [**9-16**] and stopped on [**9-20**] [**2-22**] poor access.
   - Line replaced by renal on [**9-23**] and restarted CVVH.
   - Repeat imaging of kidneys showed unchanged right hydronephrosis.
   - To OR tomorrow with urology for stenting of right ureter.  Will be
   performed on [**Hospital Ward Name 1437**], cysto-suite.  Needs to be NPO after
   midnight.  Also, will discuss case with anesthesia so that they are
   aware of her status.  [**Month (only) 51**] be able to transfer to [**Hospital Unit Name 1**]?
   - Has been hyponatremic and hyperglycemia.  Unclear etiology but
   hyponatremia may be related to the ultrafiltrate bath having a Na
   concentration of 130.  Na corrected slightly following initiation of
   insulin sliding scale for hyperglycemia.  Also, hyperglycemia seems to
   have occurred acutely.  No prior episodes of hyperglycemia during this
   admission.  Also, [**Name8 (MD) **] RN, finger sticks are consistently lower than
   serum glucose.  Could be related to diffuse extravascular volume.
   Continue to monitor and use ISS as needed.
   - Replete phos today; can use Na-Phos for added sodium benefit
   - holding home Lasix and ACE-I in ARF
   # Metastatic ovarian cancer: at this time, not stable for treatment
   - Will require inpt palliative chemotherapy, most likely carboplatinum
   - When off pressors, can be transferred to OMED
   - Onc would prefer chest tube to be out prior to chemotherapy
   - Allopurinol to prevent tumor lysis syndrome
   - Updated gyn onc resident re pt
s current condition on [**9-25**].
   #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.  Preliminary
   thought is no, but increased dose to 100 mcg.  Need to re-check a free
   T4 in several days.
   - Anti-TPO ab < 10
   - Changed from oral to IV to ensure proper absorption
   - Monitor for a. fib
   #. Hyperkalemia, resolved: Most likely due to worsening renal function,
   esp in setting of the medications she was taking, including Lasix and
   ACE-I. Pt had K 7.8 on arrival to ED, without ECG changes. Treated w/
   Ca gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment  and has remained
   wnl.
   #. Hyperlipidemia - cont home statin dose
   ICU Care
   Nutrition: regular diet; NPO after midnight for ureteral stent
   Glycemic Control:  sliding scale insulin
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: h2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, ? [**Hospital Unit Name 1**] vs MICU

2138-09-25 11:57:00 Physician Attending Progress Note
Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2138-9-24**] 10:45 AM
   R chest
 THORACENTESIS - At [**2138-9-24**] 11:00 AM
   R pleural tap
 TRANSTHORACIC ECHO - At [**2138-9-24**] 02:00 PM
   Discussed with renal, who feel that relieving post-renal component
   might offer a chance at coming off dialysis.  Urology consulted
   regarding perc neph vs stenting, and plans to take patient to the O.R.
   on Friday for stenting ([**Hospital Ward Name 1437**]).
   PICC withdrawn two cm.
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2138-9-22**] 04:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 05:55 AM
   Vancomycin - [**2138-9-25**] 08:00 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-25**] 05:56 AM
   Famotidine (Pepcid) - [**2138-9-25**] 08:00 AM
   Other medications:
   SQH, colace, H2B, Zosyn, cipro, albuterol, atrovent, vanco,
   levothyroxine, SQI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-25**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 97 (84 - 120) bpm
   BP: 112/63(76) {81/44(58) - 126/73(80)} mmHg
   RR: 18 (0 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 10 - 12 mmHg
   Total In:
                                                                  7,704 mL
                                                                  3,048 mL
   PO:
                                                                    620 mL
                                                                     40 mL
   TF:
   IVF:
                                                                  7,084 mL
                                                                  3,008 mL
   Blood products:
   Total out:
                                                                  7,696 mL
                                                                  3,474 mL
   Urine:
                                                                    620 mL
                                                                    207 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      8 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Distended, No(t) Tender:
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   254 K/uL
   221 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.2 mEq/L
   16 mg/dL
   99 mEq/L
   134 mEq/L
   29.4 %
   17.9 K/uL
        [image002.jpg]
                             [**2138-9-24**]  03:55 AM
                             [**2138-9-24**]  10:58 AM
                             [**2138-9-24**]  12:00 PM
                             [**2138-9-24**]  04:13 PM
                             [**2138-9-24**]  04:16 PM
                             [**2138-9-24**]  10:00 PM
                             [**2138-9-25**]  04:08 AM
                             [**2138-9-25**]  06:00 AM
                             [**2138-9-25**]  10:00 AM
                             [**2138-9-25**]  10:14 AM
   WBC
   19.4
   16.9
   17.9
   Hct
   30.3
   30.2
   29.4
   Plt
   [**Telephone/Fax (3) 1443**]
   Cr
   1.8
   1.5
   1.3
   1.2
   1.1
   Glucose
   166
   282
   174
   379
   [**Telephone/Fax (2) 1444**]4
   221
   Other labs: PT / PTT / INR:13.8/25.9/1.2, CK / CKMB / Troponin-T:130//,
   ALT / AST:10/36, Alk Phos / T Bili:54/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:2.5 mmol/L, Albumin:2.2 g/dL, LDH:393 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   74 y/o woman with shock of uncertain etiology in the setting of recent
   diagnosis of ovarian cancer.
   Shock
     * No evidence of tamponade by repeat echo [**2138-9-24**]
     * Adrenal insufficiency is adequately excluded
     * No clinical evidence for sepsis
     * TSH/FT4 results concerning that hypothyroidism may be contributing
       a bit to hypotension.  However, it seems extremely unusual for this
       to be the primary etiology when her mental status is so preserved.
       Appreciate endocrine
s help.
     * A CVP of [**5-31**] be too low for her.  We will try a colloid
       challenge today until CVP ~15 (or up to 25 mg albumin x 3).
     * If she remains on pressors after albumin challenge, then will try
       midodrine.  Circulating factors from tumor may play a role.
   Leucocytosis
   Leucocytosis persists but cultures have remained negative and she has
   other reasons for leucocytosis.  We will discontinue antibiotics today;
   she has received 6 days of zosyn, 9 days of cipro, and 4 days of
   vancomycin.
   Respiratory Distress
   Seems to have improved
   Chest tube management per IP team
   Bronchodilate
   Acute renal failure
   On CVVHD.
   As discussed with renal, believe she might get enough benefit from
   relieving post-renal obstruction to pursue stent or percutaneous
   nephrostomy.  Urology recommended stenting over nephrostomy, and we are
   pursuing this plan.
   Ovarian cancer
   To OMED once acute issues complete
   Pleural effusion (malignant)
   Leave pigtail in. Eventual pleurodesis vs Pleurx.
   Other issues as per ICU team note.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM (changed by wire by renal time
   [**2138-9-24**])
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  n/a
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Critical Care Staff Addendum
   7:30pm
   Hypotension: appears to have responded to albumin challenge.  After
   250cc Plasmanate, she came off the norepinephrine.  This suggests that
   optimal CVP is probably ~14+ in this patient.  I suspect that she has
   ongoing losses into her peritoneum, pleura, and subcutaneous tissue and
   will require additional volume expansion.  We have pursued colloid
   rather than crystalloid because of her anasarca.
   Hydronephrosis: I have discussed the issue of whether or not to pursue
   stenting with Dr. [**Last Name (STitle) 1458**] (from renal). We agree that her
   hydronephrosis probably only contributes a small amount to her renal
   failure. However, we were able to keep her off dialysis for almost
   three days with only mild-moderate increases in her creatinine. I
   therefore think that a very minimal increase in renal function might
   result in her being able to be off of dialysis. I in no way believe
   that this a guaranteed result, and in fact think that it only somewhere
   in the 10, 20, or 30 percent range, which is how I discussed it with
   her and her family today.
   I spent 45 minutes today talking about this decision with the patient,
   her son, and her daughter. We talked about the fact that we don't have
   certainty about the results of treatment for her (either the planned
   stent or any potential cytotoxic therapy), and went through several
   potential ways forward, including stenting, an attempt at chemotherapy
   without stenting, etc. We also talked explicitly about potential
   adverse outcomes from the stent/anesthesia, even including respiratory
   failure and inability to get her off the vent (which I think is
   extremely unlikely but in many ways is one of the worst possible
   outcomes).
   They are able to verbalize understanding of all this and wanted to
   proceed with the plan of care we've described (attempt at stenting,
   assessment of renal response, and subsequent consideration of
   chemotherapeutic rx).
   I think that this is a reasonable way to balance the risks and benefits
   in this challenging situation.  All questions answered.
   CC time: 80 min

2138-09-26 04:56:00 Physician Resident Progress Note
Chief Complaint: Acute Renal Failure
   24 Hour Events:
   History obtained from Medical records, transferring team
   Allergies:
   History obtained from Medical records, transferring teamOxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 05:55 AM
   Vancomycin - [**2138-9-25**] 08:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-9-25**] 02:00 PM
   Lorazepam (Ativan) - [**2138-9-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Transfer Note:
   Patient initially admitted to MICU [**Location (un) **] on [**9-13**] for acute renal
   failure and hyperkalemia.  Now transferred to [**Hospital Unit Name 1**] for ureteral
   stenting tomorrow and possible palliative chemo on OMED.
   MICU course as below:
   74 yo F w/ Stage IV metastatic ovarian cancer, ARF on CVVH, and
   malignant pleural effusion.  Course has been complicated by
   hypotension requiring pressors (levophed).  Originally presented
   to ED [**2-22**] ARF and hyperkalemia.  PMH includes hypothyroidism and
   HLD.
   .
   #. Hypotension/shock.  Has required Levophed for much of
   admission.  Last 2-3 days prior to leaving the MICU for the [**Hospital Unit Name 1**]
   she tolerated several hours without pressors; however, she
   received albumin or blood during these periods.   Differential
   dx for shock includes sepsis, metabolic causes, cardiogenic,
   hypovolemia.
   - [**Name (NI) 1064**] pt has a leukocytosis but has been afebrile.  Started
   on empiric abx to cover for HAP.  D/c abx on [**9-25**]: pt received 6
   days of zosyn, 9 days of cipro, and 4 days of vanc.  Line
   infections: changed HD cath over the wire on [**9-23**] and art line
   was d/c
ed.  Monitored PICC line for signs of infection.
   - Metabolic- [**Last Name (un) 402**] stim was wnl so likely not adrenal
   insufficiency.  Consulted ID for evaluation of whether
   hypothyroidism could cause shock.  Increased dose of Synthroid
   and transitioned to IV but endocrinology that it is unlikely for
   hypothyroidism to be the cause. Endo also concerned because pt
   had one episode of paroxysmal a. fib on [**9-20**] and increased dose
   of synthroid may precipitate further episodes.  Will continue to
   monitor, however, this episodes appears to be isolated.
   - Cardiogenic-  Originally, was concerned for tamponade.
   Although they have been suboptimal studies, multiple echoes have
   only showed effusions without echocardiographic evidence of
   tamponade with one exception.  Her echo from [**9-15**] showed
   impaired fillling/tamponade physiology.  Most recent echo on [**9-24**]
   again did not show evidence of tamponade, just small effusion.
   also, echo on [**9-24**] revealed normal RV size and motion which made
   PE less likely.  Throughout her course in the MICU, have
   considered V/Q scan to r/o PE as a possible cause of hypotension
   however, given her echo findings, the pretest possibility
   remains equivocal.
   - On [**9-22**], SVV (from Vigileo) suggested intravascular depletion,
   and repleted pt with crystalloid and colloid.  However, she did
   not require pressors for much of that day.  For last few days
   prior to transfer to [**Hospital Unit Name 1**], have been running CVVH at a 0
   balance.  Gave albumin challenge again on [**9-25**] and her CVP bumped
   to 12 and was thus able to be off of leveophed for several
   hours. It appeared that she needs her CVP to be [**1-4**] to
   maintain her BP.  Goal has been to wean levophed and have
   considered transitioning to midodrine as an oral pressor.
   - At time of transfer, the etiology of her hypotension remains
   elusive.  Without an adequate explanation, team has hypothesized
   that this may be a possible paraneoplastic syndrome.
   .
   # Bilat pleural effusions, cytology from left c/w malignancy.
   Final cytology from right effusion still pending at time of
   transfer but pH, cell counts, gluc, prot consistent with left
   effusion and anticipate that it will also be malignant. Prior to
   first thoracentesis, pt required BiPap but upon transfer, pt has
   been satting well on only 1.5L NC for several days.
   Underwent both chest tube and pigtail placement for left sided
   effusion.  Chest tube was removed early in course of stay
   because it was extrathoracic and not draining but pigtail
   (placed by IP) continues to drain serosang fluid.  Was placed to
   water seal by IP on [**9-25**].  A repeat CT on [**9-22**] showed increased
   right sided effusion which was tapped on [**9-24**].  IP is considering
   either Pleurodesis vs pleurex when stable.  Has also used
   bronchodilators for wheezing.
   .
   #. Acute renal failure
 Persistent volume overload and
   anasarca.  Originally admitted with K of 7.8 and Cr of 7.2.
   Hyperkalemia resolved quickly (see below).  Held on dialysis for
   a few days but CVVH was started on [**9-16**] but had to be stopped
   temporarily on [**9-20**] [**2-22**] poor access.  Line changed over the wire
   by renal on [**9-23**] and restarted CVVH. Initial and repeat imaging
   of kidneys has showed continued right hydronephrosis.  Plan is
   to transfer from MICU ([**Hospital Ward Name **]) to [**Hospital Unit Name 1**] in order to go to
   the OR with urology on [**9-26**].  Urology will place a stent in the
   right ureter.  Goal of stenting is to relieve the obstruction
   with the hope of regaining some kidney function.  Acutely on
   [**9-24**], she developed hyponatremia and hyperglycemia. Unclear
   etiology but hyponatremia may be related to the ultrafiltrate
   bath having a Na concentration of 130.  Na corrected slightly
   following initiation of insulin sliding scale for hyperglycemia.
   Also, hyperglycemia seems to have occurred acutely.  No prior
   episodes of hyperglycemia during this admission.  Also, [**Name8 (MD) **] RN,
   finger sticks are consistently lower than serum glucose.  Could
   be related to diffuse extravascular volume.  Pt was placed on
   insulin sliding scale for the elev glucose.  Initially, pt was
   hyperphosphatemic but on the day of transfer pt required
   repletion of phos.  Used Na-Phos for added sodium benefit.  Have
   held home Lasix and ACE-I in setting of ARF.
   .
   # Metastatic ovarian cancer: cardiopulmonary status has been too
   tenuous for treatment during this admission.  Obtained tumor
   markers which revealed borderline high CA-125 and elevated
   CA27,29, but were overall non-specific.  Heme onc is following
   closely and feel that pt will require inpt palliative
   chemotherapy, most likely carboplatinum.  Family has been
   supportive of continuing more aggressive means of treatment.
   Have discussed transfer to OMED when stable and off pressors.
   Gyn onc originally saw the pt but have not been following daily.
   Also, on allopurinol to prevent tumor lysis syndrome.
   .
   #. Hypothyroidism
 Was diagnosed with hypothyroidism approx 2
   weeks prior to admission and had been started on a low dose of
   Synthroid. Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   Preliminary thought is no, but increased dose to 100 mcg on [**9-25**].
   Per endo, should re-check a Free T4 level in 3 to 4 days.
   Anti-TPO ab < 10.  Also, changed from oral to IV Synthroid to
   ensure proper absorption despite this one episode of
   questionable a. fib.
   .
   #. Hyperkalemia, resolved: Was most likely due to worsening
   renal function, esp in setting of the medications she was
   taking, including Lasix and ACE-I. Pt had K 7.8 on arrival to
   ED, without ECG changes. Treated w/ Ca gluconate, insulin /
   dextrose, albuterol nebs, and Kayexelate.  Potassium has
   appropriately responded to treatment and has remained wnl.
   .
   #. Hyperlipidemia - Taking home statin dose.
   .
   #. Code - Pt remains full code at time of transfer to [**Hospital Unit Name 1**].
   .
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, Edema, Tachycardia
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria, Dialysis
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Endocrine: Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2138-9-26**] 04:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 98 (89 - 126) bpm
   BP: 89/45(56) {85/21(51) - 127/71(83)} mmHg
   RR: 22 (0 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.6 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 5 (3 - 12)mmHg
   Total In:
                                                                  6,337 mL
                                                                    827 mL
   PO:
                                                                    280 mL
   TF:
   IVF:
                                                                  5,557 mL
                                                                    827 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  6,393 mL
                                                                    792 mL
   Urine:
                                                                    394 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -56 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : ), could only listen to
   ant lung fields
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese, anasarcic
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   254 K/uL
   9.9 g/dL
   80 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.0 mEq/L
   15 mg/dL
   103 mEq/L
   139 mEq/L
   29.4 %
   17.9 K/uL
        [image002.jpg]
                             [**2138-9-24**]  12:00 PM
                             [**2138-9-24**]  04:13 PM
                             [**2138-9-24**]  04:16 PM
                             [**2138-9-24**]  10:00 PM
                             [**2138-9-25**]  04:08 AM
                             [**2138-9-25**]  06:00 AM
                             [**2138-9-25**]  10:00 AM
                             [**2138-9-25**]  10:14 AM
                             [**2138-9-25**]  04:06 PM
                             [**2138-9-25**]  10:44 PM
   WBC
   16.9
   17.9
   Hct
   30.2
   29.4
   Plt
   250
   254
   Cr
   1.3
   1.2
   1.1
   0.9
   1.1
   Glucose
   174
   379
   236
   237
   [**Telephone/Fax (2) 1459**]0
   80
   Other labs: PT / PTT / INR:13.8/25.9/1.2, CK / CKMB / Troponin-T:130//,
   ALT / AST:10/36, Alk Phos / T Bili:54/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:2.5 mmol/L, Albumin:2.2 g/dL, LDH:393 IU/L, Ca++:9.1
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia.  PMH includes hypothyroidism and HLD.
   .
   #. Hypotension and shock.  Has required Levophed for much of
   admission.  Last 2 days been able to tolerate long pressor free
   periods.   Differential dx for shock includes sepsis, metabolic causes,
   cardiogenic, hypovolemia.
   .
   - [**Name (NI) 1064**] pt has a leukocytosis but has been afebrile.  Started on
   empiric abx to cover for HAP.  D/c abx today ([**9-25**]); pt received 6 days
   of zosyn, 9 days of cipro, and 4 days of vanc.  Line infections:
   changed HD cath over the wire on [**9-23**] and art line was d/c
ed.  Will
   monitor PICC line for signs of infection.
   - Metabolic- [**Last Name (un) 402**] stim was wnl so likely not adrenal insufficiency.
   Consulted ID for evaluation of whether hypothyroidism could cause
   shock.  Increased dose of Synthroid and transitioned to IV but
   endocrinology that it is unlikely for hypothyroidism to be the cause.
   Endo also concerned because pt had one episode of paroxysmal a. fib on
   [**9-20**] and increased dose of synthroid may precipitate further episodes.
   Will continue to monitor, however, this episodes appears to be
   isolated.
   - Cardiogenic-  Repeat echo on [**9-24**] did not show evidence of tamponade,
   just small effusion.  RV size and motion was wnl; can consider V/Q scan
   to r/o PE as cause of hypotension however, given the echo findings
   there is a lower pretest probability
   - On [**9-22**], SVV suggested intravascular depletion, and repleted pt with
   crystalloid and colloid.  However, she did not require pressors for
   much of the day.  Will run CVVH at a 0 balance.  She continues to
   require levophed, can consider midodrine v more albumin.  Will attempt
   to decrease levophed as tolerated.
   - goal CVP 12-14
   .
   # Bilat pleural effusions, cytology from left c/w malignancy.  Left
   sided effusion improved s/p pigtail placement but CT on [**9-22**] showed
   increased right sided effusion.  Only requiring NC at this time.
   - Pigtail cath draining well.  IP following pigtail.
   - IP performed thoracentesis of right sided effusion on [**9-24**]
   - ? of Pleurodesis vs pleurex when stable
   - Added standing bronchodilators for wheezing
   - f/u cytology for r-sided studies
   .
   #. Acute renal failure
 Significant vol overload and anasarca.  CVVH
   started on [**9-16**] and stopped on [**9-20**] [**2-22**] poor access.  Line replaced by
   renal on [**9-23**] and restarted CVVH.
   - Repeat imaging of kidneys showed unchanged right hydronephrosis.
   - To OR tomorrow with urology for stenting of right ureter.  Will be
   performed on [**Hospital Ward Name 1437**], cysto-suite.  Needs to be NPO after
   midnight.
   - Has been hyponatremic and hyperglycemia.  Unclear etiology but
   hyponatremia may be related to the ultrafiltrate bath having a Na
   concentration of 130.  Na corrected slightly following initiation of
   insulin sliding scale for hyperglycemia.  Also, hyperglycemia seems to
   have occurred acutely.  No prior episodes of hyperglycemia during this
   admission.  Also, [**Name8 (MD) **] RN, finger sticks are consistently lower than
   serum glucose.  Could be related to diffuse extravascular volume.
   Continue to monitor and use ISS as needed.
   - Replete phos today; can use Na-Phos for added sodium benefit
   - holding home Lasix and ACE-I in ARF
   .
   # Metastatic ovarian cancer: at this time, not stable for treatment
   - Will require inpt palliative chemotherapy, most likely carboplatinum
   - When off pressors, can be transferred to OMED
   - Onc would prefer chest tube to be out prior to chemotherapy
   - Allopurinol to prevent tumor lysis syndrome
   - Updated gyn onc resident re pt
s current condition on [**9-25**].
   .
   #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.  Preliminary
   thought is no, but increased dose to 100 mcg.  Need to re-check a free
   T4 in several days.
   - Anti-TPO ab < 10
   - Changed from oral to IV to ensure proper absorption
   - Monitor for a. fib
   - appreciate endocrine recs
   .
   #. Hyperkalemia, resolved: Most likely due to worsening renal function,
   esp in setting of the medications she was taking, including Lasix and
   ACE-I. Pt had K 7.8 on arrival to ED, without ECG changes. Treated w/
   Ca gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment  and has remained
   wnl.
   .
   #. Hyperlipidemia - cont home statin dose
   .
   ICU Care
   .
   Nutrition: regular diet; NPO after midnight for ureteral stent
   .
   Glycemic Control:  sliding scale insulin
   .
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   .
   PICC Line - [**2138-9-20**] 05:07 PM
   .
   Prophylaxis:
   .
   DVT: hep subq
   .
   Stress ulcer: h2 blocker
   .
   Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2138-09-26 08:16:00 Physician Resident Progress Note
Chief Complaint: Increase potassium and creatinine; anasarca
   24 Hour Events:
   Patient trasnfered from MICU (West) for uretheral stent placement.
   Patient requiring CVVH
   Low dose levophed for pressure support
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 05:55 AM
   Vancomycin - [**2138-9-25**] 08:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-25**] 02:00 PM
   Lorazepam (Ativan) - [**2138-9-26**] 05:04 AM
   Heparin Sodium - [**2138-9-26**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-26**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.2
C (95.4
   HR: 100 (91 - 126) bpm
   BP: 87/53(61) {85/21(51) - 127/72(83)} mmHg
   RR: 23 (0 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 141.1 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 9 (3 - 12)mmHg
   Total In:
                                                                  6,337 mL
                                                                  1,625 mL
   PO:
                                                                    280 mL
   TF:
   IVF:
                                                                  5,557 mL
                                                                  1,625 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  6,393 mL
                                                                  1,799 mL
   Urine:
                                                                    394 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -56 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General: NAD, A&Ox3
   HEENT: PEERLA, no jaundice, normal eye movement, well hydrated
   Neck: Supple, JVD no visible, no bruits
   Lungs: bilateral crackles,
   Heart: RRR, no m/r/g, [**Last Name (un) 1464**] sounds
   Abdomen: severe edema in sacral area and lateral side of abdomen.
   Globous, ascities present, no HSM. Non-tender, non-distended.
   Extremities: pitting edema +++/+++ both legs, pulses not palpable
   Skin: No rashes
   Neuro: strength 5/5, normal ROTs,
   Labs / Radiology
   253 K/uL
   8.9 g/dL
   231 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.1 mEq/L
   13 mg/dL
   99 mEq/L
   132 mEq/L
   26.9 %
   17.4 K/uL
        [image002.jpg]
                             [**2138-9-24**]  04:13 PM
                             [**2138-9-24**]  04:16 PM
                             [**2138-9-24**]  10:00 PM
                             [**2138-9-25**]  04:08 AM
                             [**2138-9-25**]  06:00 AM
                             [**2138-9-25**]  10:00 AM
                             [**2138-9-25**]  10:14 AM
                             [**2138-9-25**]  04:06 PM
                             [**2138-9-25**]  10:44 PM
                             [**2138-9-26**]  03:49 AM
   WBC
   16.9
   17.9
   17.4
   Hct
   30.2
   29.4
   26.9
   Plt
   [**Telephone/Fax (3) 1465**]
   Cr
   1.3
   1.2
   1.1
   0.9
   1.1
   1.0
   Glucose
   379
   236
   237
   269
   94
   221
   100
   80
   231
   Other labs: PT / PTT / INR:13.9/26.7/1.2, CK / CKMB / Troponin-T:130//,
   ALT / AST:10/36, Alk Phos / T Bili:54/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:2.5 mmol/L, Albumin:2.2 g/dL, LDH:393 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia.  PMH includes hypothyroidism and HLD.
   .
   #. Hypotension and shock.  Has required Levophed for much of
   admission.  Last 2 days been able to tolerate long pressor free
   periods.   Differential dx for shock includes sepsis, metabolic causes,
   cardiogenic, hypovolemia.
   .
   - [**Name (NI) 1064**] pt has a leukocytosis but has been afebrile.  Started on
   empiric abx to cover for HAP.  D/c abx today ([**9-25**]); pt received 6 days
   of zosyn, 9 days of cipro, and 4 days of vanc.  Line infections:
   changed HD cath over the wire on [**9-23**] and art line was d/c
ed.  Will
   monitor PICC line for signs of infection.
   - Metabolic- [**Last Name (un) 402**] stim was wnl so likely not adrenal insufficiency.
   Will check AM cortisol tomorrow morning. Consulted ID for evaluation of
   whether hypothyroidism could cause shock.  Increased dose of Synthroid
   and transitioned to IV but endocrinology that it is unlikely for
   hypothyroidism to be the cause. Endo also concerned because pt had one
   episode of paroxysmal a. fib on [**9-20**] and increased dose of synthroid
   may precipitate further episodes.  Will continue to monitor, however,
   this episodes appears to be isolated.
   - Cardiogenic-  Repeat echo on [**9-24**] did not show evidence of tamponade,
   just small effusion.  RV size and motion was wnl; can consider V/Q scan
   to r/o PE as cause of hypotension however, given the echo findings
   there is a lower pretest probability
   - On [**9-22**], SVV suggested intravascular depletion, and repleted pt with
   crystalloid and colloid.  However, she did not require pressors for
   much of the day.  Will run CVVH at a 0 balance.  She continues to
   require levophed, can consider midodrine v more albumin.  Will attempt
   to decrease levophed as tolerated.
   - goal CVP 12-14
   .
   # Bilat pleural effusions, cytology from left c/w malignancy.  Left
   sided effusion improved s/p pigtail placement but CT on [**9-22**] showed
   increased right sided effusion.  Only requiring NC at this time.
   - Pigtail cath draining well.  IP following pigtail.
   CT scan when possible to assess for progression of disease.
   - IP performed thoracentesis of right sided effusion on [**9-24**]
   - Pleurodesis vs pleurex when stable
   - Added standing bronchodilators for wheezing
   - f/u cytology for r-sided studies
   .
   #. Acute renal failure
 Significant vol overload and anasarca.  CVVH
   started on [**9-16**] and stopped on [**9-20**] [**2-22**] poor access.  Line replaced by
   renal on [**9-23**] and restarted CVVH.
   - Repeat imaging of kidneys showed unchanged right hydronephrosis.
   - To OR today with urology for stenting of right ureter.  Will be
   performed on [**Hospital Ward Name 1437**], cysto-suite.  Needs to be NPO after midnight.
   Patient is not candidate for percutaneous nephrostomy tube, due to
   anasarca; it will still need MAC.
   - Has been hyponatremic and hyperglycemia.  Unclear etiology but
   hyponatremia may be related to the ultrafiltrate bath having a Na
   concentration of 130.  Na corrected slightly following initiation of
   insulin sliding scale for hyperglycemia.  Also, hyperglycemia seems to
   have occurred acutely.  No prior episodes of hyperglycemia during this
   admission.  Also, [**Name8 (MD) **] RN, finger sticks are consistently lower than
   serum glucose.  Could be related to diffuse extravascular volume.
   Continue to monitor and use ISS as needed.
   - Replete phos today; can use Na-Phos for added sodium benefit
   - holding home Lasix and ACE-I in ARF
   .
   # Metastatic ovarian cancer: at this time, not stable for treatment
   - Will require inpt palliative chemotherapy, most likely carboplatinum
   - When off pressors, can be transferred to OMED
   - Onc would prefer chest tube to be out prior to chemotherapy
   - Allopurinol to prevent tumor lysis syndrome
   - Updated gyn onc resident re pt
s current condition on [**9-25**].
   .
   #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.  Preliminary
   thought is no, but increased dose to 100 mcg.  Need to re-check a free
   T4 in several days.
   - Anti-TPO ab < 10
   - Changed from oral to IV to ensure proper absorption
   - Monitor for a. fib
   - appreciate endocrine recs
   .
   #. Hyperkalemia, resolved: Most likely due to worsening renal function,
   esp in setting of the medications she was taking, including Lasix and
   ACE-I. Pt had K 7.8 on arrival to ED, without ECG changes. Treated w/
   Ca gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment  and has remained
   wnl.
   .
   #. Hyperlipidemia - cont home statin dose
   .
   ICU Care
   .
   Nutrition: regular diet; NPO after midnight for ureteral stent
   .
   Glycemic Control:  sliding scale insulin
   .
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   .
   PICC Line - [**2138-9-20**] 05:07 PM
   .
   Prophylaxis:
   .
   DVT: hep subq
   .
   Stress ulcer: h2 blocker
   .
   Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-26 10:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 year old female with ovarian cancer who is transferred from [**Hospital Ward Name 1473**] ICU for plans of ureteral stent for hydronephrosis and
   chemotherapy.  Has been vasopressor-dependent for days for unclear
   reasons.  Has been on CVVH for renal failure.   No new changes
   overnight
   24 Hour Events:
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 05:55 AM
   Vancomycin - [**2138-9-25**] 08:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-25**] 02:00 PM
   Lorazepam (Ativan) - [**2138-9-26**] 05:04 AM
   Heparin Sodium - [**2138-9-26**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   1) ovarian
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-26**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 94 (91 - 126) bpm
   BP: 101/62(71) {85/21(51) - 127/72(83)} mmHg
   RR: 27 (8 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.1 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 9 (3 - 12)mmHg
   Total In:
                                                                  6,337 mL
                                                                  1,990 mL
   PO:
                                                                    280 mL
   TF:
   IVF:
                                                                  5,557 mL
                                                                  1,990 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  6,393 mL
                                                                  2,254 mL
   Urine:
                                                                    394 mL
                                                                    226 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -56 mL
                                                                   -264 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: warm, dry
   Labs / Radiology
   8.9 g/dL
   253 K/uL
   231 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.1 mEq/L
   13 mg/dL
   99 mEq/L
   132 mEq/L
   26.9 %
   17.4 K/uL
        [image002.jpg]
                             [**2138-9-24**]  04:13 PM
                             [**2138-9-24**]  04:16 PM
                             [**2138-9-24**]  10:00 PM
                             [**2138-9-25**]  04:08 AM
                             [**2138-9-25**]  06:00 AM
                             [**2138-9-25**]  10:00 AM
                             [**2138-9-25**]  10:14 AM
                             [**2138-9-25**]  04:06 PM
                             [**2138-9-25**]  10:44 PM
                             [**2138-9-26**]  03:49 AM
   WBC
   16.9
   17.9
   17.4
   Hct
   30.2
   29.4
   26.9
   Plt
   [**Telephone/Fax (3) 1465**]
   Cr
   1.3
   1.2
   1.1
   0.9
   1.1
   1.0
   Glucose
   379
   236
   237
   269
   94
   221
   100
   80
   231
   Other labs: PT / PTT / INR:13.9/26.7/1.2, CK / CKMB / Troponin-T:130//,
   ALT / AST:10/36, Alk Phos / T Bili:54/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:1.8 mmol/L, Albumin:2.2 g/dL, LDH:393 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   1) Hypotension (shock): Unclear etiology although the obstructing stone
   may be leading to trapped bacterial infection and thus persistent
   sepsis.  This may improve post-procedure.  Will also re-check cortisol.
   Plan:
   -Ureteral stent to relieve obstruction and might relieve possible
   infection
   -continue antibiotics
   - re-check cortisol
   - thiamine
   2) Acute Renal Failure:
   Plan: continue CVVH for now
   3) Hypothyroidism
   Plan: synthryoid
   4) FEN: NPO for procedure
   5) Acces:
   Right HD catheter
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 (patient is critically ill)

2138-09-27 10:18:00 Physician Resident Progress Note
Chief Complaint: 74 year old with newly diagnosed metastatic ovarian
   cancer on pressorts and [**Hospital 1460**] transferred from west to east for ureteral
   stenting and possible palliative chemo
   24 Hour Events:
   doing well, on CVVH this AM. concern for sepsis of unknown etiology.
   hypotension, on pressor. new onset hyperglycemia 1 week ago, now on
   ISS.
   -f/u endocrine recs - order free T3, T4, TSH, ftbh for tomorrow AM as
   per their recs, no mention of cortisol level being on the low end of
   normal
   -repeat cortisol (added on to [**9-26**] am labs)
   - renal fellow notes, continue on CVVH, still requiring pressors and
   hence unable to CIF. Hydronephrosis due to obstruction and plan for
   stenting, concerned that the stent will block soon after placment
   - as per urology patient is not a candidate for percutanous nephrostomy
   tube because cannot lay flat for positive.
   - went to OR today for stent placement. as per urology there is
   evidence of hydronephrosis and significant stricture close to UPJ -
   urine removed was cloudy but no definitive perinephric abscess was
   identified- sent as per urology resident for culture
   - patient post procedure came back intubated, d/c propofol drip but
   patient still requiring [**Last Name (LF) 494**], [**First Name3 (LF) **] likely be able to d/c
   - oncology notes, metastatic cancer likely ovarian, kidney failure due
   to ATN plus AIN plus/minus effects of ureteral obstruction, hypotension
   due to fluid shifts related to ca effusions vs. adreanl insufficiency -
   chemo LOW probability of cure, also risky in context of poor kidney
   failure, do not think that ureteral stent would reverse her renal
   failure. family willingness to try chemo even if results in permananent
   kidney failure and death. - if renal function improves and hypotension
   resolves will offer single [**Doctor Last Name **] chemo.
   - as per attending would consider starting steroids if patient remains
   hypotensive as patient with low-normal cortisol in the setting of what
   should be a high stress situation.
   - also wrote for patient to get 25 g of IV albumin in effort to provide
   positive intravascular colloid
 OR SENT - At [**2138-9-26**] 12:51 PM
 INVASIVE VENTILATION - START [**2138-9-26**] 02:00 PM
 OR RECEIVED - At [**2138-9-26**] 02:59 PM
 ARTERIAL LINE - START [**2138-9-26**] 03:31 PM
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 05:55 AM
   Vancomycin - [**2138-9-25**] 08:00 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-26**] 02:30 PM
   Lorazepam (Ativan) - [**2138-9-27**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-9-27**] 08:00 AM
   Other medications:
   Simvastin
   Allopurinol q 3
   Synthroid 100 IV daily
   ISS
   OFF levofed
   IV solumedrol
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient is pointing to abdomen when asked if she is
   in pain
   Flowsheet Data as of  [**2138-9-27**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36
C (96.8
   HR: 91 (85 - 111) bpm
   BP: 113/78(86) {96/53(65) - 113/78(86)} mmHg
   RR: 23 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.2 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 17 (2 - 17)mmHg
   Total In:
                                                                  4,442 mL
                                                                  2,590 mL
   PO:
   TF:
   IVF:
                                                                  4,442 mL
                                                                  2,490 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  4,537 mL
                                                                  2,321 mL
   Urine:
                                                                    310 mL
                                                                     58 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -95 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 338 (338 - 450) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 10 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: 7.40/43/157/27/1
   Ve: 10.3 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General
 intubated, not currently on sedation, awake, following
   commands
   Labs / Radiology
   209 K/uL
   8.7 g/dL
   107 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.5 mEq/L
   11 mg/dL
   104 mEq/L
   139 mEq/L
   26.1 %
   15.0 K/uL
        [image002.jpg]
                             [**2138-9-26**]  08:44 AM
                             [**2138-9-26**]  03:34 PM
                             [**2138-9-26**]  03:43 PM
                             [**2138-9-26**]  06:18 PM
                             [**2138-9-26**]  08:47 PM
                             [**2138-9-26**]  09:59 PM
                             [**2138-9-26**]  10:10 PM
                             [**2138-9-27**]  04:23 AM
                             [**2138-9-27**]  04:46 AM
                             [**2138-9-27**]  08:34 AM
   WBC
   15.0
   Hct
   26.1
   Plt
   209
   Cr
   1.0
   0.9
   TCO2
   27
   25
   26
   27
   28
   28
   Glucose
   [**Telephone/Fax (2) 1489**]
   Other labs: PT / PTT / INR:14.4/25.8/1.3, CK / CKMB / Troponin-T:130//,
   ALT / AST:14/36, Alk Phos / T Bili:48/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:354 IU/L, Ca++:8.4
   mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia.  PMH includes hypothyroidism and HLD.
   #. Hypotension and shock.  Has required Levophed for much of
   admission.  Transiently able to be able to get off of pressors,
   intermittently requiring levofed.   Differential diagnsosis is likely
   mixed picture of  malignant fluid leak, thyroid leak, septic leak.
   - [**Name (NI) 1064**] pt has a leukocytosis but has been afebrile.  Started on
   empiric abx to cover for HAP.  D/c abx ([**9-25**]); pt received 6 days of
   zosyn, 9 days of cipro, and 4 days of vanc.  With concern for possible
   line infections: changed HD cath over the wire on [**9-23**] and art line was
   d/c
ed.  PICC line without signs of active infection.
   - Metabolic- [**Last Name (un) 402**] stim was wnl so likely not overt adrenal
   insufficiency, however random cortisol was on the lower side of normal
   especially in the context of what should be normal stress response. On
   [**9-26**] PM started IV steroids for concerns for relative adrenal
   insufficiency. Consulted endocrinology for evaluation of whether
   hypothyroidism could cause shock.  Increased dose of Synthroid and
   transitioned to IV but endocrinology that it is unlikely for
   hypothyroidism to be the cause. Endo also concerned because pt had one
   episode of paroxysmal a. fib on [**9-20**] and increased dose of synthroid
   may precipitate further episodes.  Will continue to monitor, however,
   this episodes appears to be isolated.
   - Cardiogenic-  Repeat echo on [**9-24**] did not show evidence of tamponade,
   just small effusion.  RV size and motion was wnl; can consider V/Q scan
   to r/o PE as cause of hypotension however, given the echo findings
   there is a lower pretest probability
   - On [**9-22**], SVV suggested intravascular depletion, and repleted pt with
   crystalloid and colloid.  She continues to require levophed, can
   consider midodrine v more albumin.  Will attempt to decrease levophed
   as tolerated.
   - goal CVP 12-14
   - new thing we started steroids yesterday, as well as IV albumin
   - would re-start vanco for gram + coverage as well
   - transfuse goals to keep Hct > 30
   #) Intubation for procedure
   -          not off sedation, on 5 and 5, RSBi on higher side but
   patient is large, probably at base line
   -          blood pressure stable
   -          plan to try to extubate today
   -          chest x-ray over 24 hours
   # Bilat pleural effusions, cytology from left c/w malignancy.  Left
   sided effusion improved s/p pigtail placement but CT on [**9-22**] showed
   increased right sided effusion.  Only requiring NC at this time.
   - pH on pleural fluid 6.9, chest tube in place
   - Pigtail cath draining well.  IP following pigtail
   - IP performed thoracentesis of right sided effusion on [**9-24**]
   - Pleurodesis vs pleurex when stable as per thoraric surgery, CT
   surgery also wants CT chest
   - Added standing bronchodilators for wheezing
   - f/u cytology for r-sided studies
   #. Acute renal failure
 Significant vol overload and anasarca.  CVVH
   started on [**9-16**] and stopped on [**9-20**] [**2-22**] poor access.  Line replaced by
   renal on [**9-23**] and restarted CVVH.
   - Repeat imaging of kidneys showed unchanged right hydronephrosis.
   - right ureteral procedure yesterday to open stricture.  Cutulre data
   pending.  Needs to be NPO after midnight. Patient is not candidate for
   percutaneous nephrostomy tube, due to anasarca; it will still need
   MAC.
   - Has been hyponatremic and hyperglycemia.  Unclear etiology but
   hyponatremia may be related to the ultrafiltrate bath having a Na
   concentration of 130.  Na corrected slightly following initiation of
   insulin sliding scale for hyperglycemia.  Also, hyperglycemia seems to
   have occurred acutely.  No prior episodes of hyperglycemia during this
   admission.  Also, [**Name8 (MD) **] RN, finger sticks are consistently lower than
   serum glucose.  Could be related to diffuse extravascular volume.
   Continue to monitor and use ISS as needed.
   - Replete phos today; can use Na-Phos for added sodium benefit
   - holding home Lasix and ACE-I in ARF
   .
   # Metastatic ovarian cancer: at this time, not stable for treatment
   - Will require inpt palliative chemotherapy, most likely carboplatinum
   - When off pressors, can be transferred to OMED
   - Onc would prefer chest tube to be out prior to chemotherapy
   - Allopurinol to prevent tumor lysis syndrome
   - Updated gyn onc resident re pt
s current condition on [**9-25**].
   .
   #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.  Preliminary
   thought is no, but increased dose to 100 mcg.  Need to re-check a free
   T4 in several days.
   - Anti-TPO ab < 10
   - Changed from oral to IV to ensure proper absorption
   - Monitor for a. fib
   - appreciate endocrine recs
   .
   #. Hyperkalemia, resolved: Most likely due to worsening renal function,
   esp in setting of the medications she was taking, including Lasix and
   ACE-I. Pt had K 7.8 on arrival to ED, without ECG changes. Treated w/
   Ca gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment  and has remained
   wnl.
   .#. Hyperlipidemia - cont home statin dose
   ICU Care
   Nutrition: if patient is extubated today would begin nutrtion
   .
   Glycemic Control:  sliding scale insulin
   .
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   .
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: h2 blocker
   Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-28 07:00:00 Physician Resident Progress Note
Chief Complaint: Renal failure, hypotension and anasarca
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-9-27**] 11:15 AM
   - pt extubated, CXR: small pleural effusion, lines in place, no new
   opacities
   -pt with treated w/albumin x1 for low BP. If continues to be low will
   consider levophed, however has done well thus far.
   -transfusion parameters changed to <30
   -tachycardic 120-130s, BP 100s/60s initially then BPs to 80s/60s- gave
   250cc/25% albumin. Pressures improved but not significantly. Gave 1U
   PRBC for low hct and for intravascular volume repletion.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-25**] 08:00 AM
   Infusions:
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-27**] 11:44 AM
   Lorazepam (Ativan) - [**2138-9-27**] 08:19 PM
   Heparin Sodium (Prophylaxis) - [**2138-9-27**] 11:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-28**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 98 (86 - 130) bpm
   BP: 113/78(86) {0/0(0) - 0/0(0)} mmHg
   RR: 25 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.2 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 8 (7 - 17)mmHg
   Total In:
                                                                  6,008 mL
                                                                  2,170 mL
   PO:
   TF:
   IVF:
                                                                  5,908 mL
                                                                  1,745 mL
   Blood products:
                                                                    100 mL
                                                                    425 mL
   Total out:
                                                                  6,855 mL
                                                                    683 mL
   Urine:
                                                                     77 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -847 mL
                                                                  1,487 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (338 - 338) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 3%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.37/41/66/25/-1
   Ve: 10.3 L/min
   PaO2 / FiO2: 2,200
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   247 K/uL
   9.0 g/dL
   123 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.5 mEq/L
   10 mg/dL
   105 mEq/L
   140 mEq/L
   28.2 %
   27.9 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:23 AM
                             [**2138-9-27**]  04:46 AM
                             [**2138-9-27**]  08:34 AM
                             [**2138-9-27**]  10:14 AM
                             [**2138-9-27**]  10:32 AM
                             [**2138-9-27**]  12:09 PM
                             [**2138-9-27**]  04:30 PM
                             [**2138-9-27**]  10:03 PM
                             [**2138-9-27**]  10:23 PM
                             [**2138-9-28**]  05:05 AM
   WBC
   15.0
   27.9
   Hct
   26.1
   28.2
   Plt
   209
   247
   Cr
   0.9
   1.0
   1.0
   1.1
   TCO2
   28
   28
   27
   26
   25
   Glucose
   107
   114
   118
   132
   123
   Other labs: PT / PTT / INR:15.5/26.6/1.4, CK / CKMB / Troponin-T:130//,
   ALT / AST:14/36, Alk Phos / T Bili:48/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:354 IU/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia.  PMH includes hypothyroidism and HLD.
   #. Hypotension and shock.  Has required Levophed for much of
   admission.  Transiently able to be able to get off of pressors,
   intermittently requiring levofed.   Differential diagnsosis is likely
   mixed picture of  malignant fluid leak, thyroid leak, septic leak.
   - [**Name (NI) 1064**] pt has a leukocytosis but has been afebrile.  Started on
   empiric abx to cover for HAP.  D/c abx ([**9-25**]); pt received 6 days of
   zosyn, 9 days of cipro, and 4 days of vanc.  With concern for possible
   line infections: changed HD cath over the wire on [**9-23**] and art line was
   d/c
ed.  PICC line without signs of active infection.
   - Metabolic- [**Last Name (un) 402**] stim was wnl so likely not overt adrenal
   insufficiency, however random cortisol was on the lower side of normal
   especially in the context of what should be normal stress response. On
   [**9-26**] PM started IV steroids for concerns for relative adrenal
   insufficiency. Consulted endocrinology for evaluation of whether
   hypothyroidism could cause shock.  Increased dose of Synthroid and
   transitioned to IV but endocrinology that it is unlikely for
   hypothyroidism to be the cause. Endo also concerned because pt had one
   episode of paroxysmal a. fib on [**9-20**] and increased dose of synthroid
   may precipitate further episodes.  Will continue to monitor, however,
   this episodes appears to be isolated.
   - Cardiogenic-  Repeat echo on [**9-24**] did not show evidence of tamponade,
   just small effusion.  RV size and motion was wnl; can consider V/Q scan
   to r/o PE as cause of hypotension however, given the echo findings
   there is a lower pretest probability
   - On [**9-22**], SVV suggested intravascular depletion, and repleted pt with
   crystalloid and colloid.  She continues to require levophed, can
   consider midodrine v more albumin.  Will attempt to decrease levophed
   as tolerated.
   - goal CVP 12-14
   - new thing we started steroids yesterday, as well as IV albumin
   - would re-start vanco for gram + coverage as well
   - transfuse goals to keep Hct > 30
   #) Intubation for procedure
   -          not off sedation, on 5 and 5, RSBi on higher side but
   patient is large, probably at base line
   -          blood pressure stable
   -          plan to try to extubate today
   -          chest x-ray over 24 hours
   # Bilat pleural effusions, cytology from left c/w malignancy.  Left
   sided effusion improved s/p pigtail placement but CT on [**9-22**] showed
   increased right sided effusion.  Only requiring NC at this time.
   - pH on pleural fluid 6.9, chest tube in place
   - Pigtail cath draining well.  IP following pigtail
   - IP performed thoracentesis of right sided effusion on [**9-24**]
   - Pleurodesis vs pleurex when stable as per thoraric surgery, CT
   surgery also wants CT chest
   - Added standing bronchodilators for wheezing
   - f/u cytology for r-sided studies
   #. Acute renal failure
 Significant vol overload and anasarca.  CVVH
   started on [**9-16**] and stopped on [**9-20**] [**2-22**] poor access.  Line replaced by
   renal on [**9-23**] and restarted CVVH.
   - Repeat imaging of kidneys showed unchanged right hydronephrosis.
   - right ureteral procedure yesterday to open stricture with stent.
   Culture data pending.  Needs Patient is not candidate for percutaneous
   nephrostomy tube, due to anasarca
   - Has been hyponatremic and hyperglycemia.  Unclear etiology but
   hyponatremia may be related to the ultrafiltrate bath having a Na
   concentration of 130.  Na corrected slightly following initiation of
   insulin sliding scale for hyperglycemia.  Also, hyperglycemia seems to
   have occurred acutely.  No prior episodes of hyperglycemia during this
   admission.  Also, [**Name8 (MD) **] RN, finger sticks are consistently lower than
   serum glucose.  Could be related to diffuse extravascular volume.
   Continue to monitor and use ISS as needed.
   - Replete phos today; can use Na-Phos for added sodium benefit
   - holding home Lasix and ACE-I in ARF
   # Metastatic ovarian cancer: at this time, not stable for treatment
   - consider inpatient palliative chemo
   - When off pressors, consider transfer to OMED
   - Onc would prefer chest tube to be out prior to chemotherapy
   - Allopurinol to prevent tumor lysis syndrome
   - Updated gyn onc resident re pt
s current condition on [**9-25**].
   .#. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.  Preliminary
   thought is no, but increased dose to 100 mcg.  Need to re-check a free
   T4 in several days.
   - Anti-TPO ab < 10
   - Changed from oral to IV to ensure proper absorption
   - Monitor for a. fib
   - follow up endocrine rec
   .
   #. Hyperkalemia, resolved: Most likely due to worsening renal function,
   esp in setting of the medications she was taking, including Lasix and
   ACE-I. Pt had K 7.8 on arrival to ED, without ECG changes. Treated w/
   Ca gluconate, insulin / dextrose, albuterol nebs, and Kayexelate.
   Potassium has appropriately responded to treatment  and has remained
   wnl.
   .#. Hyperlipidemia - cont home statin dose
   ICU Care
   Nutrition: if patient is extubated today would begin to feed patient
   again
   .
   Glycemic Control:  sliding scale insulin
   .
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   .
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: h2 blocker
   Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-29 07:10:00 Physician Resident Progress Note
Chief Complaint: Hypotension.
   24 Hour Events:
 BLOOD CULTURED - At [**2138-9-28**] 11:50 AM
   a-line
 BLOOD CULTURED - At [**2138-9-28**] 12:15 PM
   PICC
   Levothyroxine switched from IV to PO
   D/c steroids
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-28**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-29**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.4
   HR: 96 (93 - 109) bpm
   BP: 113/78(86) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (9 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.2 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 11 (2 - 15)mmHg
   Total In:
                                                                  6,286 mL
                                                                  1,534 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  5,561 mL
                                                                  1,534 mL
   Blood products:
                                                                    425 mL
   Total out:
                                                                  6,069 mL
                                                                  1,292 mL
   Urine:
                                                                     89 mL
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    217 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.42/38/146/24/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   9.6 g/dL
   89 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   9 mg/dL
   106 mEq/L
   142 mEq/L
   29.1 %
   14.8 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 PM
                             [**2138-9-27**]  10:03 PM
                             [**2138-9-27**]  10:23 PM
                             [**2138-9-28**]  05:05 AM
                             [**2138-9-28**]  09:36 AM
                             [**2138-9-28**]  09:51 AM
                             [**2138-9-28**]  04:00 PM
                             [**2138-9-28**]  10:30 PM
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
   WBC
   27.9
   14.8
   Hct
   28.2
   29.1
   Plt
   247
   246
   Cr
   1.0
   1.0
   1.1
   1.0
   1.0
   TCO2
   25
   27
   25
   Glucose
   118
   132
   123
   118
   105
   104
   89
   Other labs: PT / PTT / INR:17.6/27.9/1.6, CK / CKMB / Troponin-T:130//,
   ALT / AST:14/36, Alk Phos / T Bili:48/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:86.8 %, Band:0.0 %, Lymph:4.7 %, Mono:6.3 %, Eos:2.1
   %, Lactic Acid:2.6 mmol/L, Albumin:2.8 g/dL, LDH:354 IU/L, Ca++:8.7
   mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia.  PMH includes hypothyroidism and HLD.
   #. Hypotension and shock.  Patient is currently off pressors. Had an
   episode last night where she had hypotension and received albumin and 1
   unit of blood improving her symptoms. The etiology is multifactorial:
   hypothyroidism, plus cortisol insufficiency, cardiogenic shock, sepses,
   etc. However, there is normal echocardiogram
   -If hypotensive give her fluid bolus; albumin and/or bolus
   -Check BPs
   # Bilat pleural effusions, cytology from left c/w malignancy.  Left
   sided effusion improved s/p pigtail placement but CT on [**9-22**] showed
   increased right sided effusion.  Only requiring NC at this time.
   - chest tube in place
   - Pigtail cath draining well.  IP following pigtail
   - Continue standing bronchodilators for wheezing
   #. Acute renal failure
 Significant vol overload and anasarca.  CVVH
   started on [**9-16**] and stopped on [**9-20**] [**2-22**] poor access.  Line replaced by
   renal on [**9-23**] and restarted CVVH. Patient doing better and may tolerate
   HD tomorrow. Stent placed 2 days ago and doing fine.
   - holding home Lasix and ACE-I in ARF
   # Metastatic ovarian cancer: at this time, not stable for treatment
   - consider inpatient palliative chemo
   - When off pressors, consider transfer to OMED
   - Onc would prefer chest tube to be out prior to chemotherapy
   - Allopurinol to prevent tumor lysis syndrome
   - Updated gyn onc resident re pt
s current condition on [**9-25**].
   .#. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   -  Anti-TPO ab < 10
   - Changed from oral to IV to ensure proper absorption
   - Monitor for a. fib
   - follow up endocrine rec
   - D/c Steroids
   .#. Hyperlipidemia - cont home statin dose
   ICU Care
   Nutrition: diet restarted today
   .
   Glycemic Control:  sliding scale insulin
   .
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   .
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: h2 blocker
   Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-29 10:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, remains normotensive and no new problems.
   24 Hour Events:
 BLOOD CULTURED - At [**2138-9-28**] 11:50 AM
   a-line
 BLOOD CULTURED - At [**2138-9-28**] 12:15 PM
   PICC
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-9-28**] 03:45 PM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no new changes.  No fevers, chills, + shortness of
   breath, no chest pain.
   Flowsheet Data as of  [**2138-9-29**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.7
C (96.3
   HR: 117 (95 - 118) bpm
   BP: 113/78(86) {0/0(0) - 0/0(0)} mmHg
   RR: 27 (9 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.2 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 11 (2 - 15)mmHg
   Total In:
                                                                  6,286 mL
                                                                  2,251 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  5,561 mL
                                                                  2,251 mL
   Blood products:
                                                                    425 mL
   Total out:
                                                                  6,069 mL
                                                                  2,474 mL
   Urine:
                                                                     89 mL
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    217 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.42/38/146/24/0
   Physical Examination
   Gen: Awake, alert, obese
   HEENT: NC, AT
   Chest: CTA bilaterally
   Heart: s1 s2 reg
   Abd: soft NT ND
   Ext: +3 edema bilaterally
   Labs / Radiology
   9.6 g/dL
   246 K/uL
   89 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   9 mg/dL
   106 mEq/L
   142 mEq/L
   29.1 %
   14.8 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 PM
                             [**2138-9-27**]  10:03 PM
                             [**2138-9-27**]  10:23 PM
                             [**2138-9-28**]  05:05 AM
                             [**2138-9-28**]  09:36 AM
                             [**2138-9-28**]  09:51 AM
                             [**2138-9-28**]  04:00 PM
                             [**2138-9-28**]  10:30 PM
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
   WBC
   27.9
   14.8
   Hct
   28.2
   29.1
   Plt
   247
   246
   Cr
   1.0
   1.0
   1.1
   1.0
   1.0
   TCO2
   25
   27
   25
   Glucose
   118
   132
   123
   118
   105
   104
   89
   Other labs: PT / PTT / INR:17.6/27.9/1.6, CK / CKMB / Troponin-T:130//,
   ALT / AST:14/36, Alk Phos / T Bili:48/0.7, Amylase / Lipase:45/26,
   Differential-Neuts:86.8 %, Band:0.0 %, Lymph:4.7 %, Mono:6.3 %, Eos:2.1
   %, Lactic Acid:2.6 mmol/L, Albumin:2.8 g/dL, LDH:354 IU/L, Ca++:8.7
   mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   1) Renal Failure: Since the procedure, urine output did not improve
   Plan: Will attempt to swtich from CVVH to hemodialysis
   2) Hypotension:
   - Has resolved since the procedure.  [**Month (only) 51**] have been from unrelieved
   infection although patient did receive steroids and this could be
   contributing to resolution as well.  Currently off steroids and will
   follow.
   3) Pleural Effusions:
   Plan: IP following chest tube
   4) Aspiration:
   - NPO
   - Speech and swallow
   5) Hypoxia:
   - wean oxygen as tolerated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 30 minutes (patient is critically Ill)

2138-09-30 07:07:00 Physician Resident Progress Note
Chief Complaint: metastatic cancer leading to acute renal failure s/p
   ureteteral stent
   [**54**] Hour Events:
   Patient currently without complaints. Denies chest pain, denies
   shortness of breath, denies abdominal pain.
   Patient on CVVH for most of day yesterday, then as per renal to start
   gettting HD instead of CVVH. concern that pulling fluid off might cause
   hypotension pressures roughly around 100 today. got HD overnight, took
   off 800 cc.
   - goal was to consider call out today pending okay blood pressure post
   dialysis
   - not good candidate now for pleuradesis
   - speech and swallow reccomending regular diet with thin liquids
   - initially was off pressors, however s/p dialysis had to restart
   levofed to maintain pressures
   - no new endocrine recs, no new urology or oncology notes in the chart
   - restarted her for marginal pressures on albumin 25 mg IV and also 50
   IV q 6 of hydrocortisone
   - put patient in for EKG in AM for persistent tachycardia
   - overnight consulted cardiology as patient was persistently
   tachycardic to 130-150s, cardiology felt that this most likely looked
   like NSVT, patient lytes were repleted aggressively, started on
   amiodarone IV load, underlying rythm is narrow complex tachycardia that
   seems to degenerate into wide complex for a few beats - differential
   includes MAT vs.
   - s/p dialysis with tachycardia and beats of vtac (most = 7) in a row,
   patient maintained blood pressure, then dropped pressure to 80/50s.
   nurse felt that patient extremetly dry, gave 250 cc bolus of NS to
   replete fluids (-800 cc removed at dialysis) then another 250 cc to
   replace some of fluid taken off during dialysis
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-9-29**] 10:30 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: negative
   Flowsheet Data as of  [**2138-9-30**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 99 (95 - 133) bpm
   BP: 113/78(86) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (20 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.2 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 16 (6 - 22)mmHg
   Total In:
                                                                  4,166 mL
                                                                  1,097 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  3,946 mL
                                                                  1,097 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,431 mL
                                                                    170 mL
   Urine:
                                                                     98 mL
                                                                     40 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,265 mL
                                                                    927 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.36/34/98.[**Numeric Identifier 176**]/28/3
   Physical Examination
   General
 awake, alert, oriented, conversant, pleasant, mentating well
   Cards
 RRR, nl s1/s2/ no murmur appreciated
   Pulmonary
 anterior auscultation only, decreased breath sounds left
   lung, right lung coarse breath sounds throughout
   Abdomen - + DS, distended, non-tender
   Extremities- diffuse anasarca, upper arms with 2+ pitting edema, lower
   legs b/l with 2+ pitting edema, patient is warm and well perfused
   Labs / Radiology
   316 K/uL
   9.4 g/dL
   126 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.5 mEq/L
   9 mg/dL
   104 mEq/L
   140 mEq/L
   28.1 %
   19.5 K/uL
        [image002.jpg]
                             [**2138-9-28**]  05:05 AM
                             [**2138-9-28**]  09:36 AM
                             [**2138-9-28**]  09:51 AM
                             [**2138-9-28**]  04:00 PM
                             [**2138-9-28**]  10:30 PM
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
                             [**2138-9-29**]  10:56 PM
                             [**2138-9-29**]  10:59 PM
                             [**2138-9-30**]  05:13 AM
   WBC
   27.9
   14.8
   19.5
   Hct
   28.2
   29.1
   28.1
   Plt
   247
   246
   316
   Cr
   1.1
   1.0
   1.0
   0.9
   1.1
   TCO2
   27
   25
   28
   Glucose
   123
   118
   105
   104
   89
   96
   126
   Other labs: PT / PTT / INR:20.2/27.9/1.9, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**9-18**], Alk Phos / T Bili:58/0.7, Amylase / Lipase:26/24,
   Differential-Neuts:86.8 %, Band:0.0 %, Lymph:4.7 %, Mono:6.3 %, Eos:2.1
   %, Lactic Acid:2.6 mmol/L, Albumin:3.1 g/dL, LDH:398 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia.  PMH includes hypothyroidism and HLD.
   # Renal failure: seems Urine output has not improved significantly
   since stent placement. Cr normal. Patient with episode of hypotension
   that seems to limit ability to do HD. Also seems to have tenous volume
   status.
   - CVVH stopped yesterday, first trial of HD yesterday with drop in
   blood pressure
   - will give patient one day off of HD , consider HD again tomorrow
   - would consider transfer out of the unit pending HD tomorrow
   - consider albumin for hypotension
   - s/p stent to ureter to relieve obstruction which did not result in
   increased urinary flow
   - urine cx sent intraoperative only growing yeast, urine apparently was
   cloudy, however no evidence of frank pus or abscess
   # Tachycardia
   -          took multiple EKGs last night during episode of tachycardia
   to 130-140s. Initial arrythmia looked sinus vs. atrial tachycardia
   which appeared to transition to NSVT
   -          faxed EKGs to cardiology fellow overnight, thought was
   consistent with NSVT, started patient on amiodarone IV with excellent
   reponse
   -          also rebolused patient with 2x 250 cc fluid for hypotension
   and tachycardia
   #Pleural effusions: Patient still with high output through left tube.
   Since etiology is malignancy may not resolved promptly.
   - likely not candidate for pleuradesis
   - effusions may be contributing to underlying heart physiology
   # Aspiration: on regular diet with thin liquids seen by speech and
   swallow yesterday
   #. Hypotension and shock.
   - infectious work-up has been negative thus far, blood cultures no
   growth to date, pleural fluid with negative culture, urine cx grew only
   yeast
   - will re-send UA and Uculture
   - patient had been off and on pressors, overnight required again, now
   again weaned off
   With continued hypotension yesterday got IV albumin and also IV
   steroids has has been steroid responsive  previously, again patient
   with good response
   -          will continue steroids at current dose for now
   -          consider steroid taper starting tomorrow
   -          elevated white blood cell count in the setting of IV
   steroids as per above do not suspect new infection
   # Metastatic ovarian cancer: at this time, not stable for treatment
   - consider inpatient palliative chemo
   - When off pressors and on HD, consider transfer to OMED
   - Onc would prefer chest tube to be out prior to chemotherapy
   - Allopurinol to prevent tumor lysis syndrome
   - Updated gyn onc resident re pt
s current condition on [**9-25**].
   .#. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - Monitor for a. fib, on thyroid replacement
   - steroids as above
   .#. Hyperlipidemia - cont home statin dose
   ICU Care
   Glycemic Control:  sliding scale insulin
   .
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: h2 blocker
   Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-30 09:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, patient dropped blood pressure and had tachyarrythmia when
   starting hemodialysis.  Given albumin, fluid, steroids and improved.
   24 Hour Events:
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-9-29**] 10:30 PM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-30**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 84 (84 - 133) bpm
   BP: 113/78(86) {0/0(0) - 0/0(0)} mmHg
   RR: 23 (23 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.2 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 13 (6 - 22)mmHg
   Total In:
                                                                  4,166 mL
                                                                  1,183 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  3,946 mL
                                                                  1,183 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,431 mL
                                                                    170 mL
   Urine:
                                                                     98 mL
                                                                     40 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,265 mL
                                                                  1,013 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.36/34/98.[**Numeric Identifier 176**]/28/3
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: 2+, Left: 2+
   Skin:  warm, dry
   Neurologic: alert , no focal neuro findings
   Labs / Radiology
   9.4 g/dL
   316 K/uL
   126 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.5 mEq/L
   9 mg/dL
   104 mEq/L
   140 mEq/L
   28.1 %
   19.5 K/uL
        [image002.jpg]
                             [**2138-9-28**]  05:05 AM
                             [**2138-9-28**]  09:36 AM
                             [**2138-9-28**]  09:51 AM
                             [**2138-9-28**]  04:00 PM
                             [**2138-9-28**]  10:30 PM
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
                             [**2138-9-29**]  10:56 PM
                             [**2138-9-29**]  10:59 PM
                             [**2138-9-30**]  05:13 AM
   WBC
   27.9
   14.8
   19.5
   Hct
   28.2
   29.1
   28.1
   Plt
   247
   246
   316
   Cr
   1.1
   1.0
   1.0
   0.9
   1.1
   TCO2
   27
   25
   28
   Glucose
   123
   118
   105
   104
   89
   96
   126
   Other labs: PT / PTT / INR:20.2/27.9/1.9, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**9-18**], Alk Phos / T Bili:58/0.7, Amylase / Lipase:26/24,
   Differential-Neuts:86.8 %, Band:0.0 %, Lymph:4.7 %, Mono:6.3 %, Eos:2.1
   %, Lactic Acid:2.6 mmol/L, Albumin:3.1 g/dL, LDH:398 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   A:
   1) Hypotension:
   - ? steroid-responsiveness which may
   - repeat urinalysis to determine if any underlying infection
   contributing to persistent hypotension
   2) Renal Failure:
   - Had HD but dropped blood pressure and required fluids, albumin
   3) Tachyarrythmia: SVT with question of brief episode of VT.  Given
   amiodarone for ? VT -> arrythmia improved
   4) Ovarian Cancer
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 35 minutes

2138-10-01 06:40:00 Physician Resident Progress Note
Chief Complaint: Metastatic ovarian cancer s/p ureteral stenet and CVVH
   now on HD and awaiting start of chemotherapy todaoy.
   24 Hour Events:
   Seen by oncology yesterday. plan is to proceed with chemotherapy. Onc
   reccomended checking b12, folate, iron levels etc. Cardiology consult
   was considered yesterday, however was held off, secondary to adequate
   rate control. Patient written for zofran for nausea for pending chemo
   today as well as pre-treatment with dexamethasone
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-9-30**] 08:51 AM
   Famotidine (Pepcid) - [**2138-9-30**] 12:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies chest pain, shortness of breath, abdominal
   pain
   Flowsheet Data as of  [**2138-10-1**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 96 (84 - 106) bpm
   BP: 113/78(86) {0/0(0) - 0/0(0)} mmHg
   RR: 26 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 19 (9 - 22)mmHg
   Total In:
                                                                  1,561 mL
                                                                     78 mL
   PO:
   TF:
   IVF:
                                                                  1,561 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    315 mL
                                                                     25 mL
   Urine:
                                                                    185 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,246 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General
 awake, alert, oriented to person, time, and place
   Card s- RRR, nl s1/s2, no murmur appreciated
   Pulm
 anterior auscultation only, left lung diminshed breath sounds
   throughout, decreased breath sounds right lung base, good BS throughout
   remainder of right lung, no wheezing or rhonci heard b/l
   Abdomen - + BS, distended, soft, non-tender
   Extremities
 feet cool, 2+ pitting edema right foot, 1+ pitting edema
   left foot, forearms with 2+ pitting edema b/l appears improved since
   previous exam
   Labs / Radiology
   263 K/uL
   9.0 g/dL
   99 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.6 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   27.9 %
   16.9 K/uL
        [image002.jpg]
                             [**2138-9-28**]  09:36 AM
                             [**2138-9-28**]  09:51 AM
                             [**2138-9-28**]  04:00 PM
                             [**2138-9-28**]  10:30 PM
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
                             [**2138-9-29**]  10:56 PM
                             [**2138-9-29**]  10:59 PM
                             [**2138-9-30**]  05:13 AM
                             [**2138-10-1**]  05:20 AM
   WBC
   14.8
   19.5
   16.9
   Hct
   29.1
   28.1
   27.9
   Plt
   [**Telephone/Fax (3) 1542**]
   Cr
   1.0
   1.0
   0.9
   1.1
   1.6
   TCO2
   27
   25
   28
   Glucose
   118
   105
   104
   89
   96
   126
   99
   Other labs: PT / PTT / INR:20.2/27.9/1.9, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**7-15**], Alk Phos / T Bili:55/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:86.8 %, Band:0.0 %, Lymph:4.7 %, Mono:6.3 %, Eos:2.1
   %, Lactic Acid:2.6 mmol/L, Albumin:2.9 g/dL, LDH:362 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia.  PMH includes hypothyroidism and HLD.
   # Renal failure: seems Urine output has not improved significantly
   since stent placement. Cr normal. Patient with episode of hypotension
   that seems to limit ability to do HD. Also seems to have tenous volume
   status.
   - CVVH stopped had first trial of HD with drop in blood pressure, plan
   for HD today 1 hour after initiation of chemotherapy at noon
   - consider IV albumin for hypotension as patient with low oncotic
   pressure
   - s/p stent to ureter to relieve obstruction which did not result in
   increased urinary output
   - urine cx sent intraoperative only growing yeast, urine apparently was
   cloudy, however no evidence of frank pus or abscess, not currently on
   any antibiotics - ordered repeat UA and uculture yesterday, not yet
   sent, will follow-up with results
   # Likely Metastatic ovarian cancer
   - will start chemo today with carboplatin 200 mg/m2 with BSA of 1.66.
   first dose today, consider second dose in 21 days
   - premedication with anti-emeteics including ondansetron, dexamethasone
   today and for 3 days following chemo, dexamethasone OK even in addition
   to IV hydrocortisone as per oncology
   - seen by onc yesterday, feel that renal failure and hypotension are
   all related to fluid shifts secondary to malignancy and that the only
   way that she will be able to come off of pressors and HD is to treat
   the cancer
   - still with chest tube in (malignant effusion)
   - Allopurinol to prevent tumor lysis syndrome
   - onc to write orders for chemo today, written for zofran for nausea as
   well as dexamethasone pretreatment for chemotherapy
   # Tachycardia
   -  took multiple EKGs during episode of tachycardia to 130-140s (two
   nights ago). Initial arrythmia looked sinus vs. atrial tachycardia
   which appeared to transition to NSVT, faxed EKGs to cardiology fellow
   overnight, thought was consistent with NSVT, started patient on
   amiodarone IV with adequate reponse, -  during this episode rebolused
   patient with 2x 250 cc fluid for hypotension and tachycardia
   - patient was on IV amiodarone, has not been started on PO amiodarone,
   may hold off for now, and see how patient does (NSVT may have been
   secondary to dialysis in particular rapid electrolyte shifts and fluid
   loss)
   - hold off on cards consults b/c suspect that mostly due to rapid fluid
   shifts, definitely was admiodarone responsive
   - would consider official consult if patient goes back into this rhythm
   again
   #Pleural effusions: Patient still with  output through left tube. Since
   etiology is malignancy may not resolve promptly.
   - likely not candidate for pleuradesis at this time, can follow up with
   thoracics at a later date regarding plan for tube
   - effusions may be contributing to underlying heart physiology
    #. Hypotension and shock.
   - infectious work-up has been negative thus far, blood cultures no
   growth to date, pleural fluid with negative culture, urine cx grew only
   yeast
   - sent repeat UA and culture -
   - patient had been off and on pressors, overnight required again, now
   again weaned off
   With continued hypotension two days ago, got IV albumin and also IV
   steroids has has been steroid responsive  previously, again patient
   with good response
   - given that patient to start chemo today , will not taper steroids
   right away, will begin taper tomorrow (tomorrow go to 25 mg IV q
   6hours)
   - elevated white blood cell count in the setting of IV steroids as per
   above do not suspect new infection
    #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - Monitor for a. fib, on thyroid replacement
   - steroids as above
    #. Hyperlipidemia - cont home statin dose
   # Aspiration: on regular diet with thin liquids seen by speech and
   swallow
   Dispo: ICU for HD and chemo today
    Glycemic Control:  sliding scale insulin
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: h2 blocker
    Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2138-10-01 09:36:00 Physician Attending Progress Note
Chief Complaint: Persistent hypotension.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Off pressors since yesterday morning.
   Heme-onc plans to dose her with Carbiplatnum today in an effort to
   treat presumptive ovarian cancer. To get HD in the peri-dosing setting
   (~1 hour after.) If she doesn't tolerate HD, may need CVVHD.
   No recurrent episodes of NSVT or tachyarrhythmias.
   No other complaints.
   24 Hour Events:
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-10-1**] 08:00 AM
   Other medications:
   Heparin subQ TID
   Zocor 20
   Famotidine 20
   RSSI
   Levoxyl
   Hydrocortisone 50mg IV q6
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-1**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 101 (91 - 106) bpm
   BP: 113/78(86) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (0 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: -8 (-11 - 22)mmHg
   Total In:
                                                                  1,561 mL
                                                                    157 mL
   PO:
   TF:
   IVF:
                                                                  1,561 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    315 mL
                                                                     60 mL
   Urine:
                                                                    185 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,246 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Thin, No(t) Anxious,
   No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bibasilar, No(t) Wheezes : ), decreased BS's on the right
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   263 K/uL
   99 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.6 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   27.9 %
   16.9 K/uL
        [image002.jpg]
                             [**2138-9-28**]  09:36 AM
                             [**2138-9-28**]  09:51 AM
                             [**2138-9-28**]  04:00 PM
                             [**2138-9-28**]  10:30 PM
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
                             [**2138-9-29**]  10:56 PM
                             [**2138-9-29**]  10:59 PM
                             [**2138-9-30**]  05:13 AM
                             [**2138-10-1**]  05:20 AM
   WBC
   14.8
   19.5
   16.9
   Hct
   29.1
   28.1
   27.9
   Plt
   [**Telephone/Fax (3) 1542**]
   Cr
   1.0
   1.0
   0.9
   1.1
   1.6
   TCO2
   27
   25
   28
   Glucose
   118
   105
   104
   89
   96
   126
   99
   Other labs: PT / PTT / INR:19.6/29.3/1.8, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**7-15**], Alk Phos / T Bili:55/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:86.8 %, Band:0.0 %, Lymph:4.7 %, Mono:6.3 %, Eos:2.1
   %, Lactic Acid:2.6 mmol/L, Albumin:2.9 g/dL, LDH:362 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: No new imaging
   Microbiology: Urine ([**9-28**]): Yeast
   Blood ([**9-28**]): NGTD
   Urine ([**9-26**]): Yeast
   Pleural ([**9-24**]): NG, negative gram stain
   Assessment and Plan
   Impression: 74yo woman with presumptive metastatic ovarian cancer and
   persistent hypotension of unclear etiology.
   A/P:
   1) Metastatic cancer: Plan for Carbiplatnum today followed by HD.
   Anti-emetics and allopurinol per protocol.
   2) Hypotension: Off pressors; etiology remains unclear but there
   appears to be a steroid-responsive component. She has been getting
   Hydrocortisone 50mg IV q6hr. Will attempt to titrate down -- decrease
   to Hydrocortisone 25mg IV q6 if she tolerated chemo and HD today. Will
   follow if she needs pressors for HD today.
   3) ID: No e/o systemic infection, however yeast in tow recent
   urinalysis. Would repeat UA -- if persistent yeasturia would treat with
   fluconazole.
   4) CV: Had been on Amio gtt. No e/o recurrence tachycardia. [**Month (only) 51**] have
   been due to electrolyte / fluid shifts. No e/o primary cardiac process.
   Would not continue with rhythm or rate-controlling meds. If she has
   recurrent tachyarrhythmic episodes would formally consult Cardiology
   and consider restarting Amio (or other rate/rhythm-controlling.)
   5) F/E/N: Continue diet. Follow / replete 'lytes.
   6) Renal: Appreciate renal assistance; HD today as above.
   7) Hypothyroid: Stable; continue Levoxyl.
   8) Access: RIJ dialysis catheter and PICC line.
       Code: Full.
       Proph: PPI and subQ heparin.
       Dispo: [**Hospital Unit Name 1**] for now, consider calling out if she does well with
   chemo / HD.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2138-10-02 06:40:00 Physician Resident Progress Note
Chief Complaint: 74 year old with newly diagnosed metastatic ovarian
   cancer initially on pressors and CVVH s/p ureteral stent placement now
   on HD and s/p first chemotherapy dose yesterday
   24 Hour Events:
   Patient recieved chemo yesterday and then HD 1 hour after. Off
   amiodarone. As per oncology, tried to order carboplatin levels,
   apparently not a lab test that can be done here.  UA was collected, and
   culture pending. Dexamethasone dose was decreased to 4 mg for days 2,3
   of chemo. Patient tolerated HD yesterday without significant drop in
   pressures.  + cough. Chest tube putting out 50-75 cc over 12 hour
   shift.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-10-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-10-1**] 10:04 PM
   Lorazepam (Ativan) - [**2138-10-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-2**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 98 (91 - 108) bpm
   BP: 113/78(86) {0/0(0) - 0/0(0)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.4 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: -8 (-8 - -8)mmHg
   Total In:
                                                                    334 mL
                                                                     64 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                    304 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                     80 mL
   Urine:
                                                                     90 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,426 mL
                                                                    -16 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : right side, Diminished:
   left lung)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, time, and place, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   268 K/uL
   9.1 g/dL
   111 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   15 mg/dL
   108 mEq/L
   145 mEq/L
   29.9 %
   15.4 K/uL
        [image002.jpg]
                             [**2138-9-28**]  09:51 AM
                             [**2138-9-28**]  04:00 PM
                             [**2138-9-28**]  10:30 PM
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
                             [**2138-9-29**]  10:56 PM
                             [**2138-9-29**]  10:59 PM
                             [**2138-9-30**]  05:13 AM
                             [**2138-10-1**]  05:20 AM
                             [**2138-10-2**]  04:56 AM
   WBC
   14.8
   19.5
   16.9
   15.4
   Hct
   29.1
   28.1
   27.9
   29.9
   Plt
   [**Telephone/Fax (3) 1558**]68
   Cr
   1.0
   1.0
   0.9
   1.1
   1.6
   1.5
   TCO2
   27
   25
   28
   Glucose
   105
   104
   89
   96
   126
   99
   111
   Other labs: PT / PTT / INR:19.2/26.9/1.8, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**7-15**], Alk Phos / T Bili:55/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:86.8 %, Band:0.0 %, Lymph:4.7 %, Mono:6.3 %, Eos:2.1
   %, Lactic Acid:2.6 mmol/L, Albumin:2.8 g/dL, LDH:362 IU/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
    # Renal failure: seems Urine output has not improved significantly
   since stent placement. Cr normal. Patient with episode of hypotension
   that seems to limit ability to do HD. Also seems to have tenous volume
   status.
    - CVVH stopped had first trial of HD with drop in blood pressure, got
   HD yesterday without large swings in her blood pressure, plan is to
   likely get HD today
   - s/p stent to ureter to relieve obstruction which did not result in
   increased urinary output
   - urine cx sent intraoperative only growing [**Month/Day (2) 1564**], urine apparently was
   cloudy, however no evidence of frank pus or abscess, not currently on
   any antibiotics - ordered repeat culture yesterday
   - given two positive urines with [**Last Name (LF) 1564**], [**First Name3 (LF) **] go ahead at this time and
   treat at this time with fluconazole for 7 day course
   # Likely Metastatic ovarian cancer
   - started chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of
   1.66. consider second dose 21 days after the first
   - premedication with anti-emeteics including ondansetron, dexamethasone
   on day 1 and 3 days following chemotherapy, dexamethasone OK even in
   addition to IV hydrocortisone as per oncology
   - oncology feels that renal failure and hypotension all related to
   fluid shifts secondary to malignancy and that the only way that she
   will be able to come off of pressors and HD is to treat the cancer
   - still with chest tube in (malignant effusion) with decent output
   - Allopurinol to prevent tumor lysis syndrome
   # Tachycardia
   - patient again tachycardic this morning possible etiologies include
   sinus tachycardia secondary to volume loss from HD, or new infection
   - will check a chest x-ray, start on fluconazole for [**Month/Year (2) 1564**] in the urine
   x 7 days
   - continue to follow
   -  previous episode of tachycardia s/p first HD - took multiple EKGs
   during episode of tachycardia to 130-140s (two nights ago). Initial
   arrythmia looked sinus vs. atrial tachycardia which appeared to
   transition to NSVT, faxed EKGs to cardiology fellow, thought was
   consistent with NSVT, started patient on amiodarone IV with adequate
   reponse, -  during this episode rebolused patient with 2x 250 cc fluid
   for hypotension and tachycardia
   - patient was on IV amiodarone, has not been started on PO amiodarone,
   will hold off for now, and see how patient does (NSVT may have been
   secondary to dialysis in particular rapid electrolyte shifts and fluid
   loss)
   - hold off on cards consults b/c suspect that mostly due to rapid fluid
   shifts, definitely was admiodarone responsive\
   # Anemia
   - patient is anemic, ordered anemia work-up labs - iron 27 (low), TIBC
   173 (low), ferritin 222 (high), TRF 133 (low), b12 normal, folate
   normal
   - low iron, low TIBC and elevated ferritin consistent with anemia of
   chronic disease
   #Pleural effusions: Patient still with  significant output through left
   tube. Since etiology is malignancy may not resolve promptly.
   - likely not candidate for pleuradesis at this time, can follow up with
   thoracics at a later date regarding plan for tube
   - wiill need to address plans for chest tube on discharge
   - effusions may be contributing to underlying heart physiology
     #. Hypotension and shock.
   - infectious work-up has been negative thus far, blood cultures no
   growth to date, pleural fluid with negative culture, urine cx grew only
   [**Month/Year (2) 1564**], given lack of other source  will start treatment [**10-2**]
   - sent repeat UA and culture - repeat UA from [**10-1**] cloudy, large LE,
   large blood, 300 protein, trace ketones, 300 RBCs, 29 WBCs, many
   bacteria, many [**Month/Year (2) 1564**] urine culture pending
   - patient currently off pressors with good blood pressure, still on IV
   steroids
   - previously  got IV albumin and also IV steroids for hypotension with
   good response
   - will start steroid taper today  (tomorrow go to 25 mg IV q 6hours)
    #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - Monitor for a. fib, on thyroid replacement
   - steroids as above
   #. Hyperlipidemia - cont home statin dose
   # Aspiration: on regular diet with thin liquids seen by speech and
   swallow
    Dispo: consider transfer to floor tomorrow or later this afternoon if
   stabilizes
    Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
    DVT: hep subq
   Stress ulcer: h2 blocker
    Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-02 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tolerated HD yesterday without any complications
   No complaints today
   Decreased edema
   24 Hour Events:
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-10-2**] 04:00 AM
   Famotidine (Pepcid) - [**2138-10-2**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2138-10-2**] 08:06 AM
   Other medications:
   Med list reviewed - [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-2**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 103 (92 - 108) bpm
   BP: 97/42(57) {97/42(57) - 97/42(57)} mmHg
   RR: 32 (15 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.4 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                    334 mL
                                                                    395 mL
   PO:
                                                                     30 mL
                                                                    230 mL
   TF:
   IVF:
                                                                    304 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                     85 mL
   Urine:
                                                                     90 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,426 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   268 K/uL
   111 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   15 mg/dL
   108 mEq/L
   145 mEq/L
   29.9 %
   15.4 K/uL
        [image002.jpg]
                             [**2138-9-28**]  09:51 AM
                             [**2138-9-28**]  04:00 PM
                             [**2138-9-28**]  10:30 PM
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
                             [**2138-9-29**]  10:56 PM
                             [**2138-9-29**]  10:59 PM
                             [**2138-9-30**]  05:13 AM
                             [**2138-10-1**]  05:20 AM
                             [**2138-10-2**]  04:56 AM
   WBC
   14.8
   19.5
   16.9
   15.4
   Hct
   29.1
   28.1
   27.9
   29.9
   Plt
   [**Telephone/Fax (3) 1558**]68
   Cr
   1.0
   1.0
   0.9
   1.1
   1.6
   1.5
   TCO2
   27
   25
   28
   Glucose
   105
   104
   89
   96
   126
   99
   111
   Other labs: PT / PTT / INR:19.2/26.9/1.8, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**7-15**], Alk Phos / T Bili:55/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.8 g/dL, LDH:362 IU/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A:
   1) Hypotension:
   - resolved and likely steroid-responsive component
   2) Tachyapnea:
   - Check CXR
   - Up in chair
   - re-evaluate after CXR and position change
   3) Chest Tube: still draining significant amount of fluid so will not
   remove at this time
   4) Anemia:
   5) UTI: Diflucan for persistent yeast
   6) Adrenal insufficiency:
   7) Acute Renal Failure: continue HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now
   Total time spent: 35

2138-10-03 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -on getting out of chair to bed yesterday, chest tube fell out. HD
   stable. Thoracic surgery called.
   -started on vanco/zosyn for tachypnea, tachycardia and CXR with
   ?infiltrates, opacities.
   -fluconazole for [** 1564**] in urine.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-2**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-3**] 01:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-10-2**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2138-10-2**] 09:44 PM
   Lorazepam (Ativan) - [**2138-10-2**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-3**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.6
   HR: 107 (98 - 126) bpm
   BP: 95/58(67) {95/42(57) - 97/58(67)} mmHg
   RR: 32 (19 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.4 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                    940 mL
                                                                    164 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                    590 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                     12 mL
   Urine:
                                                                     50 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    840 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.32/53/70/26/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   285 K/uL
   9.8 g/dL
   100 mg/dL
   2.1 mg/dL
   26 mEq/L
   4.7 mEq/L
   23 mg/dL
   107 mEq/L
   144 mEq/L
   30.5 %
   17.7 K/uL
        [image002.jpg]
                             [**2138-9-28**]  10:30 PM
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
                             [**2138-9-29**]  10:56 PM
                             [**2138-9-29**]  10:59 PM
                             [**2138-9-30**]  05:13 AM
                             [**2138-10-1**]  05:20 AM
                             [**2138-10-2**]  04:56 AM
                             [**2138-10-2**]  12:05 PM
                             [**2138-10-3**]  04:55 AM
   WBC
   14.8
   19.5
   16.9
   15.4
   17.7
   Hct
   29.1
   28.1
   27.9
   29.9
   30.5
   Plt
   [**Telephone/Fax (3) 1558**]68
   285
   Cr
   1.0
   1.0
   0.9
   1.1
   1.6
   1.5
   2.1
   TCO2
   25
   28
   29
   Glucose
   104
   89
   96
   126
   99
   111
   100
   Other labs: PT / PTT / INR:15.5/21.8/1.3, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**7-15**], Alk Phos / T Bili:55/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:87.9 %, Band:0.0 %, Lymph:5.8 %, Mono:5.6 %, Eos:0.6
   %, Lactic Acid:3.0 mmol/L, Albumin:2.8 g/dL, LDH:362 IU/L, Ca++:8.5
   mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
    # Renal failure: seems Urine output has not improved significantly
   since stent placement. Cr normal. Patient with episode of hypotension
   that seems to limit ability to do HD. Also seems to have tenous volume
   status.
    - CVVH stopped had first trial of HD with drop in blood pressure, got
   HD yesterday without large swings in her blood pressure, plan is to
   likely get HD today
   - s/p stent to ureter to relieve obstruction which did not result in
   increased urinary output
   - urine cx sent intraoperative only growing [**Month/Day (2) 1564**], urine apparently was
   cloudy, however no evidence of frank pus or abscess, not currently on
   any antibiotics - ordered repeat culture yesterday
   - given two positive urines with [**Last Name (LF) 1564**], [**First Name3 (LF) **] go ahead at this time and
   treat at this time with fluconazole for 7 day course
   # Likely Metastatic ovarian cancer
   - started chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of
   1.66. consider second dose 21 days after the first
   - premedication with anti-emeteics including ondansetron, dexamethasone
   on day 1 and 3 days following chemotherapy, dexamethasone OK even in
   addition to IV hydrocortisone as per oncology
   - oncology feels that renal failure and hypotension all related to
   fluid shifts secondary to malignancy and that the only way that she
   will be able to come off of pressors and HD is to treat the cancer
   - still with chest tube in (malignant effusion) with decent output
   - Allopurinol to prevent tumor lysis syndrome
   # Tachycardia
   - patient again tachycardic this morning possible etiologies include
   sinus tachycardia secondary to volume loss from HD, or new infection
   - will check a chest x-ray, start on fluconazole for [**Month/Year (2) 1564**] in the urine
   x 7 days
   - continue to follow
   -  previous episode of tachycardia s/p first HD - took multiple EKGs
   during episode of tachycardia to 130-140s (two nights ago). Initial
   arrythmia looked sinus vs. atrial tachycardia which appeared to
   transition to NSVT, faxed EKGs to cardiology fellow, thought was
   consistent with NSVT, started patient on amiodarone IV with adequate
   reponse, -  during this episode rebolused patient with 2x 250 cc fluid
   for hypotension and tachycardia
   - patient was on IV amiodarone, has not been started on PO amiodarone,
   will hold off for now, and see how patient does (NSVT may have been
   secondary to dialysis in particular rapid electrolyte shifts and fluid
   loss)
   - hold off on cards consults b/c suspect that mostly due to rapid fluid
   shifts, definitely was admiodarone responsive\
   # Anemia
   - patient is anemic, ordered anemia work-up labs - iron 27 (low), TIBC
   173 (low), ferritin 222 (high), TRF 133 (low), b12 normal, folate
   normal
   - low iron, low TIBC and elevated ferritin consistent with anemia of
   chronic disease
   #Pleural effusions: Patient still with  significant output through left
   tube. Since etiology is malignancy may not resolve promptly.
   - likely not candidate for pleuradesis at this time, can follow up with
   thoracics at a later date regarding plan for tube
   - wiill need to address plans for chest tube on discharge
   - effusions may be contributing to underlying heart physiology
     #. Hypotension and shock.
   - infectious work-up has been negative thus far, blood cultures no
   growth to date, pleural fluid with negative culture, urine cx grew only
   [**Month/Year (2) 1564**], given lack of other source  will start treatment [**10-2**]
   - sent repeat UA and culture - repeat UA from [**10-1**] cloudy, large LE,
   large blood, 300 protein, trace ketones, 300 RBCs, 29 WBCs, many
   bacteria, many [**Month/Year (2) 1564**] urine culture pending
   - patient currently off pressors with good blood pressure, still on IV
   steroids
   - previously  got IV albumin and also IV steroids for hypotension with
   good response
   - will start steroid taper today  (tomorrow go to 25 mg IV q 6hours)
    #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - Monitor for a. fib, on thyroid replacement
   - steroids as above
   #. Hyperlipidemia - cont home statin dose
   # Aspiration: on regular diet with thin liquids seen by speech and
   swallow
    Dispo: consider transfer to floor tomorrow or later this afternoon if
   stabilizes
    Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
    DVT: hep subq
   Stress ulcer: h2 blocker
    Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-04 07:14:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
   -HD
   -planned to C/O today but no available bed. also started on 30mg PO
   diltiazem for consistant tachycardia over last 2 days. BP has been
   stable.
   -had several runs of NSVT overnight, occurred while she was being moved
   and bathed. Her BP remained stable and she was asx and the episode
   resolved. nothing was given.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-3**] 01:45 PM
   Fluconazole - [**2138-10-3**] 01:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-4**] 12:12 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-10-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2138-10-3**] 02:51 PM
   Lorazepam (Ativan) - [**2138-10-4**] 12:00 AM
   Diltiazem - [**2138-10-4**] 05:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-4**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 103 (97 - 120) bpm
   BP: 99/62(76) {99/62(76) - 99/62(76)} mmHg
   RR: 24 (22 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.4 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                    870 mL
                                                                    212 mL
   PO:
                                                                     80 mL
                                                                     40 mL
   TF:
   IVF:
                                                                    790 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,024 mL
                                                                     19 mL
   Urine:
                                                                     24 mL
                                                                     19 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,154 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese; sitting in
   chair
   Eyes / Conjunctiva: PERRL; non-icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : expiratory bilateraly, Rhonchorous:
   expiratory bilateraly)
   Extremities: Right: +++/+++, Left: +++/+++; pt with anasarca
   Skin:  Warm; in anasarca (sacrum, legs, arms)
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   215 K/uL
   9.5 g/dL
   105 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   21 mg/dL
   108 mEq/L
   145 mEq/L
   28.9 %
   17.6 K/uL
        [image002.jpg]
                             [**2138-9-28**]  10:51 PM
                             [**2138-9-29**]  04:31 AM
                             [**2138-9-29**]  10:56 PM
                             [**2138-9-29**]  10:59 PM
                             [**2138-9-30**]  05:13 AM
                             [**2138-10-1**]  05:20 AM
                             [**2138-10-2**]  04:56 AM
                             [**2138-10-2**]  12:05 PM
                             [**2138-10-3**]  04:55 AM
                             [**2138-10-4**]  03:47 AM
   WBC
   14.8
   19.5
   16.9
   15.4
   17.7
   17.6
   Hct
   29.1
   28.1
   27.9
   29.9
   30.5
   28.9
   Plt
   [**Telephone/Fax (2) 1602**]
   Cr
   1.0
   0.9
   1.1
   1.6
   1.5
   2.1
   2.0
   TCO2
   25
   28
   29
   Glucose
   89
   96
   126
   99
   111
   100
   105
   Other labs: PT / PTT / INR:17.1/21.7/1.5, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**7-15**], Alk Phos / T Bili:55/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:3.0 mmol/L, Albumin:2.8 g/dL, LDH:362 IU/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
   # Tachycardia/NSVT: Pt continues to be tachycardic 100-130 range. Her
   HCT has been stable, pt has been afebrile and has not had HD or
   hypotension to explain tachycardia. SpO2 looks ok. Pt on
   Vanc/Zosyn/Fluc for PNA and UTI respectively. Patient also had NSVT
   episode last night.
   -cardiology consult per attending for NSVT
   -Continue dilt for now
   -monitor I/O, fluid status, and JVP
   -repeat EKG
    # Renal failure: HD Monday
   - monitor electrolytes and replete prn
   -f/u renal recs
   # Malignancy-? Metastatic ovarian cancer- started chemo [**10-1**] day #1
   with carboplatin 200 mg/m2 with BSA of 1.66. consider second dose 21
   days after the first. oncology feels that renal failure and hypotension
   all related to fluid shifts secondary to malignancy and that the only
   way that she will be able to come off of pressors and HD is to treat
   the cancer
   - Allopurinol to prevent tumor lysis syndrome- follow tumor lysis labs
   -f/u Onc recs
   # Anemia of chronic disease
   - patient is anemic, ordered anemia work-up labs - iron 27 (low), TIBC
   173 (low), ferritin 222 (high), TRF 133 (low), b12 normal, folate
   normal
   - low iron, low TIBC and elevated ferritin consistent with anemia of
   chronic disease
   #Pleural effusions: patient
s chest tube fell out 2 days ago during
   transport. IP and thoracic surgery aware
   -Serial CXR to monitor pleural effusion
   -On PNA treatment
   -consider sending sputum culture
     #. Hypotension and shock.
   -CXR with ?PNA started vanco, zosyn for suspected HAP
   - patient currently off pressors with good blood pressure, still on IV
   steroids
   - previously  got IV albumin and also IV steroids for hypotension with
   good response
   - will start steroid taper post dialysis  at 25 mg IV q 6hours
    #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - Monitor for a. fib, on thyroid replacement
   - steroids as above
   #. Hyperlipidemia - cont home statin dose
   # Aspiration: on regular diet with thin liquids seen by speech and
   swallow
    Dispo: consider transfer to floor later this afternoon post HD and IP
   consult for line
    Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
    DVT: hep subq
   Stress ulcer: h2 blocker
    Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I reviewed the history and relevant labs on the patient and examined
   her.  I was physically present with the MICU team for the key portions
   of the service provided.  I agree with the note above, including the
   assessment and plan.  I would add and emphasize the following:
   Patient awaiting bed on the floor.  She received HD yesterday.
   Overnight she had another episode of very short NSVT.  Still on
   steroids for possible adrenal insufficiency as bp increased with start
   of steroids.  Remains on Vanco and Zosyn for CXR suspicious for pna in
   the setting of increase cough, sputum, tachypnea
   On exam: t=98.4, p=103, BP=99/62 Sat=96%  I/0 = neg 1.1 liters
   Lungs have exp wheezes.  Total body anasarca from feet up to abdominal
   wall
   Lab:  echo = mod pulm htn, normal LV
   Problems:
   1.       [**Name2 (NI) 1641**] adenoca with malignant ascites and pl effusions
   2.       Renal failure due to  hypotension
   3.       Possible adrenal insufficiency, on Rx
   4.       Persistent Leukocytosis
   5.       NSVT
   6.       [**Hospital 1642**] hosp acquired pna, on Vanco and Zosyn
   7.       Anasarca, due to renal failure and need for lots of fluids
   with hypotension previously
   8.       Pulm hypertension by echo
   9.       Full code
   Plan:
   1.       Cardiology consult for any other suggestions for dx and rx of
   her NSVT
   2.       Continue HD to gradually decrease her huge third space fluid
   excess
   3.       Talk to Omed floor doctors about possible transfer, given her
   stable to metastable state.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], [**MD Number(1) 1623**]
   Total Time spent = 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2138-10-4**] 19:38 ------

2138-10-05 07:28:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   Cards consult (should be seen on [**10-5**])
   Patient became SOB, agitated, with tons of fluid on exam. Received
   nebs, reposition and improved. On aspiration we got back pills, mucus
   and apple pure. Put NPO and dilt changed IV drip. CXR similar.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-3**] 01:45 PM
   Fluconazole - [**2138-10-3**] 01:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-5**] 12:00 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Diltiazem - [**2138-10-4**] 06:00 PM
   Lorazepam (Ativan) - [**2138-10-4**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-5**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 91 (89 - 113) bpm
   BP: 99/62(76) {0/0(0) - 0/0(0)} mmHg
   RR: 22 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                    580 mL
                                                                    176 mL
   PO:
                                                                     40 mL
             TF:
   IVF:
                                                                    540 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                     19 mL
                                                                      8 mL
   Urine:
                                                                     19 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    561 mL
                                                                    168 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.28/59/89.[**Numeric Identifier 126**]/26/0
   PaO2 / FiO2: 254
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, anasarca
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bilateraly, Wheezes : Bilateraly,
   Rhonchorous: Bilateraly), Fluid on auscultation
   Abdominal: Non-tender, Bowel sounds present, Distended, Obese,
   Edematous skin
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   207 K/uL
   8.9 g/dL
   114 mg/dL
   2.6 mg/dL
   26 mEq/L
   4.9 mEq/L
   30 mg/dL
   108 mEq/L
   143 mEq/L
   27.2 %
   22.7 K/uL
        [image002.jpg]
                             [**2138-9-29**]  10:59 PM
                             [**2138-9-30**]  05:13 AM
                             [**2138-10-1**]  05:20 AM
                             [**2138-10-2**]  04:56 AM
                             [**2138-10-2**]  12:05 PM
                             [**2138-10-3**]  04:55 AM
                             [**2138-10-4**]  03:47 AM
                             [**2138-10-4**]  07:13 PM
                             [**2138-10-5**]  05:00 AM
                             [**2138-10-5**]  05:02 AM
   WBC
   19.5
   16.9
   15.4
   17.7
   17.6
   22.7
   Hct
   28.1
   27.9
   29.9
   30.5
   28.9
   27.2
   Plt
   [**Telephone/Fax (3) **]85
   215
   207
   Cr
   1.1
   1.6
   1.5
   2.1
   2.0
   2.6
   TCO2
   28
   29
   29
   29
   Glucose
   126
   99
   111
   100
   105
   114
   Other labs: PT / PTT / INR:18.0/24.0/1.6, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**7-15**], Alk Phos / T Bili:55/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:3.0 mmol/L, Albumin:2.8 g/dL, LDH:362 IU/L, Ca++:8.4
   mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
   # SOB: Patient with witnessed aspiration espisode last night. Now with
   worsening SOB, and pills and thickened pure on aspiration. Increasing
   O2 requirements. Worsening CXR concerning for aspiration pneumonia.
   -Continue Vanc/ZOsyn for now
   -Family meeting today to define goals of care and clarify code status
   -Pateient may need large-volume parasentesis to relieve pressure in
   lungs
   -Restrict her fluids to max today
   -HD tomorrow
   -Talk to thoraxics about pleural effusion
   -Repeat ABG; may need ET tube later today depending on profression
   # Tachycardia/NSVT: Pt continues to be tachycardic 100-130 range. Her
   HCT has been stable, pt has been afebrile and has not had HD or
   hypotension to explain tachycardia. SpO2 looks ok. Pt on
   Vanc/Zosyn/Fluc for PNA and UTI respectively. Patient also had NSVT
   episode last night.
   -cardiology consult per attending for NSVT
   -Continue dilt for now
   -monitor I/O, fluid status, and JVP
   -repeat EKG
    # Renal failure: HD Monday
   - monitor electrolytes and replete prn
   -f/u renal recs
   # Malignancy-? Metastatic ovarian cancer- started chemo [**10-1**] day #1
   with carboplatin 200 mg/m2 with BSA of 1.66. consider second dose 21
   days after the first. oncology feels that renal failure and hypotension
   all related to fluid shifts secondary to malignancy and that the only
   way that she will be able to come off of pressors and HD is to treat
   the cancer
   - Allopurinol to prevent tumor lysis syndrome- follow tumor lysis labs
   -f/u Onc recs
   # Anemia of chronic disease
   - patient is anemic, ordered anemia work-up labs - iron 27 (low), TIBC
   173 (low), ferritin 222 (high), TRF 133 (low), b12 normal, folate
   normal
   - low iron, low TIBC and elevated ferritin consistent with anemia of
   chronic disease
   #Pleural effusions: patient
s chest tube fell out 2 days ago during
   transport. IP and thoracic surgery aware
   -Serial CXR to monitor pleural effusion
   -On PNA treatment
   -consider sending sputum culture
    #. Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - Monitor for a. fib, on thyroid replacement
   - steroids as above
   #. Hyperlipidemia - cont home statin dose
   # Aspiration: on regular diet with thin liquids seen by speech and
   swallow
    Dispo: consider transfer to floor later this afternoon post HD and IP
   consult for line
    Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
    DVT: hep subq
   Stress ulcer: h2 blocker
    Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-9-26**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I examined the patient today and reviewed her history and relevant
   labs.  I was also present with the MICU team for the key portions of
   the services provided, and I agree with the note above, including its
   assessment and plans.  I would add and emphasize the following:
   The patient has had a worsening of resp status, with a productive
   sounding cough and pills and juice aspirated from her lower airways.
   Hence she was made NPO.  CXR now shows increase in bibasilar opacities
   most consistent with aspiration than pleural fluid, though small bilat
   effusions remain.  Has needed higher Fi02. and PC02 increased now:
   78.28/59/89
   On exam: afeb,  90  99/62  22  100% on prongs and face tent  I/O =
   +560cc
   Lungs: rhonchi.  Abdomen:  Lg and tense ascites with anasarca of abd
   wall.  Ext:  4+ edema  Neuro: a&o, not uncomfortable
   Problems:
   1.       [**Name2 (NI) 1641**] adenoca, likely ovarian, with recent initiation of chemo
   2.       Bilateral malignant pleural effusions, drained, and not
   severely increased again
   3.       Ascites, likely malignant
   4.       Aspiration
   5.       Respiratory insufficiency with hypoxemia and hypercarbia, the
   latter likely due to increased work of breathing due to her effusions
   and chiefly due to her large belly, now exacerbated by last night
   aspiration
   6.       Renal failure
   7.       Anasarca due to #1 and #5
   8.       NSVT
   9.       Code Status
   Plan:
   1.       Trial of NPPV
   2.       Mark for paracentesis in ultrasound.  We should then attempt
   to tap.  If unsuccessful, may need attempt in I.R.
   3.       NPO for now
   4.       Concentrate IV
   5.       Encourage cough and if necessary deep suction
   6.       Family meeting today with pt
   Addendum -  I had a family mtg with the patient today, attended by MICU
   house [**Name6 (MD) 1665**] and RN.  We discussed the current decline in resp status
   and the possibility that  physiologically she might need intubation and
   mech ventilation.  We expressed the rather dire set of obstacles
   against us: [**Name6 (MD) **] ca, renal failure, aspiration, malignant effusions and
   likely malignant ascites, and the questionable success that chemo may
   have.  We asked the pt what her wishes were should all our efforts fail
   to keep her out of frank resp failure.  She expressed the desire to
   keep fighting, though clearly hates the ET Tube.  She and the family
   realize that if she is indeed intubated and there is nothing that can
   be reversed, then there may need to be another discussion about
   realistic goals of care.  Right now she and the family are holding out
   hope that chemo will reduce the tumor burden, and with it improve
   ascites, pl effusions, etc.
   Patient Critically ill.    Time spent on rounds 45 min and in family
   mtg 45 min  = 90 min total
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], [**MD Number(1) 1622**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2138-10-5**] 18:38 ------

2138-10-06 07:35:00 Physician Resident Progress Note
Chief Complaint: 74 year old female with newly diagnosed metastatic
   ovarian cancer who was transferred to the [**Hospital Ward Name 1437**] for ureteral
   stent placement in the setting of acute renal failure. Patient
   currently on HD for essentially oliguria with difficult to manage fluid
   status, worsening ascites, and now s/p chemo x1.
   24 Hour Events:
   Yesterday had large family meeting to discuss goals of care. Patient
   does want to have intubation if necessary, and
wants to fight.
   Attempted paracentesis yesterday after radiology marked area, however
   paracentesis was unsuccessful.  Plan to have IR guided paracentesis
   this AM. Thoracics was contact[**Name (NI) **] again. They had come to see patient on
   Thursday night when chest tube came out and reccomended IP being
   involved.  IP to staff again this morning. Apparently saw patient on
   Thursday night but didn
t leave note, did not feel that repeat catheter
   was necessary at that time, however will reassess this AM.
 ULTRASOUND - At [**2138-10-5**] 11:46 AM
 PARACENTESIS - At [**2138-10-5**] 11:47 AM
 ARTERIAL LINE - STOP [**2138-10-6**] 06:12 AM
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-3**] 01:45 PM
   Fluconazole - [**2138-10-5**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Respiratory: shortness of breath
   Pain: No pain / appears comfortable
   Pain location: patient denies any pain
   Flowsheet Data as of  [**2138-10-6**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 91 (81 - 95) bpm
   BP: 104/58(28) {104/0(28) - 104/0(28)} mmHg
   RR: 20 (4 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                    619 mL
                                                                    115 mL
   PO:
             TF:
   IVF:
                                                                    619 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                      8 mL
                                                                      0 mL
   Urine:
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    611 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 723 (447 - 760) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.31/52/85.[**Numeric Identifier 126**]/25/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: awake, alert, oriented, currently states not in any
   pain, whole body anasarca, on CPAP face mask
   Eyes / Conjunctiva: PERRL, unable to assess remainder of HEENT exam
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur appreciated,
   borderline tachycardia
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: over left lung field
   and also right base), anterior auscultation only, difficult to assess
   because on CPAP
   Abdominal: Non-tender, decreased bowel sounds, Distended, anasarca
   Extremities: decreased pulses bilaterally radially, as well as
   decreased pulses DP, toes appear more blue than previously
   Skin:  cool arms, legs are warm with cool toes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: moves all 4
   extremities
   Labs / Radiology
   171 K/uL
   8.9 g/dL
   89 mg/dL
   3.1 mg/dL
   25 mEq/L
   4.8 mEq/L
   39 mg/dL
   108 mEq/L
   145 mEq/L
   27.6 %
   22.7 K/uL
        [image002.jpg]
                             [**2138-10-2**]  12:05 PM
                             [**2138-10-3**]  04:55 AM
                             [**2138-10-4**]  03:47 AM
                             [**2138-10-4**]  07:13 PM
                             [**2138-10-5**]  05:00 AM
                             [**2138-10-5**]  05:02 AM
                             [**2138-10-5**]  02:16 PM
                             [**2138-10-5**]  08:05 PM
                             [**2138-10-6**]  01:15 AM
                             [**2138-10-6**]  04:28 AM
   WBC
   17.7
   17.6
   22.7
   Hct
   30.5
   28.9
   27.2
   27.6
   Plt
   285
   215
   207
   171
   Cr
   2.1
   2.0
   2.6
   3.1
   TCO2
   29
   29
   29
   28
   27
   27
   Glucose
   100
   105
   114
   89
   Other labs: PT / PTT / INR:18.8/24.7/1.7, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**7-15**], Alk Phos / T Bili:55/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:3.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:2.1 mmol/L, Albumin:2.8 g/dL, LDH:362 IU/L, Ca++:8.4
   mg/dL, Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
   # Respiratory distress: Patient has primary respiratory acidosis with
   evidence of both primary hypercapneia and hypoxia.  Primary respiratory
   failure is likely from hypercapneia which is presumed to be secondary
   to restrictive lung physiology, likely from complex issues including
   obesity, tissues edema, ascites, and functional dead space.  This
   restrictive physiology appears to improve with BPAP somewhat which
   makes argument that increasing pressure improves ventilation.  Patient
   also with component of hypoxia which may be secondary to areas of lung
   collapse and aspiration.  Chest x-ray does not show large
   reaccumulation of fluid in area where chest tube has previously been
   removed. Patient clinically has been requiring increased oxygen
   requirement and intermittent BPAP for this respiratory acidosis.
   - in terms of improving restrictive pattern of lung failure, will try
   to get IR to do drainage of ascites if possible, do not think that
   chest tube placement will improve restrictive physiology too much,
   however would be worth a try if IP is willing to do it
   - will page IP fellow to figure out time to come this morning
   - cont BPAP to open airways
   - in terms of patient
s hypoxic respiratory distress will treat
   underlying aspiration pneumonia with vanc/zosyn
   -have now had family meeting that has confirmed goal to
fight.
   Patient to be intubated if needed for respiratory status, would
   consider if BPAP if fails this
   -continue fluid restriction to prevent increased restriction on lung
   tissue
   -consider intubation if respiratory status worsens
   # Renal failure: Patient essentially oliguric likely from ATN from
   fluid shifts from malignancy.   Also had functional ureteral
   obstruction, however stenting did not lead to improvement in urine
   outflow.
   - on HD currently, previously on CVVH
   - will talk to renal today about switching patient back to CVVH as will
   be unlikely to be able to manage fluid status without this and as now
   likely not leaving the unit
   - if needs TPN will require CVVH as would not be able to tolerate
   fluids
   #) Hypotension
 again patient is hypotensive with a line that is no
   longer functional
   -          replace a-line this morning
   -          get Svo2 and CVP to assess intravascular volume status
   -          consider either fluid bolus vs. re-starting pressors
   depending on CVP and fluid status
   - patient has previously been steroid responsive, so will re-start
   steroids at stress dose, consider IV albumin as needed to help
   # Malignancy-? Metastatic ovarian cancer- started chemo [**10-1**] day #1
   with carboplatin 200 mg/m2 with BSA of 1.66. consider second dose 21
   days after the first. oncology feels that renal failure and hypotension
   may be related to fluid shifts secondary to malignancy and that the
   only way that she will be able to come off of pressors and HD is to
   treat the cancer
   - Allopurinol to prevent tumor lysis syndrome, unlikely to be a problem
   in this patient with kidneys already knocked out
   -oncology plan to transfer to OMED once medically stable, however given
   that patient will likely require CVVH, do not suspect that patient will
   be able to be trasnferred to the floor
   #) ascites/total body anarsarca
   -          decreased bowel sounds this morning in abdomen, worrisome
   for abdominal compartment syndrome
   -          will check a bladder pressure this morning
   -          plan for IR guided drainage of ascites this morning to help
   # Tachycardia/NSVT: Pt previously tachycardic to 100-130 range. Her HCT
   has been stable, pt has been afebrile and has not had HD or hypotension
   to explain tachycardia. SpO2 looks ok. Pt on Vanc/Zosyn/Fluc for PNA
   and UTI respectively. Patient also had NSVT two nights ago.
   -cardiology consult reccomendations to d/c diltiazem drip and give
   b-blocker IV PRN for NSVT as well as checking electrolytes as runs of
   NSVT have been short
   -continue to monitor I/Os
   -serial ekgs
    # Anemia of chronic disease
   - patient is anemic- iron 27 (low), TIBC 173 (low), ferritin 222
   (high), TRF 133 (low), b12 normal, folate normal, consistent with
   anemia of chronic disease
    #. Hypothyroidism/previous hypotension
 Consulted endocrinology to
   help elucidate if hypothyroidism could be cause of persistent
   hypotension.
   - Monitor for a. fib, on thyroid replacement
   - previously on stress dose steroids for hypotension, now on steroid
   taper, cut dose to 25 IV BID today, would consider cutting to 25 IV
   daily in the next few days as tolerated
   #. Hyperlipidemia - cont home statin dose
   FEN
 currently NPO as on CPAP, previous aspiration events, will
   require either TPN vs. tube feeds, however worry about placing NG tube
   at this time given total body anasarca. Will consult nutrition
   regarding tpn request, however will likely need CVVH if going to get
   TPN otherwise patient should get tube feeds if gets intubated
    Dispo: ICU care.
    Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
    DVT: hep subq
   Stress ulcer: h2 blocker
    Code status: Full code, reconfirmed goals of care on [**10-5**] with family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-06 10:44:00 Physician Attending Progress Note
Chief Complaint: Metastatic Malignancy
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2138-10-5**] 11:46 AM
 PARACENTESIS - At [**2138-10-5**] 11:47 AM
 ARTERIAL LINE - STOP [**2138-10-6**] 06:12 AM
   Family meeting held to update on progression of disease.  Current plan
   is for full code status
   Paracentesis attempted and unable to allow fluid to be removed with ICU
   attempt despite ultrasound imaging to determine location for attempt.
   Chest tube was self discontinued and was initially placed for
   management of effusion.  No replacement at this time.
   A-line removed
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-3**] 01:45 PM
   Fluconazole - [**2138-10-5**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea, With PSV
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2138-10-6**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 96 (81 - 96) bpm
   BP: 110/58(28) {104/0(28) - 110/0(28)} mmHg
   RR: 32 (4 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                    619 mL
                                                                    115 mL
   PO:
             TF:
   IVF:
                                                                    619 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                      8 mL
                                                                      5 mL
   Urine:
                                                                      8 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    611 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (440 - 760) mL
   PS : 16 cmH2O
   RR (Spontaneous): 28
   PEEP: 4 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.31/52/85.[**Numeric Identifier 126**]/25/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   171 K/uL
   89 mg/dL
   3.1 mg/dL
   25 mEq/L
   4.8 mEq/L
   39 mg/dL
   108 mEq/L
   145 mEq/L
   27.6 %
   21.0 K/uL
        [image002.jpg] ABG-7.31/52/85/25 on 6 lpm
                             [**2138-10-2**]  12:05 PM
                             [**2138-10-3**]  04:55 AM
                             [**2138-10-4**]  03:47 AM
                             [**2138-10-4**]  07:13 PM
                             [**2138-10-5**]  05:00 AM
                             [**2138-10-5**]  05:02 AM
                             [**2138-10-5**]  02:16 PM
                             [**2138-10-5**]  08:05 PM
                             [**2138-10-6**]  01:15 AM
                             [**2138-10-6**]  04:28 AM
   WBC
   17.7
   17.6
   22.7
   21.0
   Hct
   30.5
   28.9
   27.2
   27.6
   Plt
   285
   215
   207
   171
   Cr
   2.1
   2.0
   2.6
   3.1
   TCO2
   29
   29
   29
   28
   27
   27
   Glucose
   100
   105
   114
   89
   Other labs: PT / PTT / INR:18.8/24.7/1.7, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**7-15**], Alk Phos / T Bili:55/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:3.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:2.1 mmol/L, Albumin:2.8 g/dL, LDH:362 IU/L, Ca++:8.4
   mg/dL, Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR-HD catheter unchanged.  Left effusion unchanged, obesity
   noted.
   Assessment and Plan
   74 yo female with likely diagnosis of metastatic malignancy leading to
   ureteral obstruction and need for ureteral stenting.  She now has moved
   to need for renal replacement therapy and has hospital course
   complicated by intermittent worsening of respiratory status and has
   initiated palliative chemotherapy.  Issues of managment of ascites and
   effusions have been important in allowing palliation to be completed.
   Her renal function continues to remain one of dialysis dependent
   anuria.  Current chemotherapy has been directed at what may likely be
   ovarian source but this remains to be proven definatively.
   Acute Respiratory Failure-
   Hypercapnic
   -this appears to be overall initially hypercarbic and is acute
   respiratory acidosis.  The sources of this are most likely related to
   significant restriction of chest wall with obesity, effusion, ascites
   which are related to her underlying obesity and evolution of her
   underlying malignancy.  This may have a reasonable capacity to be
   improved with additional support via [**Hospital1 **]-level support.
   -There is likely an issue with the pattern of rapid shallow breaths
   with overall increase physiologic dead space.
   -To improve her overall ventilation we will need to
   -Tap Ascites if significant
   -Drain pleural effusion if significant and both of these things need
   further definition on repeat imaging.
   -Maintain negative fluid balance
   -BIPAP as needed
   -Will need intubation given worsening over time unless rapid fluid
   removal is undertaken.  She may need intubation for procedures if
   travel is required
   Hypoxemic
   -This may well be related to volume overload and pulmonary edema as
   well as areas of collapse and shunt with concern for aspiration and
   infection contributing.  This will require continued supplemental
   oxygen and PEEP to allow time for resolution of acute insults.
   -Continue with SBX for possible HAP-Vanco/Zosyn/Fluc
   -Attempt to move to negative fluid balance
   -Maintain reasonable PEEP with NIV and ETT if needed.  Likely move to
   intubation as need for
   Hypotension
This has evolved over past hours/days and concern is for
   depleted intravascular volume and possible evolution of new infectious
   insult but the differential diagnosis is broad
   -Arterial catheter needed
   -CVL needed to allow adequate support of hemodynamics in the setting of
   persistent hypotension if that is documented
   -return to full dose steroids
   -Culture sent
   -ECG repeated
   -Will need to consider return to pressors to allow some fluid removal
   and will need access for this.
   Acute Renal Failure-This is in part due to obstruction of drainage
   system and complicated by hypotension transiently of late.  There is no
   return of significant urine output or renal function even in the
   setting of stenting.  This may be ATN and component of abdominal
   compartment syndrome and hypotension requiring pressors.  No evidence
   of return of function.
   -Check bladder pressure
   -Move to CVVH given transient drops in blood pressure and need for
   tight control of volume.
   -Will need to continue with colloid support as possible for
   hypotension.
   Metastatic Malignancy-This is being managed in consultation with
   oncology and current dosing of all interventions is aimed at
   palliation.  Does need continued consideration of need for support of
   tumor lysis in setting of limited capacity to provide po medications.
   Next dose in 3 weeks.
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Will need family meeting with oncology
   present to consider clinical course.
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2138-10-07 07:14:00 Physician Resident Progress Note
Chief Complaint: 74 year old female with likely metastatic ovarian
   cancer now with multiorgan system failure s/p palliative chemotherapy
   x1.
   24 Hour Events:
 PARACENTESIS - At [**2138-10-6**] 04:00 PM
 ARTERIAL LINE - START [**2138-10-6**] 04:00 PM
 EKG - At [**2138-10-6**] 09:00 PM
 NON-INVASIVE VENTILATION - START [**2138-10-6**] 09:17 PM
 INVASIVE VENTILATION - START [**2138-10-7**] 02:08 AM
 SPUTUM CULTURE - At [**2138-10-7**] 02:24 AM
   Yesterday patient underwent IR guided drainage of paracenetesis. 3 L of
   fluid was removed. Patient also got 3L removed via HD. As per Dr. [**Last Name (STitle) 1478**],
   paged IP multiple times and IP asked for update, do not see new note
   from IP. Will again attempt to contact IP today.  Overnight patient had
   to be emergently intubated for increasing acidemia, increased
   respiration and rising pCO2. Patient also was re-started on lveofed for
   hypotension. Family meeting again repeated yesterday and decision again
   made to continue aggressive care despite the fact that recovery is
   extremely unlikely.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2138-10-6**] 08:00 AM
   Vancomycin - [**2138-10-6**] 12:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-7**] 01:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-6**] 10:09 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2138-10-7**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 99 (91 - 111) bpm
   BP: 121/73(93) {98/53(71) - 126/73(94)} mmHg
   RR: 27 (3 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
    Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  2,072 mL
                                                                    786 mL
   PO:
   TF:
   IVF:
                                                                    917 mL
                                                                    400 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                  6,050 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -3,978 mL
                                                                    786 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 561 (440 - 561) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 40 cmH2O
   Plateau: 36 cmH2O
   SpO2: 99%
   ABG: 7.21/60/118/24/-5
   Ve: 9.6 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, no murmur
   appreciated
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilaterally worse on
   right than left)
   Abdominal: Soft, Non-tender, Distended, hypoactive bowel sounds
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   180 K/uL
   9.9 g/dL
   223 mg/dL
   2.8 mg/dL
   24 mEq/L
   4.8 mEq/L
   37 mg/dL
   110 mEq/L
   142 mEq/L
   30.7 %
   29.6 K/uL
        [image002.jpg]
                             [**2138-10-5**]  02:16 PM
                             [**2138-10-5**]  08:05 PM
                             [**2138-10-6**]  01:15 AM
                             [**2138-10-6**]  04:28 AM
                             [**2138-10-6**]  09:34 PM
                             [**2138-10-6**]  09:53 PM
                             [**2138-10-7**]  12:58 AM
                             [**2138-10-7**]  03:01 AM
                             [**2138-10-7**]  03:27 AM
                             [**2138-10-7**]  06:14 AM
   WBC
   21.0
   29.6
   Hct
   27.6
   30.7
   Plt
   171
   180
   Cr
   3.1
   2.8
   2.8
   TCO2
   28
   27
   27
   26
   27
   25
   25
   Glucose
   89
   153
   223
   Other labs: PT / PTT / INR:15.2/26.2/1.3, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**9-16**], Alk Phos / T Bili:67/0.7, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:3.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:2.1 mmol/L, Albumin:2.8 g/dL, LDH:387 IU/L, Ca++:8.2
   mg/dL, Mg++:2.3 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
   # Respiratory distress: Patient has primary respiratory acidosis with
   evidence of both primary hypercapneia and hypoxia.  Primary respiratory
   failure is likely from hypercapneia which is presumed to be secondary
   to restrictive lung physiology, likely from complex issues including
   obesity, tissues edema, ascites, and functional dead space.  This
   restrictive physiology appears to have improved somewhat with BPAP
   somewhat which makes argument that increasing pressure improves
   ventilation.  However, with worsening academia and hypercarbia patient
   required emergent intubation overnight. Patient also with component of
   hypoxia which may be secondary to areas of lung collapse and
   aspiration.  Chest x-ray does not show large reaccumulation of fluid in
   area where chest tube has previously been removed. Patient clinically
   has been requiring increased oxygen requirement and intermittent BPAP
   for this respiratory acidosis.
   - 3L paracenetesis yesterday to aid with chest wall compliance without
   impressive result
   - IP to put drain today
   - now intubated and mechanically ventilated with vent settings as
   above, no attempts to wean off ventilation at this time
   - will check esophageal pressure as patient with elevated peak
   pressures
   - increase PEEP to see in increase compliance of lungs while measuring
   esophageal pressure
   - consider CT torso to look at whole torso
 likely not today as
   patient is very tenous
   - in terms of patient
s hypoxic respiratory distress will treat
   underlying aspiration pneumonia with vanc/zosyn
   - continue full aggressive care as per family
   -continue fluid restriction to prevent increased restriction on lung
   tissue
    # Renal failure: Patient essentially oliguric likely from ATN from
   fluid shifts from malignancy.   Also had functional ureteral
   obstruction, however stenting did not lead to improvement in urine
   outflow.
   - on HD currently, yesterday removed 3L at dialysis, previously on CVVH
   -discussed with renal fellow need to start CVVH today in the setting of
   TPN and being on pressors, will follow up with plan for CVVH
    #) Hypotension
 again patient is hypotensive with a line that is no
   longer functional
   - a line replaced yesterday
   -  6L off total yesterday, started on levofed again for marginal
   pressures
   - patient has previously been steroid responsive, so re-started
   steroids at stress dose, consider IV albumin as needed to help
   # Malignancy-? Metastatic ovarian cancer- started chemo [**10-1**] day #1
   with carboplatin 200 mg/m2 with BSA of 1.66. consider second dose 21
   days after the first. oncology feels that renal failure and hypotension
   may be related to fluid shifts secondary to malignancy and that the
   only way that she will be able to come off of pressors and HD is to
   treat the cancer
   - Allopurinol to prevent tumor lysis syndrome, however suspect that
   unnecessary at this point given lack of kidney function
   -appreciate onc recs, would continue to appreciate onc
s input to
   family on hopes of chemotherapy as clearly there is a lack of
   understanding about longterm prognosis despite multiple attempts to
   explain
    #) ascites/total body anarsarca
   - decreased bowel sounds this morning in abdomen, worrisome for
   abdominal compartment syndrome
   -  bladder pressure yesterday measure
   -   now s/p 3L removal of fluid from ascites
     # Anemia of chronic disease
   - patient is anemic- iron 27 (low), TIBC 173 (low), ferritin 222
   (high), TRF 133 (low), b12 normal, folate normal, consistent with
   anemia of chronic disease
    #. Hypothyroidism/previous hypotension
 Consulted endocrinology to
   help elucidate if hypothyroidism could be cause of persistent
   hypotension.
   - Monitor for a. fib, on thyroid replacement
   #. Hyperlipidemia - cont home statin dose
    # FEN
 started TPN yesterday, will require likely CVVH to pull off
   fluid continuously, replete lytes PRN
   Consider starting insulin drip as glucose has been more out of control
   in the setting of stress dose steroids
   Dispo: ICU care, cont to address goals of care with family
    Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Prophylaxis:
    DVT: hep subq
   Stress ulcer: h2 blocker
    Code status: Full code, reconfirmed goals of care on [**10-5**] with family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2138-10-6**] 07:00 PM 56 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-07 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2138-10-6**] 04:00 PM--3 liters removed
 ARTERIAL LINE - START [**2138-10-6**] 04:00 PM
 EKG - At [**2138-10-6**] 09:00 PM
 NON-INVASIVE VENTILATION - START [**2138-10-6**] 09:17 PM
 INVASIVE VENTILATION - START [**2138-10-7**] 02:08 AM
 SPUTUM CULTURE - At [**2138-10-7**] 02:24 AM
   3 Liters negative at dialysis
   Despite these events patient had progressive hypercarbia and required
   intubation in that setting.  Peri-intubation patient did have support
   with vasopressors.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2138-10-6**] 08:00 AM
   Vancomycin - [**2138-10-6**] 12:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-7**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-6**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-7**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 95 (94 - 111) bpm
   BP: 115/67(86) {98/53(71) - 126/73(94)} mmHg
   RR: 27 (3 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
   Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  2,072 mL
                                                                  1,207 mL
   PO:
   TF:
   IVF:
                                                                    917 mL
                                                                    622 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                  6,050 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -3,978 mL
                                                                  1,207 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 561 (450 - 561) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 42 cmH2O
   Plateau: 38 cmH2O
   SpO2: 99%
   ABG: 7.25/54/128/24/-4
   Ve: 9.7 L/min
   PaO2 / FiO2: 256
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   180 K/uL
   223 mg/dL
   2.8 mg/dL
   24 mEq/L
   4.8 mEq/L
   37 mg/dL
   110 mEq/L
   142 mEq/L
   30.7 %
   29.6 K/uL
        [image002.jpg]
                             [**2138-10-5**]  08:05 PM
                             [**2138-10-6**]  01:15 AM
                             [**2138-10-6**]  04:28 AM
                             [**2138-10-6**]  09:34 PM
                             [**2138-10-6**]  09:53 PM
                             [**2138-10-7**]  12:58 AM
                             [**2138-10-7**]  03:01 AM
                             [**2138-10-7**]  03:27 AM
                             [**2138-10-7**]  06:14 AM
                             [**2138-10-7**]  07:01 AM
   WBC
   21.0
   29.6
   Hct
   27.6
   30.7
   Plt
   171
   180
   Cr
   3.1
   2.8
   2.8
   TCO2
   27
   27
   26
   27
   25
   25
   25
   Glucose
   89
   153
   223
   Other labs: PT / PTT / INR:15.2/26.2/1.3, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**9-16**], Alk Phos / T Bili:67/0.7, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:3.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:387 IU/L, Ca++:8.2
   mg/dL, Mg++:2.3 mg/dL, PO4:5.2 mg/dL
   Imaging: CXR-ETT in good position, HD catheter not changed, suggestion
   of increased right sided effusion.
   Assessment and Plan
   74 yo female with significant evidence of metastatic malignancy with
   suspected ovarian primary.  She has had initial dose of chemotherapy
   but has had progression of total body overload and progressive
   hypoxemia and hypercarbia now with respiratory failure despite optimal
   efforts to allow patient to maintain ventilation while extubated.
   Despite 6 liters of negative fluid balance and intermittent BIPAP
   support she now has had progressive respiratory failure.  She remains
   in renal failure requiring dialysis.  In addition, hypotension which
   may well be a combination of impaired venous return and vasodilated
   state is now persistent and requiring vasopressor support.
   1)Respiratory Failure-Acute
   -This is related to chest wall restriction which failed to respond to
   optimal efforts at volume removal.  Weakness certainly may be playing a
   role as well but does not appear to be the primary insult with such
   significant chest wall restriction.  We do have an absence of data to
   determine the optimal PEEP for her support although with capacity to
   wean down FIO2 rapidly certainly some meaningful support has been
   achieved.
   -On rounds (with some cuff leak) there is a suggestion of increased
   PIP
Pplat difference and autoPEEP of 2 which suggestes some possible
   small airways obstruction.
   -Her hypoxemia is likely related to areas of collapse and there is
   significant concern for intermittent aspiration as well.
   -Will need to titrate support as needed over time.
   -Continue with steroid Rx and bronchodilators given suggestion of
   airways obstruction.
   -Some of this may be related to ventilation at decreased lung volumes
   rather than bronchospasm so will have to move to optimize PEEP
   -Trial increase PEEP to 12 and evaluate compliance in an attempt to
   determine the patient
s P/V curve to allow PEEP optimization
   -Ve is elevated but Vd/Vt is likely excessive given RR-25/Vt=400 and
   PCO2=54
this will require continued optimization of pressures at which
   we are ventilating
   -Effusion is under evaluation but do not see clear evidence of effusion
   being a primary driver of failure but will have IP evaluation.
   -Vanco/Zosyn/Fluconazole for possible pulmonary infection.
   -Will evaluate Peos for optimal PEEP
   2)Hypotension
   -Hydrocortisone 50mg q 6 hours
   -Levophed in place and with reasonable support achieved
   -Source remains to be defined definatively
we know there is background
   preserved cardiac function
   -Will need to evaluate CvO2 to aid in definition of support but suspect
   vasodilated state
   -CVL placement today
   3)Renal Failure-_Acute
   -CVVH today given hypotension
   4)Malignancy-Metastatic
   -Chemotherapy given
   -Continued clinical decline
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2138-10-6**] 07:00 PM 56 mL/hour/Will add insulin to
   regimen
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2138-10-08 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2138-10-7**] 12:30 PM- high intrathroracic
   pressure, plateau pressure 34
 CHEST TUBE PLACED - At [**2138-10-7**] 01:30 PM-L pigtail catheter by IP
 MULTI LUMEN - START [**2138-10-7**] 03:09 PM  L subclavian
   -MV increased RR to 27 given low PH, improved BP and increased bicarb
   on CVVH
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2138-10-7**] 08:00 AM
   Vancomycin - [**2138-10-7**] 06:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-8**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-7**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-7**] 09:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   HEENT: NCAT MMM R IJ line in place
   CV:  RRR S1S2
   PULM: crackles at bl bases, otherwise clear while supine
   ABD: soft with decreased distension, hypoactive bs, no palpable masses
   EXT: warm, slightly decreased peripheral edema, DP pulses not palpable,
   no cyanosis
   SKIN: no new rashes, lesions. Unable to evaluate back, presacral area
   as pt supine
   NEURO: sedated
   Flowsheet Data as of  [**2138-10-8**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 90 (73 - 96) bpm
   BP: 99/62(77) {99/61(76) - 139/81(103)} mmHg
   RR: 27 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  4,855 mL
                                                                  2,466 mL
   PO:
             TF:
   IVF:
                                                                  3,585 mL
                                                                  2,179 mL
   Blood products:
   Total out:
                                                                  5,113 mL
                                                                  3,702 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -258 mL
                                                                 -1,236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 401) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 47 cmH2O
   Plateau: 44 cmH2O
   Compliance: 12.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/39/116/22/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   10.2 g/dL
   197 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.2 mEq/L
   36 mg/dL
   104 mEq/L
   139 mEq/L
   31.4 %
   30.4 K/uL
        [image002.jpg]
                             [**2138-10-7**]  06:14 AM
                             [**2138-10-7**]  07:01 AM
                             [**2138-10-7**]  01:59 PM
                             [**2138-10-7**]  02:17 PM
                             [**2138-10-7**]  07:51 PM
                             [**2138-10-7**]  08:10 PM
                             [**2138-10-8**]  12:13 AM
                             [**2138-10-8**]  12:24 AM
                             [**2138-10-8**]  05:22 AM
                             [**2138-10-8**]  05:39 AM
   WBC
   30.4
   Hct
   31.4
   Plt
   105
   Cr
   2.9
   2.4
   2.2
   TCO2
   25
   25
   22
   22
   24
   24
   Glucose
   [**Telephone/Fax (3) 1772**]97
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-20**], Alk Phos / T Bili:79/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:448 IU/L, Ca++:8.3
   mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
   # Respiratory failure: Restrictive physiology given significant
   ascites, pleural effusions likely [**2-22**] underlying malignancy and
   multiple aspiration events. Day 2 of intubation. On starting CVVH
   patient developed a metabolic acidosis, RR increased on vent settings.
   Patient continues to have high plateu pressures, on PEEP 12, RR27 and
   TV 400. Will likely come down on TV today to adjust for increased
   pressures however may need to go up on FIO2 later if patient is not
   oxygenating as well. Pig tail catheter was placed yesterday by IP which
   drained upwards of 4L since placement.  CXR showing placement to be ?
   in the abdomen as the pleural effusions have not improved significantly
   (although it is possible the fluid is reaccumulating as quickly). IP is
   also debating putting in chest tube on opposite side, however it is
   debatable how much difference this will make.
   -no attempt to wean at this time; adjust TV to 350 and monitor. If
   pressures not improved consider decreasing PEEP (currently 12)
   -adjust FIO2 as needed if pt hypoxic on vent
   -CT torso to evaluate placement of L chest tube
   -IP to place R sided chest tube
   -monitor pigtail output
   -continue on vanco, zosyn for 2 week course for HAP
    # Renal failure: Initially ARF now patient on CVVH; adjusted yesterday
   by renal for metabolic acidosis and hypotension.
   -monitor renal recs
   -monitor electrolytes closely
   -fluid restrict given fluid overload state
   -on levophed for hypotension
   -continue fluconazole for urine yeast infection
    #) Hypotension
 Her HD instability is likely related to underlying
   malignancy causing large fluid shifts including pleural effusions and
   ascites. However at this point need to consider other etiologies such
   as tamponade. Patient on levophed, hydrocortisone, new L subclavian
   line for CVP monitoring.
   - CVP, mixed venous sat, PaCO2-PvCO2 to work-up hypotension
   - TTE to r/o tamponade
   - continue hydrocortisone IV 50mg q6h
   -continue levophed and wean as tolerated
   -consider albumin to increase IV volume
   # Malignancy-Patient with presumed metastatic ovarian cancer. 1 dose of
   chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of 1.66.
   Tentative plan of second dose 21 days after the first if patient
   responds to first dose after several days. According to oncology,
   patients WBC may not drop for another 10-14days which will indicate
   whether first dose was adequate and/or if treatment is working. At this
   point there is no utility in following further cytology- thus far her
   pleural fluid was consistent with metastatic adenocarcinoma, possibly
   primary ovarian ca. Onc attending has spoken to family at length and
   they are aware that this is not a curative intervention, rather it may
   help to get her home and prolong life for some number of months. On CT
   being done today will be able to evaluate if mass has changed in size
   since last imaging study earlier on admission.
   -f/u onc recommendations
   -CT scan today
    # Anemia of chronic disease
   - patient is anemic- iron 27 (low), TIBC 173 (low), ferritin 222
   (high), TRF 133 (low), b12 normal, folate normal, consistent with
   anemia of chronic disease
   -continue folic acid IV
    # Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - continue levothyroxine
   # Tachycardia, NSVT- Cardiology consulted and will now sign off as
   patient has been HD stable without recurrence of these episodes.
   Episodes may be correlated to patient being moved, suctioned while on
   vent, or while receiving albuterol nebs.
   -telemetry
   #. Hyperlipidemia - cont home statin dose
    # FEN
 TPN (volume decreased yesterday with increased insulin), f/u
   nutrition recs, CVVH, replete lytes PRN
    Dispo: ICU care, cont to address goals of care with family
    Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   L subclavian line - [**2138-10-7**] 03:09 PM
   Prophylaxis: heparin sq, PPI IV
    Code status: Full code, reconfirmed goals of care on [**10-5**] with family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   TPN without Lipids - [**2138-10-7**] 06:20 PM 43 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-08 10:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2138-10-7**] 12:30 PM
 CHEST TUBE PLACED - At [**2138-10-7**] 01:30 PM
 MULTI LUMEN - START [**2138-10-7**] 03:09 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-7**] 06:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-8**] 04:00 AM
   Fluconazole - [**2138-10-8**] 08:12 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-7**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-7**] 09:42 PM
   Heparin Sodium - [**2138-10-8**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-8**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 76 (73 - 96) bpm
   BP: 115/68(86) {99/61(76) - 139/81(103)} mmHg
   RR: 27 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  4,855 mL
                                                                  3,982 mL
   PO:
             TF:
   IVF:
                                                                  3,585 mL
                                                                  3,526 mL
   Blood products:
   Total out:
                                                                  5,113 mL
                                                                  5,186 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -258 mL
                                                                 -1,204 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 401) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 50 cmH2O
   Plateau: 49 cmH2O
   Compliance: 11.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/39/116/22/-1
   Ve: 11.3 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   105 K/uL
   197 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.2 mEq/L
   36 mg/dL
   104 mEq/L
   139 mEq/L
   31.4 %
   30.4 K/uL
        [image002.jpg]
                             [**2138-10-7**]  06:14 AM
                             [**2138-10-7**]  07:01 AM
                             [**2138-10-7**]  01:59 PM
                             [**2138-10-7**]  02:17 PM
                             [**2138-10-7**]  07:51 PM
                             [**2138-10-7**]  08:10 PM
                             [**2138-10-8**]  12:13 AM
                             [**2138-10-8**]  12:24 AM
                             [**2138-10-8**]  05:22 AM
                             [**2138-10-8**]  05:39 AM
   WBC
   30.4
   Hct
   31.4
   Plt
   105
   Cr
   2.9
   2.4
   2.2
   TCO2
   25
   25
   22
   22
   24
   24
   Glucose
   [**Telephone/Fax (3) 1772**]97
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:[**12-20**], Alk Phos / T Bili:79/0.6, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:448 IU/L, Ca++:8.3
   mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR-Left effusion without significant change, left pig tail
   catheter appears low in position, left SCL in good position, Esophageal
   balloon appears high in position, Right sided catheter in good
   position, NGT to stomach
   Assessment and Plan
   74 yo female with metastatic, likely ovarian cancer now with evolution
   of significant respiratory failure and hypotension.  She has had
   drainage of ascitic fluid and drainage of left chest fluid via catheter
   and although there has been significant drainage of fluid from the left
   chest there has been minimal change in the compliance of the
   respiratory system or oxygenation.  In addition she has had persistent
   and signficant hypotension which is likely related to systemic
   inflammatory response and a picture of sepsis.
   1)Respiratory Failure-Have attempted multiple approaches to optimize
   ventilation.  This is likely attributalbe to significant chest wall
   restriction and what was in large part hypercapnic respiratory failure
   and now with associated hypoxemia.  We have been able to provide
   reasonable support with PEEP titration and maintained adequate
   ventilatory support.  Of major concern is the persistent and
   significant elevation in plateau pressures of >40.  This raises some
   significant concern.
   -Will need to decrease Vt to get to Pplat <40 at a minimum
   -Will increase respiratory rate to allow maintenance of adequate
   ventilation with goal 10 lpm
   -Will decrease PEEP only if this maneuver is not effective at achieving
   reduction
   -Will reposition/replace the esophageal balloon to allow adequate
   assessment of trans-pulmonar pressure
   -Keep FIO2
   -Will consider tap or right sided effusion to allow optimization of
   pulmonary mechanics given inability to maintain safe levels of support.
   2)Pleural Effusion-
   -We have catheter in left side of chest with brisk drainage but minimal
   change in pleural effusion size.  This may represent drainage of
   briskly accumulating effusion, it would be important to maintain a
   clear documentation of the tube placement
   -Maintain on water seal
   -Chest/Abd CT to evaluate nature of restriction and placement of the
   left sided chest tube
   -Disucssion with IP of placement of right sided chest tube
   2)Hypotension-We have persistent hypotension and CVP and Cvo2 will be
   essential to follow for consideration of source and treatment.
   Hydrocortisone and Levophed in place for support.
   -Will need to determine CvO2 and CVP to evaluate contribution from all
   possible sources of sepsis
   -Intervention based upon findings will hopefully allow wean of
   levophed.
   3)Renal Failure-
   -CVVH to continue
   -Appreciate renal support
   -Goal is to maintain negative fluid balance as possible
   3)Ovarian Cancer-
   -Appreciate oncology support
   -Will consider timing of further chemotherapy but will have to await
   nadir of counts to consider if aequate dosing has been completed for
   chemotherapy Rx to consider therapeutic response.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2138-10-7**] 06:20 PM 43 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2138-10-09 07:02:00 Physician Resident Progress Note
Chief Complaint: Hypotension, renal failure, ascities, anasarca.
   24 Hour Events:
 CHEST TUBE PLACED - At [**2138-10-8**] 04:00 PM
 BLOOD CULTURED - At [**2138-10-8**] 06:00 PM
   - Left chest tube through diaphragm into peritoneal cavity on CT scan,
   so IP pulled back
   - IP placed right chest tube as well
   - Patient weaned down levophed up to 0.1
   - On CVVH
   - Got bolused for hypotension with measured CVP 12 for goal of 16
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2138-10-8**] 08:12 AM
   Vancomycin - [**2138-10-8**] 05:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-9**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2138-10-8**] 01:32 PM
   Pantoprazole (Protonix) - [**2138-10-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-9**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.5
C (95.9
   HR: 67 (65 - 96) bpm
   BP: 109/62(80) {95/57(72) - 147/86(109)} mmHg
   RR: 27 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 14 (10 - 17)mmHg
   CO/CI (Fick): (7.2 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  8,612 mL
                                                                  3,559 mL
   PO:
   TF:
   IVF:
                                                                  7,673 mL
                                                                  3,205 mL
   Blood products:
   Total out:
                                                                  8,087 mL
                                                                  3,410 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 40 cmH2O
   Compliance: 12.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/41/204/23/-1
   Ve: 10.1 L/min
   PaO2 / FiO2: 510
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), Very
   hard to assess since patient on anasarca.
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended, Obese, On anasarca; abdominal wall
   all edematous and hard.
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm, Pt on bear hug; so diffcult to assess temperature. No
   rash.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   51 K/uL
   8.6 g/dL
   155 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   34 mg/dL
   103 mEq/L
   135 mEq/L
   25.8 %
   24.1 K/uL
        [image002.jpg]
                             [**2138-10-8**]  12:24 AM
                             [**2138-10-8**]  05:22 AM
                             [**2138-10-8**]  05:39 AM
                             [**2138-10-8**]  11:30 AM
                             [**2138-10-8**]  12:15 PM
                             [**2138-10-8**]  05:57 PM
                             [**2138-10-8**]  06:25 PM
                             [**2138-10-9**]  12:16 AM
                             [**2138-10-9**]  06:00 AM
                             [**2138-10-9**]  06:01 AM
   WBC
   30.4
   24.1
   Hct
   31.4
   29.6
   25.8
   Plt
   105
   51
   Cr
   2.2
   2.1
   1.7
   TCO2
   24
   24
   25
   24
   26
   25
   Glucose
   197
   173
   135
   160
   155
   Other labs: PT / PTT / INR:12.8/25.7/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:15/34, Alk Phos / T Bili:94/0.5, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:1.5 g/dL, LDH:358 IU/L, Ca++:7.6
   mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
   # Respiratory failure: Restrictive physiology given significant
   ascites, pleural effusions likely [**2-22**] underlying malignancy and
   multiple aspiration events. Day 2 of intubation. On starting CVVH
   patient developed a metabolic acidosis, RR increased on vent settings.
   Patient continues to have high plateu pressures, on PEEP 12, RR27 and
   TV 400. Will likely come down on TV today to adjust for increased
   pressures however may need to go up on FIO2 later if patient is not
   oxygenating as well. Pig tail catheter was placed yesterday by IP which
   drained upwards of 4L since placement.  CXR showing placement to be ?
   in the abdomen as the pleural effusions have not improved significantly
   (although it is possible the fluid is reaccumulating as quickly). IP is
   also debating putting in chest tube on opposite side, however it is
   debatable how much difference this will make.
   -no attempt to wean at this time; adjust TV to 350 and monitor. If
   pressures not improved consider decreasing PEEP (currently 12)
   -adjust FIO2 as needed if pt hypoxic on vent
   -CT torso to evaluate placement of L chest tube
   -IP to place R sided chest tube
   -monitor pigtail output
   -continue on vanco, zosyn for 2 week course for HAP
    # Renal failure: Initially ARF now patient on CVVH; adjusted yesterday
   by renal for metabolic acidosis and hypotension.
   -monitor renal recs
   -monitor electrolytes closely
   -fluid restrict given fluid overload state
   -on levophed for hypotension
   -continue fluconazole for urine yeast infection
    #) Hypotension
 Her HD instability is likely related to underlying
   malignancy causing large fluid shifts including pleural effusions and
   ascites. However at this point need to consider other etiologies such
   as tamponade. Patient on levophed, hydrocortisone, new L subclavian
   line for CVP monitoring.
   - CVP, mixed venous sat, PaCO2-PvCO2 to work-up hypotension
   - TTE to r/o tamponade
   - continue hydrocortisone IV 50mg q6h
   -continue levophed and wean as tolerated
   -consider albumin to increase IV volume
   # Malignancy-Patient with presumed metastatic ovarian cancer. 1 dose of
   chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of 1.66.
   Tentative plan of second dose 21 days after the first if patient
   responds to first dose after several days. According to oncology,
   patients WBC may not drop for another 10-14days which will indicate
   whether first dose was adequate and/or if treatment is working. At this
   point there is no utility in following further cytology- thus far her
   pleural fluid was consistent with metastatic adenocarcinoma, possibly
   primary ovarian ca. Onc attending has spoken to family at length and
   they are aware that this is not a curative intervention, rather it may
   help to get her home and prolong life for some number of months. On CT
   being done today will be able to evaluate if mass has changed in size
   since last imaging study earlier on admission.
   -f/u onc recommendations
   -CT scan today
    # Anemia of chronic disease
   - patient is anemic- iron 27 (low), TIBC 173 (low), ferritin 222
   (high), TRF 133 (low), b12 normal, folate normal, consistent with
   anemia of chronic disease
   -continue folic acid IV
    # Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - continue levothyroxine
   # Tachycardia, NSVT- Cardiology consulted and will now sign off as
   patient has been HD stable without recurrence of these episodes.
   Episodes may be correlated to patient being moved, suctioned while on
   vent, or while receiving albuterol nebs.
   -telemetry
   #. Hyperlipidemia - cont home statin dose
    # FEN
 TPN (volume decreased yesterday with increased insulin), f/u
   nutrition recs, CVVH, replete lytes PRN
    Dispo: ICU care, cont to address goals of care with family
    Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   L subclavian line - [**2138-10-7**] 03:09 PM
   Prophylaxis: heparin sq, PPI IV
    Code status: Full code, reconfirmed goals of care on [**10-5**] with family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   TPN without Lipids - [**2138-10-8**] 05:29 PM 51 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-09 11:37:00 Physician Attending Progress Note
Chief Complaint: respirataory failure.
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   74 yo women with ovarian CA, acute renal failure.  Got chemo on [**9-29**].
   Ureteral stent placed.  Has been on CVVH.  Intubated two nights ago for
   hypercarbic respiratory failure.    Had left chest tube mistakingly
   placed in abdomen that drained ascites fluid.   Had chest tube replaced
   into thorax.  Had another pig tail placed on right 1L drained.  Has
   been on levophed for HOTN.
   24 Hour Events:
 CHEST TUBE PLACED - At [**2138-10-8**] 04:00 PM
 BLOOD CULTURED - At [**2138-10-8**] 06:00 PM
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-8**] 05:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-9**] 04:00 AM
   Fluconazole - [**2138-10-9**] 07:54 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2138-10-8**] 01:32 PM
   Pantoprazole (Protonix) - [**2138-10-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-9**] 07:54 AM
   Other medications:
   hydrocort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-9**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.3
C (95.6
   HR: 69 (65 - 96) bpm
   BP: 94/56(71) {94/56(71) - 147/86(109)} mmHg
   RR: 0 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 10 (10 - 17)mmHg
   CO/CI (Fick): (7.2 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  8,612 mL
                                                                  5,208 mL
   PO:
   TF:
   IVF:
                                                                  7,673 mL
                                                                  4,647 mL
   Blood products:
   Total out:
                                                                  8,087 mL
                                                                  5,252 mL
   Urine:
                                                                     15 mL
                                                                      2 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 35 cmH2O
   Compliance: 14 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/46/190/23/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 475
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   51 K/uL
   155 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   34 mg/dL
   103 mEq/L
   135 mEq/L
   25.8 %
   24.1 K/uL
        [image002.jpg]
                             [**2138-10-8**]  05:22 AM
                             [**2138-10-8**]  05:39 AM
                             [**2138-10-8**]  11:30 AM
                             [**2138-10-8**]  12:15 PM
                             [**2138-10-8**]  05:57 PM
                             [**2138-10-8**]  06:25 PM
                             [**2138-10-9**]  12:16 AM
                             [**2138-10-9**]  06:00 AM
                             [**2138-10-9**]  06:01 AM
                             [**2138-10-9**]  08:46 AM
   WBC
   30.4
   24.1
   Hct
   31.4
   29.6
   25.8
   Plt
   105
   51
   Cr
   2.2
   2.1
   1.7
   TCO2
   24
   25
   24
   26
   25
   26
   Glucose
   197
   173
   135
   160
   155
   Other labs: PT / PTT / INR:13.4/25.7/1.2, CK / CKMB / Troponin-T:130//,
   ALT / AST:15/34, Alk Phos / T Bili:94/0.5, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:1.5 g/dL, LDH:358 IU/L, Ca++:7.6
   mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Microbiology: Blood cx:  ESBL
   Assessment and Plan
   Respiratory Failure:  Due to large effusions, fluid overload, obesity
   with poor chest wall compliance.  Excellent oxygenation.  Decrease
   Peep.  Will try PSV.
   HOTN, elevated WBC. Had ESBL in sputum, will try to treat with
   meropenem and see if it improves WBC or BP.
                   - Although CVP is low, she is grossly fluid overloaded.
   Ovarian CA.
   F/E/N TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2138-10-8**] 05:29 PM 51 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-10-10 07:52:00 Physician Resident Progress Note
Chief Complaint: ARF
   24 Hour Events:
   Oxygenation markedly improved. Now on pressure support [**12-26**].
   Patient weaned of pressors; now on 0.06 of NE
   1U PRBC for hct 25 and low IV volume; type and cross ordered for next
   rounds
   Off fentanyl.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2138-10-9**] 07:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-9**] 11:00 AM
   Vancomycin - [**2138-10-9**] 05:52 PM
   Meropenem - [**2138-10-10**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2138-10-9**] 12:41 PM
   Heparin Sodium - [**2138-10-9**] 02:20 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-10**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 90 (68 - 99) bpm
   BP: 101/58(74) {93/52(68) - 122/77(95)} mmHg
   RR: 20 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 12 (8 - 12)mmHg
   Total In:
                                                                 10,634 mL
                                                                  2,845 mL
   PO:
   TF:
   IVF:
                                                                  8,977 mL
                                                                  2,360 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 10,419 mL
                                                                  2,501 mL
   Urine:
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    215 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 370 (0 - 370) mL
   PS : 12 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 17.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/49/128/28/1
   Ve: 10.4 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anasarca
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present),
   Hard to assess due to edema
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   Edematous walls, non-tense in non-edematous areas.
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, Tone:
   Normal
   Labs / Radiology
   57 K/uL
   10.1 g/dL
   154 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   30 mg/dL
   101 mEq/L
   136 mEq/L
   30.3 %
   21.8 K/uL
        [image002.jpg]
                             [**2138-10-9**]  11:41 AM
                             [**2138-10-9**]  12:31 PM
                             [**2138-10-9**]  05:30 PM
                             [**2138-10-9**]  05:54 PM
                             [**2138-10-9**]  10:07 PM
                             [**2138-10-9**]  10:18 PM
                             [**2138-10-10**]  04:07 AM
                             [**2138-10-10**]  04:21 AM
                             [**2138-10-10**]  05:54 AM
                             [**2138-10-10**]  07:12 AM
   WBC
   21.8
   Hct
   30.7
   30.3
   Plt
   57
   Cr
   1.5
   1.5
   1.2
   1.3
   TCO2
   28
   27
   26
   28
   32
   29
   Glucose
   158
   147
   167
   154
   Other labs: PT / PTT / INR:12.7/32.6/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:15/34, Alk Phos / T Bili:94/0.5, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:1.5 g/dL, LDH:358 IU/L, Ca++:8.4
   mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
   # Respiratory failure: Restrictive physiology given effusions, ascities
   and massive anasarca. Patient respiratory status slowly improving, now
   with lower PEEP and Plateau pressures. CXR looks much improved after
   draining both sides of chests, but now looks similar to yesterday. Lung
   parenchyma looks clear. Balance yesterday was positive since patient
   received fluid for increase CVP.
   -Decrease sedation
   -Monitor secretions
   -Wean from ventilatior to pressure support if possible
   -Clamp chest tube (right)
   -Start meropenem for ESBL enterobacter
   #) Hypotension
 Patient has been ruled out multiple times for
   myocardial ischemia and has an echocargriogram with good EF showing
   hyperdynamic heart. Patient with negative cultures and the only
   bacteria we have is ESBL enterobacter in sputum to explain sepsis. No
   signs of PE to explain obstructive physiology (or PTX, pericardial
   effusion). CVP increased to 14 with lower PEEP. Patient requiring less
   levophed than yesterday.
   -Try to wean down levophed
   -RBCs today
   - continue hydrocortisone IV 50mg q6h
   -Blood cultures
   -Start meropenem
   -Stop Zosyn
    # Renal failure: Initially ARF now patient on CVVH; adjusted yesterday
   by renal for metabolic acidosis and hypotension. Unclear etiology of
   hematuria/erythrocyturia.
   -monitor renal recs
   -monitor electrolytes closely
   -fluid restrict given fluid overload state
   -on levophed for hypotension
   -continue fluconazole for urine yeast infection
   # Malignancy- Patient with presumed metastatic ovarian cancer. 1 dose
   of chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of 1.66.
   Tentative plan of second dose 21 days after the first if patient
   responds to first dose after several days. According to oncology,
   patients WBC may not drop for another 10-14days which will indicate
   whether first dose was adequate and/or if treatment is working. At this
   point there is no utility in following further cytology- thus far her
   pleural fluid was consistent with metastatic adenocarcinoma, possibly
   primary ovarian ca. Onc attending has spoken to family at length and
   they are aware that this is not a curative intervention, rather it may
   help to get her home and prolong life for some number of months. On CT
   being done today will be able to evaluate if mass has changed in size
   since last imaging study earlier on admission.
   -f/u onc recommendations
   -F/u CT scan report
    # Anemia of chronic disease; renal failure and blood loss in urine.
   -continue folic acid IV
   -Transfuse 1 RBC today and follw HCT
    # Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - continue levothyroxine
   #. Hyperlipidemia - cont home statin dose
    # FEN
 TPN  f/u nutrition recs, CVVH, replete lytes PRN
    Dispo: ICU care, cont to address goals of care with family
    Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   L subclavian line - [**2138-10-7**] 03:09 PM
   Prophylaxis: heparin sq, PPI IV
    Code status: Full code, reconfirmed goals of care on [**10-5**] with family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   TPN without Lipids - [**2138-10-9**] 03:51 PM 62 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-10 10:46:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Levophed decreased
   -Patient transition to PSV support
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2138-10-9**] 07:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-9**] 11:00 AM
   Vancomycin - [**2138-10-9**] 05:52 PM
   Meropenem - [**2138-10-10**] 04:00 AM
   Acyclovir - [**2138-10-10**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2138-10-9**] 12:41 PM
   Heparin Sodium - [**2138-10-9**] 02:20 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-10**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 90 (72 - 99) bpm
   BP: 116/65(86) {93/52(68) - 122/77(95)} mmHg
   RR: 21 (2 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 12 (8 - 12)mmHg
   Total In:
                                                                 10,634 mL
                                                                  3,757 mL
   PO:
   TF:
   IVF:
                                                                  8,977 mL
                                                                  3,230 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 10,419 mL
                                                                  2,746 mL
   Urine:
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    215 mL
                                                                  1,011 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 414 (0 - 414) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 17 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.36/49/128/28/1
   Ve: 8.3 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli
not purposeful, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   57 K/uL
   154 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   30 mg/dL
   101 mEq/L
   136 mEq/L
   30.3 %
   21.8 K/uL
        [image002.jpg]
                             [**2138-10-9**]  11:41 AM
                             [**2138-10-9**]  12:31 PM
                             [**2138-10-9**]  05:30 PM
                             [**2138-10-9**]  05:54 PM
                             [**2138-10-9**]  10:07 PM
                             [**2138-10-9**]  10:18 PM
                             [**2138-10-10**]  04:07 AM
                             [**2138-10-10**]  04:21 AM
                             [**2138-10-10**]  05:54 AM
                             [**2138-10-10**]  07:12 AM
   WBC
   21.8
   Hct
   30.7
   30.3
   Plt
   57
   Cr
   1.5
   1.5
   1.2
   1.3
   TCO2
   28
   27
   26
   28
   32
   29
   Glucose
   158
   147
   167
   154
   Other labs: PT / PTT / INR:12.7/32.6/1.1, CK / CKMB / Troponin-T:130//,
   ALT / AST:15/34, Alk Phos / T Bili:94/0.5, Amylase / Lipase:26/24,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.2 mmol/L, Albumin:1.5 g/dL, LDH:358 IU/L, Ca++:8.4
   mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR-EET, PICC good position
   CVL to RA
   Bilateral chest tubes in CPA's bilaterally
   Assessment and Plan
   74 yo female with metastatic malignancy and likely ovarian primary who
   has had evolution of significant sepsis and respiratory failure.  With
   support of ventilation, removal of fluid via catheter drainage and
   paracentesis and support of blood pressure she has shown some clinical
   improvement in capacity to support her respiratory failure and sepsis.
   1)Respiratory Failure-
   -Will check RSBI
   -Will minimize sedation to allow trial
   -PSV wean  has been successful
   -SBT if RSBI favorable
   -Will need to maintain adequate control of pleural fluid volumes to
   maintain chance of extubation optimally.  In addition, patient will
   need to maintain improve mental status to allow adequate stability for
   extubation
   2)Sepsis-Levophed requirements continue and has persistent sepsis.
   -CVP=12
   -Cultures negative
   -Levophed to continue as needed to maintain MAP
   -Meropenem to continue
   -[**Month (only) 51**] be need for continued volume support and will keep overall fluid
   balance even.
   -Hydrocortisone continuing
will wean down
   3)Acute Renal Failure-
   CVVH given hemodynamic instability
   4)Malignant Neoplasm-
   -Will have to consider further chemotherapy in discussion with oncology
   -Do not have evidence of nadir from chemo at this time.
   ICU Care
   Nutrition: TF
s remain at goal but will be difficult to maintain
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Oral care, chlorhexedine,
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Family updated in full and all questions answered during visit in
   patients room.
   Note
typographical error above states patient is
at goal
   nutrition, should state
a goal
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2138-10-10**] 10:49 ------

2138-10-11 07:24:00 Physician Resident Progress Note
Chief Complaint: 74 year old with newly diagnosed metastatic ovarian
   cancer on CVVH and s/p chemo x1, intubated for respiratory distress and
   then extubated yesterday.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-10-10**] 02:45 PM
   s/p extubation successful yesterday. patient is alert, awake now.
   episode of chest pain, anxiety and hypertension yesterday with SBP in
   160s that led to subjective shortness of breath. EKG looked unchanaged.
   given morphine 2 mg for pain with good effect. Decreased steroid dose
   yesterday to 25 q6 (from 50 q 6). Meeting yesterday with oncology and
   family explained that if doesn't improve within 1 week that likely very
   poor prognosis.  Now running her even on CVVH, goal today would be to
   get her negative.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2138-10-9**] 07:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-9**] 11:00 AM
   Acyclovir - [**2138-10-10**] 08:00 AM
   Vancomycin - [**2138-10-10**] 01:00 PM
   Meropenem - [**2138-10-11**] 04:01 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2138-10-10**] 08:20 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-10**] 09:30 PM
   Lorazepam (Ativan) - [**2138-10-11**] 01:15 AM
   Morphine Sulfate - [**2138-10-11**] 02:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2138-10-11**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 115 (89 - 120) bpm
   BP: 128/70(95) {92/51(67) - 146/85(109)} mmHg
   RR: 26 (21 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  8,837 mL
                                                                  2,196 mL
   PO:
   TF:
   IVF:
                                                                  7,349 mL
                                                                  1,752 mL
   Blood products:
   Total out:
                                                                  8,678 mL
                                                                  2,803 mL
   Urine:
                                                                    100 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    159 mL
                                                                   -607 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 404 (404 - 414) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 7 cmH2O
   SpO2: 100%
   ABG: 7.38/54/103/29/4
   Ve: 8.9 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left lung diminished)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   45 K/uL
   10.6 g/dL
   129 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.9 mEq/L
   27 mg/dL
   98 mEq/L
   136 mEq/L
   31.5 %
   20.5 K/uL
        [image002.jpg]
                             [**2138-10-10**]  10:09 AM
                             [**2138-10-10**]  10:27 AM
                             [**2138-10-10**]  12:18 PM
                             [**2138-10-10**]  04:06 PM
                             [**2138-10-10**]  04:18 PM
                             [**2138-10-10**]  09:57 PM
                             [**2138-10-10**]  10:00 PM
                             [**2138-10-11**]  02:17 AM
                             [**2138-10-11**]  02:34 AM
                             [**2138-10-11**]  06:43 AM
   WBC
   20.5
   Hct
   31.5
   Plt
   45
   Cr
   1.2
   1.1
   1.1
   1.1
   TropT
   0.11
   TCO2
   29
   31
   30
   30
   31
   33
   Glucose
   145
   139
   127
   129
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:67/8/0.11, ALT / AST:28/52, Alk Phos / T Bili:101/0.6,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.7
   g/dL, LDH:438 IU/L, Ca++:8.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
    # Respiratory failure: Likely secondary initially to restrictive
   physiology due to effusions, ascities and anasarca, that have improved
   after parasentesis, pleural fluid drained with chest tube, as well as
   ascities drainage. Patient
s now s/p intubation with improved
   oxygenation.
   -Monitor secretions
   - chest tube (right) is not putting out much, left chest tube continues
   to put out large volumes of fluid
   - f/u with IR recs regarding plans for continued drainage
   -Continue meropenem for [**Month/Day (2) 1899**] enterobacter
   - nebs PRN
   #) Hypotension
 Patient off pressors now, with good blood pressures.
   Negative cultures so far and only culture data is from sputum growing
   [**Month/Day (2) 1899**] enterobacter and urine in the yeast. No signs of PE explaining
   obstructive physiology. Concern for aspiration pneumonia now has
   completed 7+ day course of vancomycin, switched to meropenem with new
   data for [**Last Name (LF) 1899**], [**First Name3 (LF) **] continue for now
   - Monitor BP
   - d/c fluconazole as has completed course for fungiuria
   - weaning stress dose steroids, now on day 2 of 25 IV q 6, would plan
   to keep for 4 days total before wean furthur
    # Renal failure: Initially ARF now patient on CVVH has been running
   even likely secondary to ATN, does not appear to be reversible..
   Unclear etiology of hematuria/erythrocyturia.
   -discussed with renal this AM plan to transition care to HD so that
   patient can leave ICU, as currently only thing keeping patient here is
   CVVH. As previously had hypotension in the setting of HD, and just came
   off of pressors yesterday, suspect that makes sense to wait to
   reinitiate HD.
   - plan for HD Monday 6 am then monitor BP and if stable would transfer
   to OMED for furthur care, cont CVVH until Monday
   -monitor electrolytes closely
   -fluid restrict given fluid overload state
    # Malignancy- Patient with presumed metastatic ovarian cancer. 1 dose
   of chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of 1.66.
   Unclear when second dose would be. At this point there is no utility in
   following further cytology- thus far her pleural fluid was consistent
   with metastatic adenocarcinoma, possibly primary ovarian ca. Onc
   attending has spoken to family at length and they are aware that this
   is not a curative intervention, rather it may help to get her home and
   prolong life for some number of months.
   - plan for repeat CT chest [**10-15**]
   - appreciate onc meeting yesterday with family and primary care to
   emphasize that prognosis is grave and that do not suspect that
   repeating chemo will make a difference
   - family continues to hope that chemo is the answer
   - discussed with renal this morning, that if patient cannot be
   transitioned to HD effectively than would like to consider that
   continued CVVH may be medically futile
   - would consider ethics consult as family is somewhat unreceptive to
   primary team, and does not appear to understand long term prognosis of
   patient
   # Anemia of chronic disease; renal failure and blood loss in urine.
   -continue folic acid IV
    # Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - continue levothyroxine
    #. Hyperlipidemia - cont home statin dose
   # FEN
 TPN , CVVH, replete lytes PRN
   Dispo: ICU care, cont to address goals of care with family
   Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   L subclavian line - [**2138-10-7**] 03:09 PM
   Prophylaxis: heparin sq, PPI IV
    Code status: Full code, reconfirmed goals of care on [**10-5**] with family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   TPN without Lipids - [**2138-10-11**] 12:28 AM 62 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-12 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CK and CK MB negative for cardiac event , trop .1 and stable
   - 7.24/77/78/35
 resp distress on exam - intubated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-9**] 11:00 AM
   Acyclovir - [**2138-10-10**] 08:00 AM
   Fluconazole - [**2138-10-11**] 09:06 AM
   Vancomycin - [**2138-10-11**] 09:59 AM
   Meropenem - [**2138-10-12**] 03:59 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2138-10-11**] 09:00 AM
   Pantoprazole (Protonix) - [**2138-10-11**] 07:45 PM
   Lorazepam (Ativan) - [**2138-10-12**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-12**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 101 (98 - 118) bpm
   BP: 81/48(61) {81/47(61) - 149/85(112)} mmHg
   RR: 34 (11 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 9 (0 - 14)mmHg
   Total In:
                                                                  8,502 mL
                                                                  2,088 mL
   PO:
   TF:
   IVF:
                                                                  7,014 mL
                                                                  1,676 mL
   Blood products:
   Total out:
                                                                  9,066 mL
                                                                  1,908 mL
   Urine:
                                                                    236 mL
                                                                     89 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -564 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: 7.31/64/95.[**Numeric Identifier 218**]/29/2
   PaO2 / FiO2: 190
   Physical Examination
   HEENT: NCAT MMM anicteric pink conjunctiva
   CV: RRR S1S2
   PULM: b/l rhonchi, tachypnea
   ABD: obese, soft, nontender, nondistended hypoactive bs
   EXT: WWP, bilateral edema, no cyanosis
   SKIN: no lesions, rashes
   Labs / Radiology
   39 K/uL
   10.0 g/dL
   123
   0.9 mg/dL
   29 mEq/L
   4.2 mEq/L
   27 mg/dL
   103 mEq/L
   141 mEq/L
   30.9 %
   17.7 K/uL
        [image002.jpg]
                             [**2138-10-11**]  09:20 AM
                             [**2138-10-11**]  09:28 AM
                             [**2138-10-11**]  10:00 AM
                             [**2138-10-11**]  01:48 PM
                             [**2138-10-11**]  02:06 PM
                             [**2138-10-11**]  08:00 PM
                             [**2138-10-11**]  08:19 PM
                             [**2138-10-12**]  01:53 AM
                             [**2138-10-12**]  02:16 AM
                             [**2138-10-12**]  04:00 AM
   WBC
   17.7
   Hct
   30.9
   Plt
   39
   Cr
   1.0
   0.9
   TropT
   0.11
   0.10
   TCO2
   31
   33
   33
   34
   Glucose
   126
   139
   134
   121
   123
   123
   Other labs: PT / PTT / INR:12.1/32.6/1.0, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:28/52, Alk Phos / T Bili:101/0.6,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.7
   g/dL, LDH:438 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   74F with newly diagnosed metastatic ovarian cancer on pressors and [**Hospital 1460**]
   transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral stenting and
   possible palliative chemo.  Originally presented to ED [**2-22**] ARF and
   hyperkalemia now s/p ureteral stent and one day of chemotherapy.  PMH
   includes hypothyroidism and HLD.
    # Respiratory failure: Patient with baseline restrictive physiology
   due to effusions, ascities, anasarca, with resolving aspiration
   pneumonia s/p bilateral chest tube placement and successful extubation
   on [**10-10**] now reintubated secondary to hypercarbia, acidemia and
   respiratory distress.
   -Suction and nebs prn
   - R chest tube with minimal output, could be d/c
   - f/u with IR recs regarding plans for continued drainage
   -Continue meropenem for [**Month/Year (2) 1899**] enterobacter
   #) Hypotension
 Patient off pressors now, with good blood pressures.
   Negative cultures so far and only culture data is from sputum growing
   [**Month/Year (2) 1899**] enterobacter and urine in the yeast. No signs of PE explaining
   obstructive physiology. Concern for aspiration pneumonia now has
   completed 7+ day course of vancomycin, switched to meropenem with new
   data for [**Last Name (LF) 1899**], [**First Name3 (LF) **] continue for now
   - Monitor BP, fluid bolus if needed but w/caution given fluid overload
   - d/c fluconazole as has completed course for fungiuria
   - weaning stress dose steroids, now on day 3 of 25 IV q 6, one more day
   then titrate down
    # Renal failure: Initially ARF now patient on CVVH has been running
   even likely secondary to ATN, does not appear to be reversible. Unclear
   etiology of hematuria/erythrocyturia. Likely d/c CVVH and start HD
   tomorrow.
   -discussed with renal this AM plan to transition care to HD so that
   patient can leave ICU, as currently only thing keeping patient here is
   CVVH. As previously had hypotension in the setting of HD, and just came
   off of pressors yesterday, suspect that makes sense to wait to
   reinitiate HD.
   - plan for HD Monday 6 am then monitor BP and if stable would transfer
   to OMED for furthur care, cont CVVH until Monday
   -monitor electrolytes closely
   -fluid restrict given fluid overload state
    # Malignancy- Patient with presumed metastatic ovarian cancer. 1 dose
   of chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of 1.66.
   Unclear when second dose would be. At this point there is no utility in
   following further cytology- thus far her pleural fluid was consistent
   with metastatic adenocarcinoma, possibly primary ovarian ca. Onc
   attending has spoken to family at length and they are aware that this
   is not a curative intervention, rather it may help to get her home and
   prolong life for some number of months.
   - plan for repeat CT chest 9/24 per onc
   - appreciate onc meeting yesterday with family and primary care to
   emphasize that prognosis is grave and that do not suspect that
   repeating chemo will make a difference
   - family continues to hope that chemo is the answer
   - discussed with renal this morning, that if patient cannot be
   transitioned to HD effectively than would like to consider that
   continued CVVH may be medically futile
   - would consider ethics consult as family is somewhat unreceptive to
   primary team, and does not appear to understand long term prognosis of
   patient
   # Anemia of chronic disease; renal failure and blood loss in urine.
   -continue folic acid IV
    # Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - continue levothyroxine
   - recheck TFTs on [**10-13**] per endo recs
    #. Hyperlipidemia - cont home statin dose
   # FEN
 TPN , CVVH, replete lytes PRN
   Dispo: ICU care, cont to address goals of care with family
   Glycemic Control:  sliding scale insulin
   Lines:
    Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   L subclavian line - [**2138-10-7**] 03:09 PM
   Prophylaxis: heparin sq, PPI IV
    Code status: Full code, reconfirmed goals of care on [**10-5**] with family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   TPN without Lipids - [**2138-10-12**] 01:00 AM 62 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-13 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2138-10-12**] 08:00 AM
   -Patient with increasing work to breath, hypercarbic on ABG and
   acidodic- reintubated yesterday morning
   -L chest tube continues to put out a significant amt (150-300cc/hr)
   especially after reintubation (got 1L NS but could also be [**2-22**] positive
   pressue). Tube was clamped to monitor for any change in pleural
   effusion size however pleural effusion looks largely unchanged on CXR.
   -renal aware pt re-intubated. Will monitor BPs and see if she is stable
   enough for HD tomorrow. Also increased meropenem to 1g to ensure approp
   coverage.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2138-10-10**] 08:00 AM
   Fluconazole - [**2138-10-11**] 09:06 AM
   Vancomycin - [**2138-10-11**] 09:59 AM
   Meropenem - [**2138-10-13**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-12**] 08:07 PM
   Morphine Sulfate - [**2138-10-13**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-13**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 89 (77 - 105) bpm
   BP: 78/42(55) {52/31(40) - 143/81(108)} mmHg
   RR: 27 (5 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 3 (3 - 14)mmHg
   Bladder pressure: 26 (26 - 26) mmHg
   Total In:
                                                                  8,769 mL
                                                                  2,490 mL
   PO:
   TF:
   IVF:
                                                                  7,281 mL
                                                                  2,027 mL
   Blood products:
   Total out:
                                                                  4,558 mL
                                                                    208 mL
   Urine:
                                                                    377 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,211 mL
                                                                  2,282 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 340 (340 - 340) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/44/142/28/4
   Ve: 9.9 L/min
   PaO2 / FiO2: 355
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No JVD visible, patient in
   anasarca and JVD in right side, so hard to say.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Distended, Obese,
   Edematous abdominal wall, patient without any abdominal pain.
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, Tone:
   Normal
   Labs / Radiology
   52 K/uL
   9.0 g/dL
   124 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   25 mg/dL
   103 mEq/L
   139 mEq/L
   27.8 %
   12.3 K/uL
        [image002.jpg]
                             [**2138-10-12**]  07:00 AM
                             [**2138-10-12**]  07:18 AM
                             [**2138-10-12**]  10:11 AM
                             [**2138-10-12**]  12:47 PM
                             [**2138-10-12**]  01:03 PM
                             [**2138-10-12**]  07:35 PM
                             [**2138-10-12**]  07:50 PM
                             [**2138-10-12**]  09:05 PM
                             [**2138-10-13**]  02:00 AM
                             [**2138-10-13**]  02:07 AM
   WBC
   12.3
   Hct
   27.8
   Plt
   52
   Cr
   0.7
   0.7
   TCO2
   35
   32
   31
   30
   30
   30
   Glucose
   139
   132
   120
   124
   Other labs: PT / PTT / INR:12.1/32.6/1.0, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:28/52, Alk Phos / T Bili:101/0.6,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.7
   g/dL, LDH:438 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   74F with thought metastatic ovarian cancer (no biopsy yet) on pressors
   and [**Hospital 1460**] transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral
   stenting. She got palliative chemo.  Originally presented to ED [**2-22**].
   PMH includes hypothyroidism and HLD.
    # Respiratory failure: Patient with baseline restrictive physiology
   due to effusions, ascities, anasarca, with resolving aspiration
   pneumonia s/p bilateral chest tube placement and successful extubation
   on [**10-10**] now reintubated secondary to hypercarbia, acidemia and
   respiratory distress. Most likely etiology is that patient has been
   tiring out since extubation. Patient at baseline has very low tidal
   volume (~300cc), which may cause baseline hypercarbia.
   -Suction and nebs prn
   - R chest tube with minimal output, could be d/c
d today.
   - f/u with IR recs regarding plans for continued drainage
   -Continue meropenem for ESBL enterobacter (Day [**4-29**])
   # Hypotension
 Patient is currently on pressors since intubation and
   attempted to be weaned off. Negative cultures so far and only culture
   data is from sputum growing ESBL enterobacter and urine in the yeast.
   Concern for aspiration pneumonia now has completed 7+ day course of
   vancomycin, switched to meropenem with new data for ESBL(day
   1=[**2138-10-9**]), will continue for now. It is likely her hypotension is
   secondary to malignancy and rapid fluid shifts out of the IV space.
   Other etiologies such as sepsis are also possible.
   -Try to wean from pressors; however if patient switched to HD may
   require further pressor support (patient on CVVH for 3 weeks)
   - Monitor BP, fluid bolus if needed but w/caution given fluid overload
   - stress dose steroids, now on day 3 of 25 IV q 6, titrate down today
    # Renal failure: Initially ARF now patient on CVVH has been running
   even likely secondary to ATN, does not appear to be reversible. Given
   patient
s long-standing dependence on CVVH and HD, will need to assess
   what our end-point is. Given her reintubation today, will continue CVVH
   for now and touch base with renal to see if HD is still possible, which
   seems unlikely given hypotension/pressor dependence.
   -discussed with renal this AM plan to transition care to HD tomorrow
   however given re-intubation will need to reassess goals
   -monitor electrolytes closely
   -monitor fluids,
    # Malignancy- Patient with presumed metastatic ovarian cancer. 1 dose
   of chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of 1.66.
   Unclear when second dose would be. At this point there is no utility in
   following further cytology- thus far her pleural fluid was consistent
   with metastatic adenocarcinoma, possibly primary ovarian ca. Onc
   attending has spoken to family at length and they are aware that this
   is not a curative intervention, rather it may help to get her home and
   prolong life for some number of months.
   - plan for repeat CT chest 9/24 per onc
   - family continues to hope that chemo is the answer
   - [**Hospital3 1956**] oncology team consult
   - Family meeting must be planned with all teams together, since
   patients getting different information from different teams. This also
   may help with goals of care.
   # Anemia of chronic disease; renal failure and blood loss in urine.
   -continue folic acid in TPN
    # Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - continue levothyroxine
   - TSH slightly high, may need increase in levothyroxine. Will check
   with endocrine.
    #. Hyperlipidemia
 Not on statin, since patient not getting anything
   NPO. Not likely to absorb due to bowel edema.
   # FEN
 TPN , CVVH, replete lytes PRN
   # Dispo: ICU care
   #Glycemic Control:  sliding scale insulin
   # Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   L subclavian line - [**2138-10-7**] 03:09 PM
   # Prophylaxis: heparin sq, PPI IV
    # Code status: Full code, reconfirmed goals of care on [**10-5**] with
   family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   TPN without Lipids - [**2138-10-12**] 05:00 PM 62 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-13 10:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2138-10-12**] 08:00 AM
   -Patient re-intubated with worsening respiratory distress, tachypnea
   and hypoxemia
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2138-10-11**] 09:06 AM
   Vancomycin - [**2138-10-11**] 09:59 AM
   Meropenem - [**2138-10-13**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-12**] 08:07 PM
   Morphine Sulfate - [**2138-10-13**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2138-10-13**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96.1
   HR: 91 (77 - 97) bpm
   BP: 97/51(69) {78/42(55) - 134/73(97)} mmHg
   RR: 19 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 9 (3 - 13)mmHg
   Bladder pressure: 26 (26 - 26) mmHg
                                Total In:
                                                                  8,769 mL
                                                                  3,082 mL
   PO:
                                TF:
   IVF:
                                                                  7,281 mL
                                                                  2,516 mL
   Blood products:
   Total out:
                                                                  4,558 mL
                                                                    727 mL
   Urine:
                                                                    377 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,211 mL
                                                                  2,355 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 340 (340 - 340) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 22.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/44/142/28/4
   Ve: 8.5 L/min
   PaO2 / FiO2: 355
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   52 K/uL
   124 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   25 mg/dL
   103 mEq/L
   139 mEq/L
   27.8 %
   12.3 K/uL
        [image002.jpg]
                             [**2138-10-12**]  07:00 AM
                             [**2138-10-12**]  07:18 AM
                             [**2138-10-12**]  10:11 AM
                             [**2138-10-12**]  12:47 PM
                             [**2138-10-12**]  01:03 PM
                             [**2138-10-12**]  07:35 PM
                             [**2138-10-12**]  07:50 PM
                             [**2138-10-12**]  09:05 PM
                             [**2138-10-13**]  02:00 AM
                             [**2138-10-13**]  02:07 AM
   WBC
   12.3
   Hct
   27.8
   Plt
   52
   Cr
   0.7
   0.7
   TCO2
   35
   32
   31
   30
   30
   30
   Glucose
   139
   132
   120
   124
   Other labs: PT / PTT / INR:12.1/32.6/1.0, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:28/52, Alk Phos / T Bili:101/0.6,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.7
   g/dL, LDH:438 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: ABG-7.43/43/142
   Imaging: [**2138-10-13**]-
   ETT at carina
   Bilateral CT's in place
   SCL in place with PICC overlying
   Assessment and Plan
   74 yo female with metatatic malignancy of unknown primary but with
   suspected ovarian CA now with persistent renal compromise but
   reasonable stability following extubation with optimization of fluid
   management with tap of effusions and paracentesis now with recurrent
   respiratory failure [**2138-10-12**].
   1)Acute Renal Failure-
   -This is likely related to toxic insult from medications, possible
   abdominal compartment syndrome, possible ureteral obstruction (which
   was unilateral making it less likely) and now with persistent renal
   replacement required. Important to note is that patient does have some
   significant return of renal function suggested by increased urine flow.
   -Continue with CVVH
   -Goal fluid balance is event
   2)Acute Respiratory Failure-This represents a slow progressive decline
   over time with hypercarbic respiratory failure
   Patient with reasonable compliance and substantial respiratory effort
   with CMV likely providing somewhat restricted inspiratory flow
   -PSV with 15-20/5 expected to provide complete support
   -Repeat ABG on PSV
   -Barriers to extubation are not entirely clear
secretions minimal,
   mental status excellent, pulmonary compliance likely reasonable and
   extubation will have to depend upon response.
   -Will need nocturnal BIPAP support should extubation be achieved
   2.5)Pleural Effusions-
   Favor D/C of left chest tube if no change with tube clamped as concern
   for location remains
   Right chest tube with minimal drainage
   Risk of infection will mount as counts nadir on chemotherapy so will
   have to consider drainage
   3)Hypotension-
   -Levophed in place and may be component of intravascular volume
   depletion and ongoing fluid leak from intravascular space may be
   contributing
   -Not clear overwhelming insult
   -No evidence of pericardia effusion or impaired ejection fraction noted
   -Hydrocortisone to be weaned and will add midodrine and florinef to
   faciliate wean.
   -Source remains multifactorial and difficult to control
   4)Metastatic Malignancy-
   Unknown primary tumor
   Counts have failed to show substantial decline
   Will need to consider further Rx with oncology team based upon response
   ICU Care
   Nutrition: NGT is goal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45

2138-10-14 07:23:00 Physician Resident Progress Note
Chief Complaint: 74 year old female with metastatic ovarian cancer on
   CVVH and pressors, now s/p intubation x2 and now s/p chemotherapy
   without any improvement clinically.
   24 Hour Events:
   Patient went for CT scan yesterday to evaluate for progression of
   disease which demonstrated no change. Have not been able to wean
   patient off of pressors yet. Still  on CVVH. yesterday right chest tube
   pu t out 1 liter in 2 hours, was clamped and repeat chest x-ray showed
   no change in effusions.  L chest tube was putting out a fair amount.
   Also was clamped without change in chest x-ray. Family apparently
   considering ?second opinion regarding patient's cancer possibly from
   [**Hospital3 **]. plan for family meeting today at 1 pm with onc/icu team.
   also would like to involve renal and would like to emphasize that CVVH
   cannot be used indefinitely.  Patient started on midodrine and
   florinef. Blood now growing yeast.  Patient started this AM on
   caspofungin.  IV steroids transitioned yesterday to PO prednisone.
   Family meeting this afternoon with oncology, oncology expressed that
   metastatic ovarian cancer not responsive to [**Last Name (LF) 2007**], [**First Name3 (LF) **] not plan to
   offer more [**First Name3 (LF) 2007**] at this time. Family having second opinion from m.d.
   at farber, hopefully soon to come up with plan.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2138-10-11**] 09:06 AM
   Vancomycin - [**2138-10-11**] 09:59 AM
   Meropenem - [**2138-10-14**] 12:20 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-13**] 08:50 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2138-10-14**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 89 (83 - 122) bpm
   BP: 116/66(87) {83/46(61) - 126/74(92)} mmHg
   RR: 29 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 7 (6 - 9)mmHg
   Total In:
                                                                  8,182 mL
                                                                  2,346 mL
   PO:
   TF:
   IVF:
                                                                  5,734 mL
                                                                  1,903 mL
   Blood products:
   Total out:
                                                                  4,454 mL
                                                                  2,054 mL
   Urine:
                                                                    289 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,728 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 432 (309 - 432) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.44/40/166/26/3
   Ve: 13.4 L/min
   PaO2 / FiO2: 415
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases b/l)
   Abdominal: Soft, Non-tender, Obese, ascites, decreased bowel sounds
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   65 K/uL
   9.3 g/dL
   118 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   25 mg/dL
   104 mEq/L
   138 mEq/L
   28.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2138-10-13**]  02:00 AM
                             [**2138-10-13**]  02:07 AM
                             [**2138-10-13**]  09:58 AM
                             [**2138-10-13**]  10:51 AM
                             [**2138-10-13**]  11:29 AM
                             [**2138-10-13**]  05:23 PM
                             [**2138-10-13**]  05:37 PM
                             [**2138-10-13**]  11:44 PM
                             [**2138-10-14**]  05:39 AM
                             [**2138-10-14**]  05:55 AM
   WBC
   12.3
   11.8
   Hct
   27.8
   28.0
   Plt
   52
   65
   Cr
   0.7
   0.6
   TCO2
   30
   28
   32
   28
   28
   28
   Glucose
   124
   141
   95
   119
   118
   Other labs: PT / PTT / INR:12.6/23.1/1.1, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:28/52, Alk Phos / T Bili:101/0.6,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.7
   g/dL, LDH:438 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   74F with thought metastatic ovarian cancer (no biopsy yet) on pressors
   and [**Hospital 1460**] transferred from west to [**Hospital Ward Name 1437**] ICU for ureteral
   stenting. She got palliative [**Hospital Ward Name 2007**].  Originally presented to ED [**2-22**].
   PMH includes hypothyroidism and HLD.
    # Respiratory failure: Patient with baseline restrictive physiology
   due to effusions, ascities, anasarca, with resolving aspiration
   pneumonia s/p bilateral chest tube placement and successful extubation
   on [**10-10**] now reintubated secondary to hypercarbia, acidemia and
   respiratory distress. Most likely etiology is that patient has been
   tiring out since extubation. Patient at baseline has very low tidal
   volume (~300cc), which may cause baseline hypercarbia.
   -Suction and nebs prn
   - R chest tube with minimal output now clamped
   - IP says tubes aren
t draining, not going to leave them the way they
   are, will have to get back to us about plan
   - clamped left chest tube yesterday, no change in chest x-ray
   -Continue meropenem for ESBL enterobacter (Day [**5-29**])
   # Hypotension
 Patient is currently on pressors since intubation and
   attempted to be weaned off. Negative cultures so far and only culture
   data is from sputum growing ESBL enterobacter and urine in the yeast.
   Concern for aspiration pneumonia now has completed 7+ day course of
   vancomycin, switched to meropenem with new data for ESBL(day
   1=[**2138-10-9**]), will continue for now. It is likely her hypotension is
   secondary to malignancy and rapid fluid shifts out of the IV space.
   Other etiologies such as sepsis are also possible. Currently growing
   yeast in the blood.
   - consider restarting fluconazole
   -Try to wean from pressors as tolerated
   - Monitor BP, fluid bolus if needed but w/caution given fluid overload
   - previously on stress dose steroids, now on 20 mg po prednisone daily
    # Renal failure: Initially ARF now patient on CVVH has been running
   even likely secondary to ATN, does not appear to be reversible. Given
   patient
s long-standing dependence on CVVH and HD, will need to assess
   what our end-point is. Given her reintubation today, will continue CVVH
   for now and touch base with renal to see if HD is still possible, which
   seems unlikely given hypotension/pressor dependence.
   - cont CVVH for now
   - f/u renal recs
   -monitor electrolytes, fluid closely
    # Malignancy- Patient with presumed metastatic ovarian cancer. 1 dose
   of [**Month/Day/Year 2007**] [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of 1.66.
   Unclear when second dose would be. At this point there is no utility in
   following further cytology- thus far her pleural fluid was consistent
   with metastatic adenocarcinoma, possibly primary ovarian ca. Onc
   attending has spoken to family at length and they are aware that this
   is not a curative intervention, rather it may help to get her home and
   prolong life for some number of months.
   - repeat ct without any change
   - oncology says no more [**Month/Year (2) 2007**] at this time, however family to get
   second opinion from [**Hospital3 **]
   - Fhad family meeting today with onc/icu team
   # Anemia of chronic disease; renal failure and blood loss in urine.
   -continue folic acid in TPN
    # Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - continue levothyroxine
   - TSH slightly high, may need increase in levothyroxine
   - f/u endocrine recs
    #. Hyperlipidemia
 Not on statin, since patient not getting anything
   NPO. Not likely to absorb due to bowel edema.
   # FEN
 TPN , CVVH, replete lytes PRN
   # Dispo: ICU care
   #Glycemic Control:  sliding scale insulin
   # Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   L subclavian line - [**2138-10-7**] 03:09 PM
   # Prophylaxis: heparin sq, PPI IV
    # Code status: Full code, reconfirmed goals of care on [**10-5**] with
   family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2138-10-13**] 06:00 PM 62 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-14 12:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT Scan Repeated-
   -Some decrease in pulmonary opacities
   -NO signifciant changes in abdominal findings
   Chest Tube-
   -Continued low level drainage noted with intermittent drainage from
   both left and right sides.
   Yeast Identified in BLood Culture-
   CVVH continued
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2138-10-14**] 12:00 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-13**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Dialysis
   Flowsheet Data as of  [**2138-10-14**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 92 (86 - 122) bpm
   BP: 108/58(78) {82/45(60) - 126/74(92)} mmHg
   RR: 21 (11 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 7 (7 - 8)mmHg
   Total In:
                                                                  8,182 mL
                                                                  4,227 mL
   PO:
   TF:
   IVF:
                                                                  5,734 mL
                                                                  3,337 mL
   Blood products:
   Total out:
                                                                  4,454 mL
                                                                  4,021 mL
   Urine:
                                                                    289 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,728 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 343 (309 - 432) mL
   RR (Set): 16
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 16 cmH2O
   Plateau: 30 cmH2O
   SpO2: 99%
   ABG: 7.42/40/172/25/1
   Ve: 12.1 L/min
   PaO2 / FiO2: 430
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   65 K/uL
   116 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   25 mg/dL
   103 mEq/L
   138 mEq/L
   28.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2138-10-13**]  09:58 AM
                             [**2138-10-13**]  10:51 AM
                             [**2138-10-13**]  11:29 AM
                             [**2138-10-13**]  05:23 PM
                             [**2138-10-13**]  05:37 PM
                             [**2138-10-13**]  11:44 PM
                             [**2138-10-14**]  05:39 AM
                             [**2138-10-14**]  05:55 AM
                             [**2138-10-14**]  09:51 AM
                             [**2138-10-14**]  10:08 AM
   WBC
   11.8
   Hct
   28.0
   Plt
   65
   Cr
   0.6
   TCO2
   28
   32
   28
   28
   28
   27
   Glucose
   141
   95
   119
   118
   116
   Other labs: PT / PTT / INR:12.6/23.1/1.1, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:28/52, Alk Phos / T Bili:101/0.6,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.7
   g/dL, LDH:438 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR-Mild increase in left sided effusion
   Assessment and Plan
   74 yo female with initial concern for ureteral obstruction in the
   setting of widely metastatic malignancy and suspected ovarian carcinoma
   primary.  She now has had a hospital course notable for persistent and
   significant respiratory failure, hypotension, renal failure and
   oncology undertaking evaluation for possible response to chemotherapy
   given.  Her status remains one of continued full support and an absence
   of obvious change in response to chemotherapy based on initial CT scan
   [**Location (un) **].
   1)Respiratory Failure Acute-
   PSV to continue to wean
   Patient with favorable predictors for extubation of improved mental
   status, minimal secretions and reasonable fluid balance maintained
   Will continue with PSV wean and move to RSBI today
   Given recurrent intubations will have to consider tracheostomy given
   recurrent respiratory failure and risk of ongoing volume overload and
   hypercarbic respiratory failure.  Reasonable alternative would be
   [**Hospital1 **]-level mask ventilation support
   Meropenem to continue
   2)Pleural Effusions-Malignant effusions with recurrent respiratory
   failure perhaps contributing to the respiratory failure
   -Will recheck film following clamp of chest tubes x 24 hours
   3)Hypotension-
   Does appear to be a combination of limited effective circulating volume
   and decreased SVR leaving levophed requirement in place.  [**Month (only) 51**] have a
   contribution of ineffective venous return with tumor burden but not
   clearly documented.  Patient with concerning suggestion of yeast in
   blood culture
   -Continue with steroid taper
   -Trial po Midodrine
   -Continue with current antibiotics
   -Will treat Fungemia as concern is real given persistent presssor
   requirement, this is despite Rx for yeast in urine
   3)Acute Renal Failure-Patient with continued oliguria but with some
   return of urine flow.  She had Cr=0.6 and has reasonable optimization
   of fluid balance.  Would consider trial off or CVVH given hope for
   return of flow.
   -Continue witih CVVH for now and hope to transition to HD if
   hemodynamic stability is achieved
   - goal I/O even
   4)Metastatic Malignancy-
   -Will need to discuss with oncology expectation for treatment response
   and further treatment.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2138-10-13**] 06:00 PM 62 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-10-15 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Family meeting: plan is to get second opinion from [**Hospital3 1956**] then
   plan accordingly.
   -Started caspofungin for yeast in blood, sputum, and urine with
   persistant hypotension.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-14**] 03:22 PM
   Meropenem - [**2138-10-15**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2138-10-15**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-15**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 93 (87 - 101) bpm
   BP: 114/65(85) {82/45(60) - 122/84(90)} mmHg
   RR: 30 (9 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 7 (7 - 10)mmHg
   Total In:
                                                                  8,182 mL
                                                                  2,276 mL
   PO:
   TF:
   IVF:
                                                                  6,558 mL
                                                                  1,852 mL
   Blood products:
   Total out:
                                                                  8,567 mL
                                                                  1,804 mL
   Urine:
                                                                    275 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -385 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (343 - 440) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.43/40/160/29/2
   Ve: 9.7 L/min
   PaO2 / FiO2: 400
   Physical Examination
   GEN: intubated, sedated, appears comfortable
   HEENT: NCAT MMM anicteric pink conjunctiva
   CV: RRR S1S2 no m/r/g JVD not appreciated
   PULM: expiratory wheeze, decreased breath sounds at bases
   ABD: soft minimally distended, nontender hypoactive bs no palp masses
   EXT: WWP, stable b/l peripheral edema, cannot appreciate dp pulses but
   no cyanosis
   SKIN: no new lesions, rashes appreciated
   NEURO: sedated but responsive to voice, answers yes/no qtns and
   interactive
   Labs / Radiology
   73 K/uL
   8.6 g/dL
   102 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.5 mEq/L
   23 mg/dL
   104 mEq/L
   138 mEq/L
   26.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2138-10-13**]  05:37 PM
                             [**2138-10-13**]  11:44 PM
                             [**2138-10-14**]  05:39 AM
                             [**2138-10-14**]  05:55 AM
                             [**2138-10-14**]  09:51 AM
                             [**2138-10-14**]  10:08 AM
                             [**2138-10-14**]  04:38 PM
                             [**2138-10-14**]  05:23 PM
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
   WBC
   11.8
   10.5
   Hct
   28.0
   26.4
   Plt
   65
   73
   Cr
   0.6
   0.5
   0.5
   TCO2
   28
   28
   28
   27
   27
   Glucose
   119
   118
   116
   117
   136
   102
   Other labs: PT / PTT / INR:12.9/23.9/1.1, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:28/52, Alk Phos / T Bili:101/0.6,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.7
   g/dL, LDH:438 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   74F with thought metastatic ovarian cancer s/p one cycle of palliative
   chemotherapy, on pressors and [**Hospital 1460**] transferred from west to [**Hospital Ward Name 1437**]
   ICU for ureteral stenting. PMH includes hypothyroidism and HLD.
    # Respiratory failure: Patient with baseline restrictive physiology
   due to effusions, ascities, anasarca, with resolving aspiration
   pneumonia s/p bilateral chest tube placement and successful extubation
   on [**10-10**] now reintubated secondary to hypercarbia, acidemia and
   respiratory distress. On PS 10/5 FIO2 40%, may be able to be
   successfully extubated however given multiple extubations may have to
   consider tracheostomy instead. This may or may not be consistent with
   goals of care discussed at yesterday
s meeting. IP consult noted chest
   tubes will have to be moved eventually but will hold off until second
   opinion by DF this week.
   -Suction and nebs prn
   - R and L chest tubes with some drainage, clamped with no change on
   xray
   -Continue meropenem for ESBL enterobacter (Day [**6-29**])
   -Continue caspofungin for yeast in blood, sputum and urine (Day [**5-23**]
   change when speciated)
   # Hypotension
 Patient is currently on pressors since intubation and
   attempted to be weaned off. Negative cultures so far and only culture
   data is from sputum growing ESBL enterobacter and urine in the yeast.
   Concern for aspiration pneumonia now has completed 7+ day course of
   vancomycin, switched to meropenem with new data for ESBL(day
   1=[**2138-10-9**]), will continue for now. It is likely her hypotension is
   secondary to malignancy and rapid fluid shifts out of the IV space.
   Other etiologies such as sepsis are also possible. Currently growing
   yeast in the blood.
   - consider restarting fluconazole
   -Try to wean from pressors as tolerated
   - Monitor BP, fluid bolus if needed but w/caution given fluid overload
   - previously on stress dose steroids, now on 20 mg po prednisone daily
    # Renal failure: Initially ARF now patient on CVVH has been running
   even likely secondary to ATN, does not appear to be reversible. Given
   patient
s long-standing dependence on CVVH and HD, will need to assess
   what our end-point is. Given her reintubation today, will continue CVVH
   for now and touch base with renal to see if HD is still possible, which
   seems unlikely given hypotension/pressor dependence.
   - cont CVVH for now
   - f/u renal recs
   -monitor electrolytes, fluid closely
    # Malignancy- Patient with presumed metastatic ovarian cancer. 1 dose
   of chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of 1.66.
   Unclear when second dose would be. At this point there is no utility in
   following further cytology- thus far her pleural fluid was consistent
   with metastatic adenocarcinoma, possibly primary ovarian ca. Onc
   attending has spoken to family at length and they are aware that this
   is not a curative intervention, rather it may help to get her home and
   prolong life for some number of months.
   - repeat ct without any change
   - oncology says no more chemo at this time, however family to get
   second opinion from [**Hospital3 **]
   - Fhad family meeting today with onc/icu team
   # Anemia of chronic disease; renal failure and blood loss in urine.
   -continue folic acid in TPN
    # Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - continue levothyroxine
   - TSH slightly high, may need increase in levothyroxine
   - f/u endocrine recs
    #. Hyperlipidemia
 Not on statin, since patient not getting anything
   NPO. Not likely to absorb due to bowel edema.
   # FEN
 TPN , CVVH, replete lytes PRN
   # Dispo: ICU care
   #Glycemic Control:  sliding scale insulin
   # Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   L subclavian line - [**2138-10-7**] 03:09 PM
   # Prophylaxis: heparin sq, PPI IV
    # Code status: Full code, reconfirmed goals of care on [**10-5**] with
   family
 want intubation and full resuscitation
   ICU Care
   Nutrition:
   TPN without Lipids - [**2138-10-14**] 06:45 PM 62 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-15 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure Acute
   Sepsis
   Metastatic Malignancy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with yeast found in blood, urine and sputum and started on
   Caspo
   Levophed off
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-14**] 03:22 PM
   Meropenem - [**2138-10-15**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2138-10-15**] 07:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-15**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 91 (87 - 101) bpm
   BP: 86/49(63) {82/45(60) - 122/84(90)} mmHg
   RR: 30 (9 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 9 (7 - 10)mmHg
   Total In:
                                                                  8,182 mL
                                                                  3,389 mL
   PO:
   TF:
   IVF:
                                                                  6,558 mL
                                                                  2,736 mL
   Blood products:
   Total out:
                                                                  8,567 mL
                                                                  3,108 mL
   Urine:
                                                                    275 mL
                                                                    259 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -385 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 393 (367 - 440) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/47/135/29/5
   Ve: 11.2 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   73 K/uL
   102 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.5 mEq/L
   23 mg/dL
   104 mEq/L
   138 mEq/L
   26.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2138-10-13**]  11:44 PM
                             [**2138-10-14**]  05:39 AM
                             [**2138-10-14**]  05:55 AM
                             [**2138-10-14**]  09:51 AM
                             [**2138-10-14**]  10:08 AM
                             [**2138-10-14**]  04:38 PM
                             [**2138-10-14**]  05:23 PM
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
   WBC
   11.8
   10.5
   Hct
   28.0
   26.4
   Plt
   65
   73
   Cr
   0.6
   0.5
   0.5
   TCO2
   28
   28
   27
   27
   32
   Glucose
   119
   118
   116
   117
   136
   102
   Other labs: PT / PTT / INR:12.9/23.9/1.1, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:28/52, Alk Phos / T Bili:101/0.6,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.7
   g/dL, LDH:438 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR-left SCL and PICC in place, right IJ HD catheter
   unchanged,  Chest Tubes unchanged.
   Assessment and Plan
   74 yo female with metastatic adenocarcinoma of likely ovarian origin
   now with prolonged course of ventilatory failure and sepsis.  Of
   concern is that there has been no change in the tumor burden following
   chemotherapy treatment.  Chest tube output has been 100cc/hr on right
   and 10cc/hr on left.  In this setting she has been able to maintain an
   even fluid balance with support of blood pressure with po medications.
   1)Respiratory Failure-Acute
   -Patient still with significant need for PSV of [**10-26**] with Vt=280-330
   and RR 35-40 suggesting inability to provide safe extubation for her in
   this current state of restriction
   -We have an opportunity to move to negative fluid balance and will
   today
   -Goal to trial extubation in next day if able to achieve a favorable
   negative fluid balance and effective ventilation increases.
   -If unable to safely extubate with confidence will have to consider
   goals of care and reasonableness of re-intubation
   -Meropenem-to continue
   2)Acute Renal Failure
   -CVVH to continue with goal of negative fluid balance today
   3)Sepsis
   -Fungemia being treated, other cultures are negative at this time
   -Midodrine in place
   -Will have to D/C CVL
s and recite with fungemia noted in blood
   -Will have to retain goal of stabilization of blood pressure
   -Steroids to wean to off
   4)Metastatic Malignancy-
   -No further treatment offered
   -Family considering second opinion from [**Company 2021**]
   ICU Care
   Nutrition: Trial of enteral feeds
   TPN without Lipids - [**2138-10-14**] 06:45 PM 62 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-13**] 07:30 PM
   PICC Line - [**2138-9-20**] 05:07 PM
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-7**] 03:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2138-10-16 07:37:00 Physician Resident Progress Note
Chief Complaint: ARF, SOB, Anasarca, oliguria.
   24 Hour Events:
 MULTI LUMEN - STOP [**2138-10-15**] 02:18 PM
 MULTI LUMEN - START [**2138-10-15**] 04:30 PM
 DIALYSIS CATHETER - STOP [**2138-10-15**] 05:15 PM
 PICC LINE - STOP [**2138-10-15**] 06:00 PM
   - Social work/family working on DF consult
   -d/c HD line, will have 2 day line holiday then will be replaced.
   -d/c L subclavian and d/c PICC, new LIJ in place and ok to use
   -back on levophed for hypotension and increased midodrine to 5mg [**Hospital1 **]
   -started on tube feeds, will need to d/c TPN once goal of TF is met
   (can order TPN or PPN for this AM)
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-15**] 05:00 PM
   Meropenem - [**2138-10-15**] 11:57 PM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-10-15**] 03:10 PM
   Pantoprazole (Protonix) - [**2138-10-15**] 08:30 PM
   Morphine Sulfate - [**2138-10-16**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-16**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 92 (83 - 104) bpm
   BP: 78/68(73) {75/39(53) - 105/71(84)} mmHg
   RR: 22 (12 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 6 (6 - 10)mmHg
   Total In:
                                                                  6,437 mL
                                                                    701 mL
   PO:
   TF:
                                                                     76 mL
                                                                    205 mL
   IVF:
                                                                  5,332 mL
                                                                    496 mL
   Blood products:
   Total out:
                                                                  5,988 mL
                                                                  1,300 mL
   Urine:
                                                                    456 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    449 mL
                                                                   -599 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 399 (393 - 404) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.41/41/162/27/1
   Ve: 7.8 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), JVD not visible
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   Anasarca
   Extremities: Right: 4+, Left: 4+, Edema improved
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, Tone:
   Normal
   Labs / Radiology
   80 K/uL
   9.1 g/dL
   84 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.9 mEq/L
   26 mg/dL
   105 mEq/L
   138 mEq/L
   27.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2138-10-14**]  09:51 AM
                             [**2138-10-14**]  10:08 AM
                             [**2138-10-14**]  04:38 PM
                             [**2138-10-14**]  05:23 PM
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
   WBC
   10.5
   11.3
   Hct
   26.4
   27.4
   Plt
   73
   80
   Cr
   0.5
   0.5
   0.7
   TCO2
   27
   27
   32
   27
   Glucose
   116
   117
   136
   102
   109
   84
   Other labs: PT / PTT / INR:13.2/24.6/1.1, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/39, Alk Phos / T Bili:80/0.4,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.5
   g/dL, LDH:320 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   74F with thought metastatic ovarian cancer s/p one cycle of palliative
   chemotherapy, on pressors and [**Hospital 1460**] transferred from west to [**Hospital Ward Name 1437**]
   ICU for ureteral stenting. PMH includes hypothyroidism and HLD.
    # Respiratory failure: Patient with restrictive pneumopathy due to
   anasarca of the chest wall, tumor burden in the abdomen, ascities. Her
   baseline Vt are ~300 and most of it goes into death space. Has required
   re-intubation multiple times for getting tired and CO2 slowly rises.
   Patient unable to blow high amount of CO2 due to low tidal volumes.
   Patient on AC overnight and switched back to PS during the day. Left
   chest tube with ~700 cc/hr yesterday at some point, so it was clamped.
   Right one with ~2L /24 hrs.
   -          Continue PS for now
   -          Maintain even balance
   -          Re-start CVVH tomorrow when line placed and try to remove
   fluid and improve chest compliance
   -          F/u IP recs for chest tubes; will keep them in to improve
   respiratory failure
   -          Minimize fluids through IVs
   -          Continue meropenem (Day [**7-29**]) and caspofungin (Day 3)
   -          F/u cultures
   # Hypotension
 Patient back on pressors. Behaving as septic
   physiology, but etiology unclear. The only source of bacteria is sputum
   ESBL enterobacter in the setting of witnessed aspiration. Patient
   tomorrow finished the course of meropenem. Patient growing fungi in
   blood and urine, now on casponfungin after failing fluconazole. Also,
   adrenal insufficiency may be contributing to the hypotension. Patient
   on steroid replacement therapy.
   -Continue meropenen ([**7-29**])
   -Continue caspogungin (Day 3)
   -Taper prednisone (10mg/day today)
   -Wean Levophed slowly
   -Maintain negative balance: goal 500cc
   -CVP goal 8mm H2O
   -Continue midodrine at 5mg [**Hospital1 7**]
   # Renal failure: Patient on renal failure; acute setting requiring HD
   and now prolonged course of CVVH (3 weeks). Post renal component s/p
   stent placed, pre-renal component with hypotension and persistent
   pressor support and there may be a renal component as well. Patient now
   with increasing urine output (Slowly). If it picks up, may be of good
   prognosis.
   -CVVH tomorrow
   -f/u renal recs
   -f/u PM lytes (potassium)
   -monitor electrolytes, fluid closely
    # Malignancy- Patient with presumed metastatic ovarian cancer. 1 dose
   of chemo [**10-1**] day #1 with carboplatin 200 mg/m2 with BSA of 1.66.
   Cytology consistent with metastatic adenocarcinoma, possibly primary
   ovarian cancer. Per family meeting yesterday will get second opinion
   from [**Hospital3 1956**] and plan accordingly at that point. A repeat CT showed
   no change in abdominopelvic lymphadenopathy consistant with her
   malignancy.
   - awaiting [**Hospital3 1956**] evaluation
   - f/u any oncology recommendations
   - appreciate social work input and involvement
   # Anemia of chronic disease; renal failure and blood loss in urine.
   -continue folic acid
   # Hypothyroidism
 Consulted endocrinology to help elucidate if
   hypothyroidism could be cause of persistent hypotension.
   - continue levothyroxine
   - f/u endocrine recs
   #. Hyperlipidemia
 Not on statin, since patient not getting anything
   NPO. Not likely to absorb due to bowel edema.
   # FEN
 TF started yesterday, may need to switch to TPN when extubated.
   replete lytes PRN
   #Glycemic Control:  sliding scale insulin
   # Lines:
   Left IJ
   # Prophylaxis: heparin sq, PPI IV
   # Code status: Full code, reconfirmed goals of care on [**10-5**] with family
 want intubation and full resuscitation
   # Dispo: ICU care for now, until extubated.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2138-10-15**] 06:16 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-16 12:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2138-10-15**] 02:18 PM
 MULTI LUMEN - START [**2138-10-15**] 04:30 PM
 DIALYSIS CATHETER - STOP [**2138-10-15**] 05:15 PM
 PICC LINE - STOP [**2138-10-15**] 06:00 PM
   Patient had PICC, Dialysis Catheter and TLC all D/C'd and/or changed
   given positive fungal culture results from blood.
   Patient had inability to maintain negative fluid balance despite slow
   negative balance with CVVH and had to return to significant pressor
   support over past 24 hours
   Social Work support in place for establishment of privleges for
   physician named by family for possible evaluation of patient's oncology
   therapy but physician not yet in to evaluate patient.  Family urged
   that if this evaluate is of interest to them that time is of the
   essence given clinical decline over past 24 hours as she is at risk,
   and may already be inappropriate for chemotherapy intervention
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-15**] 05:00 PM
   Meropenem - [**2138-10-15**] 11:57 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-10-15**] 03:10 PM
   Pantoprazole (Protonix) - [**2138-10-15**] 08:30 PM
   Morphine Sulfate - [**2138-10-16**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2138-10-16**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 98 (83 - 104) bpm
   BP: 95/48(66) {75/39(53) - 105/73(84)} mmHg
   RR: 27 (12 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 6 (6 - 10)mmHg
   Total In:
                                                                  6,437 mL
                                                                  1,106 mL
   PO:
   TF:
                                                                     76 mL
                                                                    330 mL
   IVF:
                                                                  5,332 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  5,988 mL
                                                                  1,696 mL
   Urine:
                                                                    456 mL
                                                                    216 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    449 mL
                                                                   -590 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 399 (399 - 404) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/41/162/27/1
   Ve: 7.6 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   80 K/uL
   84 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.9 mEq/L
   26 mg/dL
   105 mEq/L
   138 mEq/L
   27.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2138-10-14**]  09:51 AM
                             [**2138-10-14**]  10:08 AM
                             [**2138-10-14**]  04:38 PM
                             [**2138-10-14**]  05:23 PM
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
   WBC
   10.5
   11.3
   Hct
   26.4
   27.4
   Plt
   73
   80
   Cr
   0.5
   0.5
   0.7
   TCO2
   27
   27
   32
   27
   Glucose
   116
   117
   136
   102
   109
   84
   Other labs: PT / PTT / INR:13.2/24.6/1.1, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/39, Alk Phos / T Bili:80/0.4,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.5
   g/dL, LDH:320 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR--ETT in good position, Left sided IJ in good position,
   Effusion without significant change,
   Assessment and Plan
   74 yo female with metastatic adenocarcinoma now with persistent
   ventilatory failure, renal failure and sepsis with most recent pathogen
   identified as fungus present within blood, urine and sputum cultures.
   Her sepsis did appear to transiently improve with antibacterial therapy
   and we were able to D/C IV pressors, however, we now have had recurrent
   decline in the setting of positive fungal cultures.
   1)Respiratory Failure-Continued high output from chest tubes due to
   malignant effusions.  Have no capacity to maintain favorable
   ventilatory mechanics despite drainage of fluids which would suggest
   that abdominal malignancy process is primary driver of persistent
   ventilatory failure.
   -Patient with likely persistent restriction of chest wall mechanics
   with abdominal malignancy and has been minimally improved with chest
   tube drainage.
   -Alb/Atrovent
   -Based upon patient wishes will have to decide on course of extubation
   and mask ventilation support
   -Currently not expected to be able to tolerate extubation given current
   ventilatory mechanics
   2)Sepsis-Possible fungal source of infection
   -Meropenem-for enterobacter treatment
   -Caspofungin-for initial treatment of fungal cultures
   -Levophed
   -Pred 20mg/d
   -IVF bolus as needed to look to wean pressors
   -A-line in for prolonged period of time--favor D/C at this time.
   3)Acute Renal Failure--Had evidence of persistent limited urine flow
   but right now no evidence of need for return to dialysis
   -Re-evaluate each day for indication
   -No evidence of return of renal function
   4)Metastatic Malignancy-
   -No further chemotherapy recommended
   -Favor clamp of chest tube with intermittent drainage
   -No other role for intervention based upon oncology team here.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2138-10-15**] 06:16 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2138-10-17 07:06:00 Physician Resident Progress Note
Chief Complaint: 74 year old female with newly diagnosed metastatic
   ovarian cancer on pressors and previously on CVVH trasnferred from west
   to east ICU for ureteral stenting. Now s/p chemotherapy x1 without
   effect.  Patient family has not been able yet to get second opinion
   from [**Hospital3 1956**]. Requesting possible transfer to the [**Hospital1 1030**].
   24 Hour Events:
   Dr. [**Last Name (STitle) **] spoke with her family and patient yesterday together to
   give update.  Explained to patient and familiy that she was dying which
   agitated the patient. Her son [**Name (NI) **] has not found oncologist yet willing
   to come over here to see patient.  He found radiologist? to see
   patient. Explained to family that radiologist is not appropriate person
   for opinion on chemotherapy. Seen by opthalmology who stated that there
   is no [**Female First Name (un) **] in the eye.  yesterday foley was d/c. apparently only
   output since then was 100 cc yesterday at 5 pm, otherwise none. bladder
   scan per nursing was 0 however difficult to scan secondary to large
   volume edema. Nursing at this point not sure that they will be able to
   get repeat foley in due to whole body anasarca. L chest tube putting
   out a lot. 8 am incontinent of large amount of urine.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-16**] 06:08 PM
   Meropenem - [**2138-10-17**] 12:30 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-16**] 07:30 PM
   Morphine Sulfate - [**2138-10-17**] 06:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2138-10-17**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.9
C (96.7
   HR: 96 (80 - 100) bpm
   BP: 84/52(66) {70/44(57) - 109/75(90)} mmHg
   RR: 24 (16 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 7 (1 - 8)mmHg
   Total In:
                                                                  3,019 mL
                                                                    457 mL
   PO:
   TF:
                                                                    700 mL
                                                                    206 mL
   IVF:
                                                                  1,659 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                  2,411 mL
                                                                  1,865 mL
   Urine:
                                                                    341 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    608 mL
                                                                 -1,408 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases bilaterally)
   Abdominal: obese, distended, minimal bowel sounds
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm, weeping with edema
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   114 K/uL
   9.0 g/dL
   105 mg/dL
   0.9 mg/dL
   27 mEq/L
   5.0 mEq/L
   37 mg/dL
   105 mEq/L
   137 mEq/L
   27.3 %
   13.3 K/uL
        [image002.jpg]
                             [**2138-10-14**]  10:08 AM
                             [**2138-10-14**]  04:38 PM
                             [**2138-10-14**]  05:23 PM
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
                             [**2138-10-17**]  03:17 AM
   WBC
   10.5
   11.3
   13.3
   Hct
   26.4
   27.4
   27.3
   Plt
   73
   80
   114
   Cr
   0.5
   0.5
   0.7
   0.9
   TCO2
   27
   27
   32
   27
   Glucose
   117
   136
   102
   109
   84
   105
   Other labs: PT / PTT / INR:13.4/24.6/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/39, Alk Phos / T Bili:80/0.4,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.5
   g/dL, LDH:320 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   74 yo female with metastatic adenocarcinoma now with persistent
   ventilatory failure, renal failure and sepsis with most recent pathogen
   identified as fungus present within blood, urine and sputum cultures.
   Her sepsis did appear to transiently improve with antibacterial therapy
   and we were able to D/C IV pressors, however, we now have had recurrent
   decline in the setting of positive fungal cultures.
    1)Respiratory Failure-Continued high output from chest tubes due to
   malignant effusions.  Have no capacity to maintain favorable
   ventilatory mechanics despite drainage of fluids which would suggest
   that abdominal malignancy process is primary driver of persistent
   ventilatory failure.  Patient is currently requiring increased
   ventilatory support.
   - leave chest tube clamped for today with plan for intermittient
   drainage as needed for pulmonary support
   -Patient with likely persistent restriction of chest wall mechanics
   with abdominal malignancy and has been minimally improved with chest
   tube drainage.
   -Alb/Atrovent nebs PRN
   -Currently not expected to be able to tolerate extubation given current
   ventilatory mechanics, expect that might initially be successful for a
   day or so as before
   2)Sepsis-Possible fungal source of infection
   -Meropenem-for enterobacter treatment
   -Caspofungin-for initial treatment of fungal cultures
   - seen by opthalmology who did not see any evidence of fungus in the
   retina
   -Levophed, will continue to try to wean as tolerated
   -Pred 20mg/d
   -IVF bolus as needed to look to wean pressors (yesterday recieved 500
   cc bolus, 250 cc bolus) however suspect that all of this fluid in
   extravascular space, will again give 500 cc NS this morning for low CVP
   and continue to bolus PRN
   - keep brachial a-line for now, if fails to improve clinically consider
   switching out the lines
   - repeat blood cultures
   3)Acute Renal Failure--Had evidence of persistent limited urine flow
   but right now no evidence of need for return to dialysis
   - d/c foley yesterday with only 100 cc of urine produced. bladder scan
   showed no fluid in the bladder however this is obviously limited by
   diffuse whole body anasarca, nursing unable yet to replace foley
   catheter due to whole body swelling
   - this AM with large volume of incontinent urine
   - currently electrolytes are OK, although K 5.0
   - do not think that patient should be offerred furthur CVVH or HD at
   this time given clinical scenario
   - check PM lytes
   - monitor UOP
   4)Metastatic Malignancy-
   -No further chemotherapy recommended per oncology here
   -Favor clamp of chest tube with intermittent drainage
   -No other role for intervention based upon oncology team here.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   FEN: tube feeds, IVF bolus PRN
   PPx- penumoboots, heparin subQ
   Code: Full code
   Patient does NOT wish to transfer care .
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2138-10-15**] 06:16 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-17 11:54:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                          History obtained from [**Hospital 15**] Medical records
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-16**] 06:08 PM
   Meropenem - [**2138-10-17**] 12:30 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-16**] 07:30 PM
   Morphine Sulfate - [**2138-10-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-17**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.8
C (96.5
   HR: 90 (80 - 100) bpm
   BP: 105/64(81) {70/44(56) - 109/75(90)} mmHg
   RR: 31 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 8 (1 - 8)mmHg
   Total In:
                                                                  3,021 mL
                                                                    703 mL
   PO:
   TF:
                                                                    702 mL
                                                                    348 mL
   IVF:
                                                                  1,659 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  2,411 mL
                                                                  1,865 mL
   Urine:
                                                                    341 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    610 mL
                                                                 -1,162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   114 K/uL
   105 mg/dL
   0.9 mg/dL
   27 mEq/L
   5.0 mEq/L
   37 mg/dL
   105 mEq/L
   137 mEq/L
   27.3 %
   13.3 K/uL
        [image002.jpg]
                             [**2138-10-14**]  10:08 AM
                             [**2138-10-14**]  04:38 PM
                             [**2138-10-14**]  05:23 PM
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
                             [**2138-10-17**]  03:17 AM
   WBC
   10.5
   11.3
   13.3
   Hct
   26.4
   27.4
   27.3
   Plt
   73
   80
   114
   Cr
   0.5
   0.5
   0.7
   0.9
   TCO2
   27
   27
   32
   27
   Glucose
   117
   136
   102
   109
   84
   105
   Other labs: PT / PTT / INR:13.4/24.6/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/39, Alk Phos / T Bili:80/0.4,
   Amylase / Lipase:26/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:1.5
   g/dL, LDH:320 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR-
   Microbiology: No new culture results positive
   Assessment and Plan
   74 yo female with metastatic adenocarcinoma and absence of response to
   chemotherapy.  No further treatment offered by oncology.  She has had
   persisent hypotension and worsening respiratory failure with CMV now
   required for support of venilation and oxygenation which is a decline
   compared with yesterday.  Pressor requirement for support of blood
   pressure remains unchanged.
   1)Respiratory Failure-Acute and Chronic
   -Versed and MSO4 PRN for discomfort
   -Chest tubes with continued large volume drainage
will clamp tubes and
   drain intermittently
   -Continue with CMV support given need for full support
   -Continue empiric antibiotic support
   2)Acute Renal Failure-
   -No inidcations for dialysis at this moment
   -Minimal evidence of return of renal function
   -Will continue to minimize fluid inputs
   -Will have to consider the possibility of even offering dialysis should
   it need to be re-considered in the setting of progressive clinical
   decline and no expectation for recovery
   -F/U EKG for possible peak t-waves
   3)Sepsis-
   -Levophed
   -Caspo/Meropenem
   -Prednisone 10mg qd and will taper to off
   -Maintain goal CVP8-10 and bolus as necessary
   -All venous lines and foley catheter changed in the setting of
   candidemia
   4)Malignancy-
   -No treatment offered at this time
   -Will continue with palliative interventions consitent with the patient
   wishes.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2138-10-17**] 07:23 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
will need to discuss with family code status and
   goals of care
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2138-10-18 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2138-10-17**] 01:42 PM
 EKG - At [**2138-10-17**] 05:06 PM
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-17**] 08:00 PM
   Meropenem - [**2138-10-18**] 12:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2138-10-17**] 06:15 PM
   Insulin - Regular - [**2138-10-17**] 06:20 PM
   Pantoprazole (Protonix) - [**2138-10-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-18**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 94 (81 - 102) bpm
   BP: 86/50(62) {80/44(56) - 122/77(95)} mmHg
   RR: 20 (20 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 6 (4 - 8)mmHg
   Total In:
                                                                  3,481 mL
                                                                    607 mL
   PO:
   TF:
                                                                    539 mL
                                                                    199 mL
   IVF:
                                                                  2,403 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                     30 mL
   Urine:
   NG:
                                                                    460 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    381 mL
                                                                    577 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 106
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 9.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   145 K/uL
   9.1 g/dL
   88 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.8 mEq/L
   45 mg/dL
   105 mEq/L
   137 mEq/L
   28.3 %
   13.6 K/uL
        [image002.jpg]
                             [**2138-10-14**]  05:23 PM
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
                             [**2138-10-17**]  03:17 AM
                             [**2138-10-17**]  04:45 PM
                             [**2138-10-18**]  05:00 AM
   WBC
   10.5
   11.3
   13.3
   13.6
   Hct
   26.4
   27.4
   27.3
   28.3
   Plt
   73
   80
   114
   145
   Cr
   0.5
   0.5
   0.7
   0.9
   1.0
   TCO2
   27
   32
   27
   Glucose
   136
   102
   109
   84
   105
   110
   Other labs: PT / PTT / INR:13.4/24.6/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:90.4 %, Band:0.0 %,
   Lymph:5.6 %, Mono:3.8 %, Eos:0.2 %, Lactic Acid:2.2 mmol/L, Albumin:1.5
   g/dL, LDH:257 IU/L, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   74 yo female with metastatic adenocarcinoma now with persistent
   ventilatory failure, renal failure and sepsis with most recent pathogen
   identified as fungus present within blood, urine and sputum cultures.
   Her sepsis did appear to transiently improve with antibacterial therapy
   and we were able to D/C IV pressors, however, we now have had recurrent
   decline in the setting of positive fungal cultures.
    1)Respiratory Failure-Continued high output from chest tubes due to
   malignant effusions.  Have no capacity to maintain favorable
   ventilatory mechanics despite drainage of fluids which would suggest
   that abdominal malignancy process is primary driver of persistent
   ventilatory failure.  Patient is currently requiring increased
   ventilatory support.
   - leave chest tube clamped for today with plan for intermittient
   drainage as needed for pulmonary support
   -Patient with likely persistent restriction of chest wall mechanics
   with abdominal malignancy and has been minimally improved with chest
   tube drainage.
   -Alb/Atrovent nebs PRN
   -Currently not expected to be able to tolerate extubation given current
   ventilatory mechanics, expect that might initially be successful for a
   day or so as before
   2)Sepsis-Possible fungal source of infection
   -Meropenem-for enterobacter treatment
   -Caspofungin-for initial treatment of fungal cultures
   - seen by opthalmology who did not see any evidence of fungus in the
   retina
   -Levophed, will continue to try to wean as tolerated
   -Pred 20mg/d
   -IVF bolus as needed to look to wean pressors (yesterday recieved 500
   cc bolus, 250 cc bolus) however suspect that all of this fluid in
   extravascular space, will again give 500 cc NS this morning for low CVP
   and continue to bolus PRN
   - keep brachial a-line for now, if fails to improve clinically consider
   switching out the lines
   - repeat blood cultures
   3)Acute Renal Failure--Had evidence of persistent limited urine flow
   but right now no evidence of need for return to dialysis
   - d/c foley yesterday with only 100 cc of urine produced. bladder scan
   showed no fluid in the bladder however this is obviously limited by
   diffuse whole body anasarca, nursing unable yet to replace foley
   catheter due to whole body swelling
   - this AM with large volume of incontinent urine
   - currently electrolytes are OK, although K 5.0
   - do not think that patient should be offerred furthur CVVH or HD at
   this time given clinical scenario
   - check PM lytes
   - monitor UOP
   4)Metastatic Malignancy-
   -No further chemotherapy recommended per oncology here
   -Favor clamp of chest tube with intermittent drainage
   -No other role for intervention based upon oncology team here.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   FEN: tube feeds, IVF bolus PRN
   PPx- penumoboots, heparin subQ
   Code: Full code
   Patient does NOT wish to transfer care .
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2138-10-17**] 01:43 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-19 07:43:00 Physician Resident Progress Note
Chief Complaint: Acute renal failure, anasarca, SOB
   24 Hour Events:
   Patient with K ~5.5; will be monitored today
   Renally dosed medicines yesterday
   Meropenem stopped yesterday
   Family working on DF consult; social work involved.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2138-10-18**] 12:00 AM
   Caspofungin - [**2138-10-18**] 08:00 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-19**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 95 (85 - 107) bpm
   BP: 74/45(57) {65/39(50) - 109/74(88)} mmHg
   RR: 20 (20 - 46) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 1 (1 - 10)mmHg
   Total In:
                                                                  2,426 mL
                                                                    713 mL
   PO:
   TF:
                                                                    720 mL
                                                                    230 mL
   IVF:
                                                                    956 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                     30 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,396 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   Abdominal walls with anasarca
   Extremities: Right: 4+, Left: 4+, Anasarca
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   162 K/uL
   8.9 g/dL
   99 mg/dL
   1.3 mg/dL
   24 mEq/L
   5.0 mEq/L
   51 mg/dL
   104 mEq/L
   137 mEq/L
   28.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
                             [**2138-10-17**]  03:17 AM
                             [**2138-10-17**]  04:45 PM
                             [**2138-10-18**]  05:00 AM
                             [**2138-10-19**]  05:58 AM
   WBC
   10.5
   11.3
   13.3
   13.6
   12.0
   Hct
   26.4
   27.4
   27.3
   28.3
   28.1
   Plt
   73
   80
   114
   145
   162
   Cr
   0.5
   0.5
   0.7
   0.9
   1.0
   1.2
   1.3
   TCO2
   32
   27
   Glucose
   136
   102
   109
   84
   105
   110
   88
   99
   Other labs: PT / PTT / INR:14.0/24.5/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:88.8 %, Band:0.0 %,
   Lymph:6.8 %, Mono:4.2 %, Eos:0.2 %, Lactic Acid:2.2 mmol/L, Albumin:1.5
   g/dL, LDH:257 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   74 yo female with metastatic adenocarcinoma now with persistent
   ventilatory failure, renal failure and sepsis with most recent pathogen
   identified as fungus present within blood, urine and sputum cultures.
   Her sepsis did appear to transiently improve with antibacterial therapy
   and we were able to D/C IV pressors, however, we now have had recurrent
   decline in the setting of positive fungal cultures.
    1)Respiratory Failure-Continued high output from chest tubes due to
   malignant effusions.  Have no capacity to maintain favorable
   ventilatory mechanics despite drainage of fluids which would suggest
   that abdominal malignancy process is primary driver of persistent
   ventilatory failure.  Patient is currently requiring increased
   ventilatory support.
   - currently not on sedation
   -contact IP about chest tubes (will likely stay in and stay clamped for
   now)
   -Alb/Atrovent nebs PRN
   -continue to assess for extubation however unlikely today as pt still
   on AC
   2)Sepsis-Possible fungal source of infection
   -Meropenem-d/c today
   -Caspofungin-for initial treatment of fungal cultures
   -Levophed, will continue to try to wean as tolerated
   -Prednisone 10mg qd
   -f/u cultures
   3)Acute Renal Failure--Had evidence of persistent limited urine flow
   but right now no evidence of need for return to dialysis
   - d/c foley yesterday with only 100 cc of urine produced. bladder scan
   showed no fluid in the bladder however this is obviously limited by
   diffuse whole body anasarca, nursing unable yet to replace foley
   catheter due to whole body swelling
   - continues to be incontinent of urine
   - closely monitor K
   - if hyperkalemic- EKG, kayexelate, lasix if necessary
   -renally dose medications
   -attempt to keep I/O even
   4)Metastatic Malignancy-
   -Family is working on 2^nd opinion from outside oncologist
   -Favor clamp of chest tube with intermittent drainage
   -No other role for intervention based upon oncology team here.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   FEN: tube feeds, IVF bolus PRN
   PPx- penumoboots, heparin subQ
   Code: Full code
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2138-10-19**] 04:15 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-19 13:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Finished merepenem for Enterbacter +sputum
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2138-10-18**] 12:00 AM
   Caspofungin - [**2138-10-18**] 08:00 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-18**] 08:00 PM
   Morphine Sulfate - [**2138-10-19**] 12:03 PM
   Other medications: alb/atrov, levophed 0.1, prednisone 10mg qd, free
   water boluses, morphine prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-19**] 12:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 95 (86 - 107) bpm
   BP: 91/61(90) {64/38(49) - 113/75(90)} mmHg
   RR: 21 (20 - 46) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
   CVP: 1 (1 - 10)mmHg
   Total In:
                                                                  2,426 mL
                                                                  1,135 mL
   PO:
   TF:
                                                                    720 mL
                                                                    381 mL
   IVF:
                                                                    956 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                     30 mL
                                                                     30 mL
   Urine:
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,396 mL
                                                                  1,105 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 6.8 L/min
   Physical Examination
   Awake, responds to verbal commands
   Lungs scattered wheezes
   CV: RRR
   Abd: distended, hypoactive bs, not tender
   Ext: diffuse edema
   Distal digit ischemia (new from yesterday)
   Labs / Radiology
   8.9 g/dL
   162 K/uL
   99 mg/dL
   1.3 mg/dL
   24 mEq/L
   5.0 mEq/L
   51 mg/dL
   104 mEq/L
   137 mEq/L
   28.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
                             [**2138-10-17**]  03:17 AM
                             [**2138-10-17**]  04:45 PM
                             [**2138-10-18**]  05:00 AM
                             [**2138-10-19**]  05:58 AM
   WBC
   10.5
   11.3
   13.3
   13.6
   12.0
   Hct
   26.4
   27.4
   27.3
   28.3
   28.1
   Plt
   73
   80
   114
   145
   162
   Cr
   0.5
   0.5
   0.7
   0.9
   1.0
   1.2
   1.3
   TCO2
   32
   27
   Glucose
   136
   102
   109
   84
   105
   110
   88
   99
   Other labs: PT / PTT / INR:14.0/24.5/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:88.8 %, Band:0.0 %,
   Lymph:6.8 %, Mono:4.2 %, Eos:0.2 %, Lactic Acid:2.2 mmol/L, Albumin:1.5
   g/dL, LDH:257 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   CXR: small left effusion
   Assessment and Plan
   74 year old female with metastatic ov CA/pleural and pericardial
   effusions and ascites with complicated course including acute resp
   failure , with restrictive physiology (malignant pleural
   effusions/ascites), hypotension requiring ongoing pressors, ARF on
   intermittent CVVH, [**Female First Name (un) 1354**] fungemia,
   Resp failure: combination of restrictive physiology (Ascites + body
   size), anasarca
     Remains on ACV
     CT remains clamped
   Shock/hypotension: remains pressor-dependent on levophed
     Digit necrosis new- though may not be able to reverse course given >1
   month of being pressor dependent, will see if switch to dopamine can
   maintain MAP without same effect
     Further taper prednisone
   ARF: no acute need for dialysis today
   Metastatic ovarian CA: family continuing to search for second opinion.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2138-10-19**] 04:15 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: mouth care, HOB elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2138-10-19 20:14:00 Physician Resident Progress Note
Chief Complaint: Acute renal failure, anasarca, SOB
   24 Hour Events:
   Patient with K ~5.5; will be monitored today
   Renally dosed medicines yesterday
   Meropenem stopped yesterday
   Family working on DF consult; social work involved.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2138-10-18**] 12:00 AM
   Caspofungin - [**2138-10-18**] 08:00 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-19**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 95 (85 - 107) bpm
   BP: 74/45(57) {65/39(50) - 109/74(88)} mmHg
   RR: 20 (20 - 46) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 1 (1 - 10)mmHg
   Total In:
                                                                  2,426 mL
                                                                    713 mL
   PO:
   TF:
                                                                    720 mL
                                                                    230 mL
   IVF:
                                                                    956 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                     30 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,396 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   Abdominal walls with anasarca
   Extremities: Right: 4+, Left: 4+, Anasarca
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   162 K/uL
   8.9 g/dL
   99 mg/dL
   1.3 mg/dL
   24 mEq/L
   5.0 mEq/L
   51 mg/dL
   104 mEq/L
   137 mEq/L
   28.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2138-10-14**]  10:00 PM
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
                             [**2138-10-17**]  03:17 AM
                             [**2138-10-17**]  04:45 PM
                             [**2138-10-18**]  05:00 AM
                             [**2138-10-19**]  05:58 AM
   WBC
   10.5
   11.3
   13.3
   13.6
   12.0
   Hct
   26.4
   27.4
   27.3
   28.3
   28.1
   Plt
   73
   80
   114
   145
   162
   Cr
   0.5
   0.5
   0.7
   0.9
   1.0
   1.2
   1.3
   TCO2
   32
   27
   Glucose
   136
   102
   109
   84
   105
   110
   88
   99
   Other labs: PT / PTT / INR:14.0/24.5/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:88.8 %, Band:0.0 %,
   Lymph:6.8 %, Mono:4.2 %, Eos:0.2 %, Lactic Acid:2.2 mmol/L, Albumin:1.5
   g/dL, LDH:257 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   74 yo female with metastatic adenocarcinoma now with persistent
   ventilatory failure, renal failure and sepsis with most recent pathogen
   identified as fungus present within blood, urine and sputum cultures.
   Her sepsis did appear to transiently improve with antibacterial therapy
   and we were able to D/C IV pressors, however, we now have had recurrent
   decline in the setting of positive fungal cultures.
   # Respiratory Failure- Patient with aspiration PNA s/p treatment,
   bilateral pleural effusions that have been stable, ascities that
   slightly improved. Now with bilateral chest tubes, which have very high
   output. On the ventilator mechanics, she has very low tidal volume, low
   risbi, but gets tired easily after being extubated. She has
   continuously high peak pressures with high plateaus suggesting some
   restrictive component, which may be due to chest wall edema, since
   lungs are clear with stable effusions. Patient off sedation fully aware
   and with low secretions.
   -Swith to pressure support [**10-26**] today and re-assess
   -Patient has been intubated for more than 3 weeks now and needs a
   tracheostomy
   -Continue nebs
   -If worsening effusions will unclamp chest tubes
   # Sepsis-Possible fungal source of infection
   -Caspofungin-for initial treatment of fungal cultures
   -Levophed, will continue to try to wean as tolerated
   -Prednisone 10mg qd decreasing to 5mg today
   -f/u cultures
   # Acute Renal Failure- Has persisten UOP, but it is not being
   quantified due to technical difficulties with her body habitus,
   anasarca and weeping skin. Creatinine slowly creeping up. [**Month (only) 51**] need
   HD/CVVH soon, but no indication as far as today. If so were to happen
   she would need a tunneled catheter.
   -          PM lytes (monitor K)
   -          Renally dose medications
   -          Minimize volume of medications and fluids given
   -          Try to weight diapeers
   # Metastatic Malignancy-
   -Family is working on 2^nd opinion from outside oncologist
   -Favor clamp of chest tube with intermittent drainage
   -No other role for intervention based upon oncology team here.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   FEN: tube feeds, IVF bolus PRN
   PPx- penumoboots, heparin subQ
   Code: Full code
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2138-10-19**] 04:15 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-20 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events overnight.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2138-10-18**] 12:00 AM
   Caspofungin - [**2138-10-19**] 07:40 PM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-19**] 07:40 PM
   Morphine Sulfate - [**2138-10-20**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-20**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 91 (83 - 101) bpm
   BP: 97/56(72) {79/46(59) - 128/84(101)} mmHg
   RR: 29 (20 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  2,366 mL
                                                                    728 mL
   PO:
             TF:
                                                                    608 mL
                                                                    200 mL
   IVF:
                                                                    933 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                     30 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,336 mL
                                                                    728 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 147
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   SpO2: 93%
   ABG: ///22/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   Abdominal walls with anasarca
   Extremities: Right: 4+, Left: 4+, Anasarca
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   162 K/uL
   8.7 g/dL
   104 mg/dL
   1.4 mg/dL
   22 mEq/L
   5.1 mEq/L
   56 mg/dL
   102 mEq/L
   134 mEq/L
   26.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2138-10-15**]  03:53 AM
                             [**2138-10-15**]  07:48 AM
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
                             [**2138-10-17**]  03:17 AM
                             [**2138-10-17**]  04:45 PM
                             [**2138-10-18**]  05:00 AM
                             [**2138-10-19**]  05:58 AM
                             [**2138-10-20**]  06:12 AM
   WBC
   10.5
   11.3
   13.3
   13.6
   12.0
   12.0
   Hct
   26.4
   27.4
   27.3
   28.3
   28.1
   26.3
   Plt
   73
   80
   114
   145
   162
   162
   Cr
   0.5
   0.7
   0.9
   1.0
   1.2
   1.3
   1.4
   TCO2
   32
   27
   Glucose
   102
   109
   84
   105
   110
   88
   99
   104
   Other labs: PT / PTT / INR:14.1/25.5/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:88.8 %, Band:0.0 %,
   Lymph:6.8 %, Mono:4.2 %, Eos:0.2 %, Lactic Acid:2.2 mmol/L, Albumin:1.5
   g/dL, LDH:257 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   74 yo female with metastatic adenocarcinoma now with persistent
   ventilatory failure, renal failure and sepsis with most recent pathogen
   identified as fungus present within blood, urine and sputum cultures.
   Her sepsis did appear to transiently improve with antibacterial therapy
   and we were able to D/C IV pressors, however, we now have had recurrent
   decline in the setting of positive fungal cultures.
   # Respiratory Failure- Patient with aspiration PNA s/p treatment,
   bilateral pleural effusions that have been stable, ascities that
   slightly improved. Now with bilateral chest tubes, which have very high
   output. On the ventilator mechanics, she has very low tidal volume, low
   risbi, but gets tired easily after being extubated. She has
   continuously high peak pressures with high plateaus suggesting some
   restrictive component, which may be due to chest wall edema, since
   lungs are clear with stable effusions. - Patient receiving 3 mcg
   midazolam, wean if possible
   -Patient has been intubated for more than 3 weeks now and needs a
   tracheostomy
   -Continue nebs
   -If worsening effusions will unclamp chest tubes
   # Sepsis-Possible fungal source of infection
   -Caspofungin-for initial treatment of fungal cultures
   -Levophed, will continue to try to wean as tolerated (currently 0.1
   mcg/kg/min)
   -Prednisone 10mg qd decreased to 5mg yesterday
   -f/u cultures
   # Acute Renal Failure- Has persisten UOP, but it is not being
   quantified due to technical difficulties with her body habitus,
   anasarca and weeping skin. Creatinine slowly creeping up. [**Month (only) 51**] need
   HD/CVVH soon, but no indication as far as today. If so were to happen
   she would need a tunneled catheter.
   - Renally dose meds
   - Monitor lytes
   # Metastatic Malignancy-
   -Family is working on 2nd opinion from outside oncologist
   -Favor clamp of chest tube with intermittent drainage
   -No other role for intervention based upon oncology team here.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   FEN: tube feeds, IVF bolus PRN
   PPx- penumoboots, heparin subQ
   Code: Full code
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2138-10-19**] 04:15 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-21 07:14:00 Physician Resident Progress Note
Chief Complaint:
   Respiratory failure, acute renal failure, anasarca
   24 Hour Events:
   - Pt unable to wean off of pressor support, now back on levophed
   (0.3-0.5)
   - IP can do trach on Wed, will need to speak with family
   - Doctor to doctor request for [**Company 2021**] 2nd opinion pending per oncology.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-20**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-20**] 08:13 PM
   Morphine Sulfate - [**2138-10-20**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-21**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 95 (83 - 108) bpm
   BP: 94/55(71) {59/40(48) - 115/74(90)} mmHg
   RR: 22 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  2,325 mL
                                                                    633 mL
   PO:
             TF:
                                                                    562 mL
                                                                    177 mL
   IVF:
                                                                  1,138 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                    187 mL
                                                                     51 mL
   Urine:
                                                 187 mL (1p-12a = 17cc/hr)
                                                                     51 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,138 mL
                                                                    582 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 180
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Responsive to verbal stimuli, intubated
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube in
   place
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   anasarca
   Extremities: Significant peripheral edema with cold digits.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli,
   Labs / Radiology
   197 K/uL
   8.3 g/dL
   104 mg/dL
   1.4 mg/dL
   22 mEq/L
   5.1 mEq/L
   57 mg/dL
   100 mEq/L
   131 mEq/L
   25.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2138-10-15**]  11:19 AM
                             [**2138-10-16**]  03:01 AM
                             [**2138-10-16**]  03:18 AM
                             [**2138-10-17**]  03:17 AM
                             [**2138-10-17**]  04:45 PM
                             [**2138-10-18**]  05:00 AM
                             [**2138-10-19**]  05:58 AM
                             [**2138-10-20**]  06:12 AM
                             [**2138-10-20**]  01:44 PM
                             [**2138-10-21**]  06:22 AM
   WBC
   11.3
   13.3
   13.6
   12.0
   12.0
   11.3
   Hct
   27.4
   27.3
   28.3
   28.1
   26.3
   25.3
   Plt
   80
   114
   145
   162
   162
   197
   Cr
   0.7
   0.9
   1.0
   1.2
   1.3
   1.4
   1.4
   TCO2
   27
   Glucose
   109
   84
   105
   110
   88
   99
   104
   Other labs: PT / PTT / INR:14.1/25.5/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:91.4 %, Band:0.0 %,
   Lymph:5.9 %, Mono:2.5 %, Eos:0.2 %, Lactic Acid:3.0 mmol/L, Albumin:1.5
   g/dL, LDH:261 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   74 yo female with metastatic ovarian adenocarcinoma admitted with
   persistent respiratory failure with multipe failed extubations,
   hypotension requiring prolonged pressor support, acute renal failure
   requiring CVVH, and [**Female First Name (un) 1354**] fungemia.
   .
   # Respiratory Failure: Patient has completed antimicrobial therapy for
   aspiration pneumonia.  She has bilateral chest tubes in place that are
   currently clamped off. CXR this morning suggests unchanged pleural
   effusions.  Patient has been intubated for a significant period of
   time, and will likely be difficult to extubate successfully in the
   short-term.
   - Continue nebs
   - Appreciate IP recs. Will hold off on pulling right chest tube and
   will send off cell count, glucose, and culture from left chest tube.
   - Discussed with IP, tentative plan for trach on Wednesday, will need
   to discuss with family. DDAVP available on call for Wednesday. NPO with
   TF shut off at midnight.
   .
   # Fungemia: Patient with [**Female First Name (un) 1354**] fungemia treated currently with
   Caspofungin.
   - Continue caspofungin for [**Female First Name (un) 1354**] fungemia
   - F/u cultures, last positive on [**10-9**]
   .
   # Hypotension: Patient persistently hypotensive requiring prolonged
   norepinephrine. Failed trial of dopamine secondary to tachycardia.
   Failed wean off of norepinephrine yesterday secondary to decreased UOP
   and MAP~60, although still mentating well.
   - Add vasopressin, titrate down on levophed.
   - Monitor UOP, lactate, mentation
   - F/u on TFTs per endocrine request
   - Continue prednisone 5 mg for additional 2 days.
   .
   # Acute Renal Failure: Creatinine this AM up to 1.6 from 1.4, and
   potassium up to 5.3 from 5.1. FC placed yesterday with UOP of 187cc
   from 1p-12am yesterday (17cc/hr).  Renal is following patient and will
   assess need for CVVH on a daily basis.
   - Trend creatinine, BUN, electrolytes
   - Place FC, monitor UOP
   - Urine lytes pending
   - Renally dose meds, avoid nephrotoxins.
   - f/u with renal
   .
   # Metastatic Malignancy: Provider to provider second opinion requested
   yesterday.
   - Follow-up with oncology.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   .
   # FEN: tube feeds (hold at midnight), IVF bolus PRN
   .
   # PPx: SCDs and PPI
   .
   # Code: Full code
   .
   # Lines: Left IJ, bilateraly CT, brachial aline, OG, FC, ETT
   .
   # Dipso: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2138-10-20**] 05:50 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-22 06:21:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, acute renal failure, metastatic
   ovarian CA
   [**54**] Hour Events:
   - Hypotensive with MAP in 50s after levophed turned off, UOP minimal
   all day, mentation unchanged. Levophed turned back on at lowest dose
   possible with continued vasopressin.
   - Renal recs: would not treat for hyperkalemia unless k>5.7. Add
   calcium carbonate tid.
   - IP: Trach now planned for Thursday with [**Doctor Last Name 2249**] as IP will need to
   schedule with anesthesia.  NPO at midnight.
   - Patient with increased residuals, TF shut off.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-21**] 07:49 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2138-10-21**] 04:15 PM
   Pantoprazole (Protonix) - [**2138-10-21**] 07:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-22**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 83 (79 - 96) bpm
   BP: 104/67(82) {78/49(63) - 123/76(95)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  2,457 mL
                                                                    241 mL
   PO:
             TF:
                                                                    410 mL
   IVF:
                                                                  1,667 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                    618 mL
                                                                    365 mL
   Urine:
                                                                    218 mL
                                                                    115 mL
   NG:
                                                                    400 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  1,839 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   SpO2: 94%
   ABG: ///21/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Responsive to verbal stimuli, intubated
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube in
   place
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   anasarca
   Extremities: Significant peripheral edema with cold digits, although
   improved from yesterday.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli
   Labs / Radiology
   215 K/uL
   7.6 g/dL
   104 mg/dL
   1.6 mg/dL
   21 mEq/L
   5.4 mEq/L
   63 mg/dL
   101 mEq/L
   134 mEq/L
   23.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2138-10-17**]  04:45 PM
                             [**2138-10-18**]  05:00 AM
                             [**2138-10-19**]  05:58 AM
                             [**2138-10-20**]  06:12 AM
                             [**2138-10-20**]  01:44 PM
                             [**2138-10-21**]  06:22 AM
                             [**2138-10-21**]  12:00 PM
                             [**2138-10-21**]  06:00 PM
                             [**2138-10-22**]  12:00 AM
                             [**2138-10-22**]  04:17 AM
   WBC
   13.6
   12.0
   12.0
   11.3
   9.4
   Hct
   28.3
   28.1
   26.3
   25.3
   23.3
   Plt
   145
   162
   162
   197
   215
   Cr
   1.0
   1.2
   1.3
   1.4
   1.4
   1.6
   1.6
   Glucose
   110
   88
   99
   104
   106
   112
   110
   107
   104
   Other labs: PT / PTT / INR:14.1/27.2/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:91.4 %, Band:0.0 %,
   Lymph:5.9 %, Mono:2.5 %, Eos:0.2 %, Lactic Acid:3.0 mmol/L, Albumin:1.5
   g/dL, LDH:261 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:5.5 mg/dL
   Fluid analysis / Other labs:
    Pleural fluid: WBC 100 RBC 620 N 14 L 12 M 20 O 4 Glucose 86
   Imaging: CXR ([**10-21**]):
   Since yesterday, ETT tip is 1.1 cm above the carina with flexion of the
   neck,
   probably in good position. The nasogastric tube ends in the stomach.
   Left
   central venous line ends in the mid SVC. Bilateral pigtails are in
   place.
   Small left pleural effusion decreased, and tiny right pleural effusion
   is
   unchanged. Adjacent atelectasis is unchanged on the left but slightly
   increased on the right. Lungs are otherwise clear. The
   cardiomediastinal
   silhouette and hilar contours are normal.
   Microbiology: Pleural gram stain - negative
   Assessment and Plan
   74 yo female with metastatic ovarian adenocarcinoma admitted with
   persistent respiratory failure with multipe failed extubations,
   hypotension requiring prolonged pressor support, acute renal failure
   requiring CVVH, and [**Female First Name (un) 1354**] fungemia.
   .
   # Respiratory Failure: Patient has completed antimicrobial therapy for
   aspiration pneumonia.  She has bilateral chest tubes in place that are
   currently clamped off. CXR this morning suggests unchanged pleural
   effusions.  Patient has been intubated for a significant period of
   time, and will likely be difficult to extubate successfully in the
   short-term.  Discussed with IP, tentative plan for bedside trach
   tomorrow.
   - Plan per IP for trach tomorrow. Will order ddAVP 60 minutes prior.
   Patient NPO at midnight.
   - Continue nebs
   - Pleural fluid gram stain negative, f/u cultures
   .
   # Fungemia: Patient with [**Female First Name (un) 1354**] fungemia treated currently with
   Caspofungin for total of 14 days from earliest negative blood culture.
   - Continue caspofungin for Candidemia ([**9-4**])
   - F/u cultures, last positive on [**10-9**]
   .
   # Hypotension: Patient persistently hypotensive requiring prolonged
   norepinephrine. Failed trial of dopamine secondary to tachycardia.
   Failed wean off of norepinephrine secondary to hypotension.  Attempted
   to convert to vasopressin yesterday and patient became hypotensive.
   Currently on vasopressin and minimal levophed.
   - Continue vasopressin and attempt to titrate down on levophed.
   - Monitor UOP, lactate, mentation
   - Convert systemic steroids to 10 mg hydrocortisone q12h.
   .
   # Acute Renal Failure: Creatinine this AM unchanged at 1.6.  Potassium
   up to 5.4 from 5.3. FC placed with continued minimal UOP.  Renal is
   following patient and will assess need for CVVH on a daily basis.
   - Trend creatinine, BUN, electrolytes
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins.
   - f/u with renal recs
   - Started on CaCO3 yesterday per renal recs.
   .
   # Metastatic Malignancy: Provider to provider second opinion requested
   both for [**Company 2021**] and at [**Hospital1 19**].
   - Follow-up with oncology.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   .
   # FEN: tube feeds held secondary to increased residuals.  Start
   erythromycin for promotility and attempt to slowly restart tube feeds,
   IVF bolus PRN. Pull OG and resite with NG.
   .
   # PPx: SCDs and PPI
   .
   # Code: Full code
   .
   # Lines: Left IJ, bilateral CT, brachial aline, OG, FC, ETT.  Replace
   OG with NG as above.
   .
   # Dipso: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-23 06:50:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, acute renal failure, hypotension,
   and metastatic ovarian CA
   [**54**] Hour Events:
   - IP - tracheotomy postponed to Friday at 9:30AM [**2-22**] availability;
   needs DDAVP 1 hour before procedure
   - Unable to placed NG/OG (placed but coughed out). Ordered for
   fluoroscopy guided NGT placement for Thursday.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-22**] 08:06 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-22**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-23**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 80 (80 - 93) bpm
   BP: 97/60(77) {84/54(67) - 110/66(85)} mmHg
   RR: 18 (0 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  1,136 mL
                                                                    197 mL
   PO:
             TF:
   IVF:
                                                                  1,136 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                     95 mL
   Urine:
                                                                    310 mL
                                                                     95 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                    576 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, Unstable Airway
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: Responsive to verbal stimuli, intubated
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube in
   place
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Markedly distended,
   Obese, anasarca
   Extremities: Significant peripheral edema with cold digits, unchanged
   from yesterday.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli
   Labs / Radiology
   185 K/uL
   5.1 g/dL
   226 mg/dL
   1.5 mg/dL
   18 mEq/L
   5.1 mEq/L
   59 mg/dL
   97 mEq/L
   126 mEq/L
   17.4 %
   7.1 K/uL
        [image002.jpg]
                             [**2138-10-20**]  01:44 PM
                             [**2138-10-21**]  06:22 AM
                             [**2138-10-21**]  12:00 PM
                             [**2138-10-21**]  06:00 PM
                             [**2138-10-22**]  12:00 AM
                             [**2138-10-22**]  04:17 AM
                             [**2138-10-22**]  06:00 AM
                             [**2138-10-22**]  12:00 PM
                             [**2138-10-22**]  06:00 PM
                             [**2138-10-23**]  05:06 AM
   WBC
   11.3
   9.4
   7.1
   Hct
   25.3
   23.3
   17.4
   Plt
   197
   215
   185
   Cr
   1.4
   1.6
   1.6
   1.5
   Glucose
   106
   112
   110
   107
   104
   95
   86
   90
   226
   Other labs: PT / PTT / INR:14.1/27.2/1.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:91.4 %, Band:0.0 %,
   Lymph:5.9 %, Mono:2.5 %, Eos:0.2 %, Lactic Acid:3.0 mmol/L, Albumin:1.5
   g/dL, LDH:261 IU/L, Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   74 yo female with metastatic ovarian adenocarcinoma admitted with
   persistent respiratory failure with multipe failed extubations,
   hypotension requiring prolonged pressor support, acute renal failure
   requiring CVVH, and [**Female First Name (un) 1354**] fungemia.
   .
   # Respiratory Failure: Patient has completed antimicrobial therapy for
   aspiration pneumonia.  She has bilateral chest tubes in place that are
   currently clamped off.  CXR this morning suggests unchanged pleural
   effusion on right and possible mildly increased on left.  Patient has
   been intubated for a significant period of time, and will likely be
   difficult to extubate successfully in the short-term.  Discussed with
   IP, plan for trach on Friday due to scheduling.
   - Plan per IP for trach Friday. Will order ddAVP 60 minutes prior.
   Patient NPO at midnight.
   - Continue nebs
   - Pleural fluid gram stain negative, f/u cultures
   - Consider pulling chest tubes as patient is unlikely to be succesfully
   extubated.
   .
   # Fungemia: Patient with [**Female First Name (un) 1354**] fungemia treated currently with
   Caspofungin for total of 14 days from earliest negative blood culture.
   - Continue caspofungin for Candidemia ([**10-5**])
   - F/u cultures, last positive on [**10-9**]
   .
   # Hypotension: Patient persistently hypotensive requiring prolonged
   norepinephrine. Failed trial of dopamine secondary to tachycardia.
   Failed wean off of norepinephrine secondary to hypotension.  Attempted
   to convert to vasopressin yesterday and patient became hypotensive.
   Currently on vasopressin and minimal levophed.
   - Continue vasopressin and attempt to titrate down on levophed.
   - Monitor UOP, lactate, mentation
   - Converted systemic steroids to 10 mg hydrocortisone q12h yesterday.
   Continue systemic steroids.
   .
   # Hyponatremia: Likely a result of effective intravascular volume
   depletion secondary to hypoalbuminemia.
   - Check serum and urine osmolality
   - Repeate lytes this pm.
   .
   # Acute Renal Failure: Creatinine this AM unchanged at 1.6.  Potassium
   up to 5.4 from 5.3. FC placed with continued minimal UOP.  Renal is
   following patient and will assess need for CVVH on a daily basis.
   - Trend creatinine, BUN, electrolytes
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins.
   - f/u with renal recs
   - Started on CaCO3 yesterday per renal recs.
   .
   # Anemia: Repeat hct 22.0, prior labs likely erroneous.  Hct yesterday
   23.3 yesterday.
   - Trend hct and transfuse for hct <21
   .
   # Metastatic Malignancy: Provider to provider second opinion requested
   both for [**Company 2021**] and at [**Hospital1 19**].
   - Follow-up with oncology.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   .
   # FEN: tube feeds held secondary to increased residuals.  Start
   erythromycin for promotility and attempt to slowly restart tube feeds,
   IVF bolus PRN. OG discontinued yesterday, unable to site NG. Plan for
   fluoro-guided NG placement today.
   .
   # PPx: SCDs and PPI
   .
   # Code: Full code
   .
   # Lines: Left IJ, bilateral CT, brachial aline, OG, FC, ETT.  Replace
   OG with NG as above.
   .
   # Dipso: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-24 07:43:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, acute renal failure,
   hypotension, metastatic ovarian CA
   [**54**] Hour Events:
 EKG - At [**2138-10-23**] 10:45 PM
   NGT placed, Patient not tolerating TF, all NGT meds return with suction
   Significant ETT secretions now thick and yellow/green discolored
   Tachycardic to 130s without complaint of pain, BPs also elevated to
   110/60
   Family agreed to plan for tacheostomy today, anethesia consent obtained
   for OR, but thoracics questioning in patient on pressors
   Screen for rehab in progress at request of family
   Episode of diffuse abdominal pain, resolved with morphine
   B/L chest tubes removed this am by IP, right was uncomplicated, left
   drained 500cc+ of chylous appearing fluid.
   History obtained from Patient
   Allergies:
   History obtained from PatientOxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-23**] 07:56 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-23**] 08:21 PM
   Morphine Sulfate - [**2138-10-23**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:none
   Flowsheet Data as of  [**2138-10-24**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 101 (77 - 130) bpm
   BP: 91/58(72) {74/48(60) - 129/84(103)} mmHg
   RR: 24 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  1,406 mL
                                                                    223 mL
   PO:
             TF:
   IVF:
                                                                  1,031 mL
                                                                    223 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    309 mL
                                                                    277 mL
   Urine:
                                                                    309 mL
                                                                    102 mL
   NG:
   175 mL
   Stool:
   Drains:
   Balance:
                                                                  1,097 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 33 cmH2O
   Compliance: 14.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/26/84.[**Numeric Identifier 1000**]/15/-8
   Ve: 11.1 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: HS distant
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), cool extremities, slow capillary refill at >6 secs
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Non-tender, Distended, Obese, unable to appreciate BS, firm
   Extremities: Right: 4+, Left: 4+
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   215 K/uL
   9.7 g/dL
   57 mg/dL
   1.6 mg/dL
   15 mEq/L
   5.2 mEq/L
   65 mg/dL
   101 mEq/L
   132 mEq/L
   27.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2138-10-22**]  06:00 AM
                             [**2138-10-22**]  12:00 PM
                             [**2138-10-22**]  06:00 PM
                             [**2138-10-23**]  05:06 AM
                             [**2138-10-23**]  07:55 AM
                             [**2138-10-23**]  04:45 PM
                             [**2138-10-23**]  08:09 PM
                             [**2138-10-23**]  09:55 PM
                             [**2138-10-24**]  03:53 AM
                             [**2138-10-24**]  04:10 AM
   WBC
   7.1
   8.7
   6.1
   Hct
   17.4
   22.0
   27.6
   Plt
   185
   218
   215
   Cr
   1.5
   1.5
   0.9
   1.6
   1.6
   TCO2
   20
   16
   Glucose
   95
   86
   90
   [**Telephone/Fax (3) 2327**]7
   57
   Other labs: PT / PTT / INR:22.2/26.6/2.1, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:80.0 %, Band:16.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:1.5
   g/dL, LDH:261 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   74 yo female with metastatic ovarian adenocarcinoma admitted with
   persistent respiratory failure with multipe failed extubations,
   hypotension requiring prolonged pressor support, acute renal failure
   requiring CVVH, [**Female First Name (un) 1354**] fungemia and new VAP with 4+ GNR in sputum.
   # VAP:  New tachycardia overnight with thickened secretions and 4+ GNR
   in sputum. Prior history of resistant enterobactor in sputum from
   [**2138-10-5**].
   - start meropenem
   - f/u sputum speciation
   # Respiratory Failure: Patient had completed antimicrobial therapy for
   aspiration pneumonia with new evidence of VAP.  She had bilateral chest
   tubes in place that were removed [**10-23**].  CXR this morning after removal
   of CTs suggests no interval change in effusions, question of RUL patchy
   opacity.  Patient has been intubated for a significant period of time,
   and will likely be difficult to extubate successfully in the short-term
   in setting of new VAP.  Family agreed to trach.
   - discuss with [**Hospital1 189**] if they will accept patient w/ pressors, ETT in
   place as family requesting transfer and possibly willing to accept
   deescalation of care outside of hospital.
   - per thoracics unwilling to do trach while still on pressors, will
   readdress once we have requirements for admission to [**Hospital1 189**]
   - Continue nebs
   - Pleural fluid gram stain negative, f/u cultures
   - f/u repeat sputum sent
   - f/u CXR read
   -
   # Fungemia: Patient with [**Female First Name (un) 1354**] fungemia treated currently with
   Caspofungin for total of 14 days from earliest negative blood culture.
   - Continue caspofungin for Candidemia ([**10-5**])
   - F/u cultures, last positive on [**10-9**]
   .
   # Hypotension: Patient persistently hypotensive requiring prolonged
   norepinephrine. Failed trial of dopamine secondary to tachycardia.
   Failed wean off of norepinephrine secondary to hypotension.  Attempted
   to convert to vasopressin [**10-22**] and patient became hypotensive.
   Currently on vasopressin and minimal levophed. Was off levophed
   transiently on [**10-23**] but failed [**2-22**] LOP and hypotension
   - Continue vasopressin and attempt to titrate down on levophed as
   tolerated.
   - Monitor UOP, lactate, mentation
   - Converted systemic steroids to 10 mg hydrocortisone q12h [**10-22**].
   Continue systemic steroids at current dose.
   .
   # Hyponatremia: Likely a result of effective intravascular volume
   depletion secondary to hypoalbuminemia.  Serum and urine osmolality
   WNL. Urine NA<assay. Hypervolemic hyponatremia [**2-22**] anasarca
   - stop free water boluses and continue to monitor, currently out of
   danger .
   .
   # Chronic Renal Failure: Creatinine this AM unchanged at 1.6.
   Potassium up to 5.2. FC in place with continued minimal UOP.  Renal is
   following patient and will assess need for CVVH on a daily basis.
   Patient currently not a candidate for HD. Use of CVVH persistently is
   not consistent with its clinical indication.
   - Trend creatinine, BUN, electrolytes
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins.
   - f/u with renal recs.
   .
   # Anemia:.  Hct up to 27.7.
   - Trend hct and transfuse for hct <21
   # Metastatic Malignancy: Provider to provider second opinion requested
   both for [**Company 2021**] and at [**Hospital1 19**].
   - Follow-up with oncology.
   - Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   .
   # Hypoglycemia: Patient not a candidate for TPN [**2-22**] fungemia. Not
   tolerating TF
   - continue Q4 finger sticks, D50 prn hypoglycemia
   # FEN: tube feeds held secondary to increased residuals as a result of
   likely rising intra-abdominal pressure that we are unable to treat..
   Started erythromycin for promotility on [**10-23**] and attempt to slowly
   restart tube feeds if residuals resolve, IVF bolus PRN. OG discontinued
   [**10-22**], unable to site NG but nurse was able to place NGT on [**10-23**]
   - hold TF for now
   .
   # PPx: SCDs and PPI
   .
   # Code: Full code
   .
   # Lines: Left IJ, brachial aline, NG, FC, ETT.
   # Dipso: ICU level of care.
   ICU Care
   Nutrition: Holding TF
   Glycemic Control:  hypoglycemic in setting of not tolerating TF
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2138-10-25 07:29:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, acute renal failure, hypotension,
   metastatic ovarian CA
   [**54**] Hour Events:
   - [**Hospital1 189**] will not accept pt w/ ETT or on pressors.
   - Vasopressin discontinued.
   - Onc requested CA-125 be checked as it may indicate progress w/ CA.
   - Meropenem resumed for VAP after sputum with 4+ GNR.
   - Chest tubes removed. Left pigtail removed with whitish fluid.
   - Thoracics evaluated patient and do not feel that patient is candidate
   for trach given pressor dependence.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-24**] 08:18 PM
   Meropenem - [**2138-10-24**] 11:51 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-24**] 08:18 PM
   Dextrose 50% - [**2138-10-25**] 12:00 AM
   Morphine Sulfate - [**2138-10-25**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-25**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 119 (92 - 124) bpm
   BP: 89/60(72) {74/48(59) - 106/82(89)} mmHg
   RR: 29 (21 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  1,227 mL
                                                                    295 mL
   PO:
             TF:
   IVF:
                                                                  1,167 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                    437 mL
                                                                    117 mL
   Urine:
                                                                    262 mL
                                                                    117 mL
   NG:
                                                                    175 mL
   Stool:
   Drains:
   Balance:
                                                                    790 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 160
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   HEENT: ETT, NGT in place
   CV: Distant S1+S2
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), extremities improved in terms of CR, warmth, and reduction
   in discoloration.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Non-tender, Distended, Obese, unable to appreciate BS, firm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   232 K/uL
   10.0 g/dL
   60 mg/dL
   1.7 mg/dL
   15 mEq/L
   5.1 mEq/L
   67 mg/dL
   102 mEq/L
   132 mEq/L
   29.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2138-10-22**]  12:00 PM
                             [**2138-10-22**]  06:00 PM
                             [**2138-10-23**]  05:06 AM
                             [**2138-10-23**]  07:55 AM
                             [**2138-10-23**]  04:45 PM
                             [**2138-10-23**]  08:09 PM
                             [**2138-10-23**]  09:55 PM
                             [**2138-10-24**]  03:53 AM
                             [**2138-10-24**]  04:10 AM
                             [**2138-10-25**]  03:42 AM
   WBC
   7.1
   8.7
   6.1
   8.5
   Hct
   17.4
   22.0
   27.6
   29.9
   Plt
   185
   218
   215
   232
   Cr
   1.5
   1.5
   0.9
   1.6
   1.6
   1.7
   TCO2
   20
   16
   Glucose
   86
   90
   [**Telephone/Fax (3) 2327**]7
   57
   60
   Other labs: PT / PTT / INR:24.7/30.9/2.4, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:80.0 %, Band:16.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:1.5
   g/dL, LDH:261 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   74 yo female with metastatic ovarian adenocarcinoma admitted with
   persistent respiratory failure with multipe failed extubations,
   hypotension requiring prolonged pressor support, acute renal failure
   requiring CVVH, [**Female First Name (un) 1354**] fungemia, and VAP.
   .
   # VAP: Patient with 3+ GNR on sputum yesterday and started on
   meropenem.
   - Follow-up culture results.  If Pseudomonas, will treat for 15 days.
   - Continue meropenem.
   .
   # Respiratory Failure: Patient with new evidence of VAP after already
   having completed antimicrobial therapy for VAP during admission.  Chest
   tubes removed yesterday. Patient has been intubated for a significant
   period of time, and will likely be difficult to extubate successfully
   in the short-term.  Thoracic surgery has evaluated patient and do not
   feel that she is a good candidate for trach given prognosis.
   .
   # Fungemia: Patient with [**Female First Name (un) 1354**] fungemia treated currently with
   Caspofungin for total of 14 days from earliest negative blood culture.
   - Continue caspofungin for Candidemia ([**1-4**])
   - F/u cultures, last positive on [**10-9**], surveillance culture today
   .
   # Hypotension: Patient persistently hypotensive requiring prolonged
   norepinephrine. Patient has failed dopamin, vasopressin, and midodrine.
   - Continue levophed, will attempt midodrine/florinef today.
   - continue hydrocortisone
   - Monitor UOP, lactate, mentation
   .
   # Acute Renal Failure: Creatinine this AM unchanged at 1.6.  Potassium
   up to 5.4 from 5.3. FC placed with continued minimal UOP.  Renal is
   following patient and will assess need for CVVH on a daily basis.
   - Trend creatinine, BUN, electrolytes
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins.
   - f/u with renal recs
   .
   # Metastatic Malignancy: Provider to provider second opinion requested
   both for [**Company 2021**] and at [**Hospital1 19**].
   - Follow-up with oncology.
   -Will need to evalaute patient's goals for care in the setting of
   absence of reversible progression of malignancy
   .
   # FEN: tube feeds held secondary to increased residuals.  Replete as
   necessary
   .
   # PPx: SCDs and PPI
   .
   # Code: Full code
   .
   # Lines: Left IJ, brachial aline, NG, FC, ETT.  .
   .
   # Dipso: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-26 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No events
   - Arterial line falling out
   - Midodrine not started given does not have post-pyloric tube for
   feeding yet
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-25**] 08:00 PM
   Meropenem - [**2138-10-26**] 12:00 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2138-10-25**] 04:31 PM
   Pantoprazole (Protonix) - [**2138-10-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   pt with no compliants of pain
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-26**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 107 (106 - 123) bpm
   BP: 106/65(81) {69/44(54) - 116/83(96)} mmHg
   RR: 29 (24 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  1,351 mL
                                                                    534 mL
   PO:
             TF:
   IVF:
                                                                  1,146 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                    205 mL
                                                                     65 mL
   Urine:
                                                                    205 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,146 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 13.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: grimace to palpation,
   Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   232 K/uL
   10.0 g/dL
   60 mg/dL
   1.7 mg/dL
   15 mEq/L
   5.1 mEq/L
   67 mg/dL
   102 mEq/L
   132 mEq/L
   29.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2138-10-22**]  12:00 PM
                             [**2138-10-22**]  06:00 PM
                             [**2138-10-23**]  05:06 AM
                             [**2138-10-23**]  07:55 AM
                             [**2138-10-23**]  04:45 PM
                             [**2138-10-23**]  08:09 PM
                             [**2138-10-23**]  09:55 PM
                             [**2138-10-24**]  03:53 AM
                             [**2138-10-24**]  04:10 AM
                             [**2138-10-25**]  03:42 AM
   WBC
   7.1
   8.7
   6.1
   8.5
   Hct
   17.4
   22.0
   27.6
   29.9
   Plt
   185
   218
   215
   232
   Cr
   1.5
   1.5
   0.9
   1.6
   1.6
   1.7
   TCO2
   20
   16
   Glucose
   86
   90
   [**Telephone/Fax (3) 2327**]7
   57
   60
   Other labs: PT / PTT / INR:24.7/30.9/2.4, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:80.0 %, Band:16.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:1.5
   g/dL, LDH:261 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   74 yo female with metastatic ovarian adenocarcinoma admitted with
   persistent respiratory failure with multipe failed extubations,
   hypotension requiring prolonged pressor support, acute renal failure
   requiring CVVH, [**Female First Name (un) 1354**] fungemia, and VAP.
   .
   # VAP: Patient with pseudomonas on sputum and started on meropenem
   ([**10-24**]).
   - Will treat  Pseudomonas with 15 days.
   - Continue meropenem.
   - f/u CXR
   .
   # Respiratory Failure: Patient with new evidence of VAP after already
   having completed antimicrobial therapy for VAP during admission.  Chest
   tubes removed ([**10-24**]). Patient has been intubated for a significant
   period of time, and will likely be difficult to extubate successfully
   in the short-term.  Thoracic surgery has evaluated patient and do not
   feel that she is a good candidate for trach given prognosis.
   .
   # Fungemia: Patient with [**Female First Name (un) 1354**] fungemia treated currently with
   Caspofungin for total of 14 days from earliest negative blood culture.
   - Continue caspofungin for Candidemia ([**1-4**]??) Will f/u with ID
   - F/u cultures, last positive on [**10-9**], surveillance culture today
   .
   # Hypotension: Patient persistently hypotensive requiring prolonged
   norepinephrine. Patient has failed dopamine, vasopressin, and
   midodrine.
   - Continue levophed and attempt to wean
   - pt needs post-pyloric tube for feeding before starting midodrine
   - continue hydrocortisone
   - Monitor UOP, lactate, mentation
   .
   # Acute Renal FailureUnable to obtain labs from patient this AM.  FC
   placed with continued minimal UOP.  Renal is following patient and will
   assess need for CVVH on a daily basis.
   - Will hold off on daily labs
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins.
   - f/u with renal recs
   .
   # Metastatic Malignancy: Provider to provider second opinion requested
   both for [**Company 2021**] and at [**Hospital1 19**].  Ca-125 was 43 (previous was 70)
   - Follow-up with oncology.
   .
   # FEN: tube feeds held secondary to increased residuals.  Replete as
   necessary
   Plan for IR post-pyloric feeding tube early next week.
   .
   # PPx: SCDs and PPI
   .
   # Code: Full code
   .
   # Lines: Left IJ, brachial aline, NG, FC, ETT.  .
   - plan to pull a-line
   .
   # Dipso: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-10-6**] 04:00 PM
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with Dr. [**First Name (STitle) 575**]
   assessment and plan. We are weaning levophed yet again. Arterial line
   is severely damped and will be removed.  Sputum cx + for Pseudomonas
   awaiting sensitivities.  She is more tachypneic today but secretions
   are under better control.
   Time spent:  40
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2138-10-26**] 14:58 ------

2138-10-27 07:44:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, renal failure, pressor dependent,
   metastatic ovarian CA
   [**54**] Hour Events:
 ARTERIAL LINE - STOP [**2138-10-26**] 12:15 PM
 EKG - At [**2138-10-27**] 02:27 AM
   - no acute events
   - arterial line discontinued
   - Continued to attempt to wean levophed
   - Night nurse was able to draw labs --> showed Na 113 and glucose 702.
   Will plan to recheck, likely lab error.  FS were 80.  Repeat showed K
   5.7 (hemolyzed sample) --> no EKG changes.  Received 10 units insulin
   and kaexylate
   - Sputum culture speciated as Pseudomonas resistant to meropenem.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Caspofungin - [**2138-10-26**] 08:00 PM
   Meropenem - [**2138-10-27**] 03:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2138-10-26**] 04:05 PM
   Pantoprazole (Protonix) - [**2138-10-26**] 08:00 PM
   Dextrose 50% - [**2138-10-27**] 05:00 AM
   Insulin - Regular - [**2138-10-27**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-27**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 123 (109 - 137) bpm
   BP: 93/50(65) {72/40(49) - 106/72(80)} mmHg
   RR: 32 (30 - 39) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
             Total In:
                                                                  1,324 mL
                                                                    434 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  1,204 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                    126 mL
                                                                     25 mL
   Urine:
                                                                    126 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,198 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 37 cmH2O
   SpO2: 94%
   ABG: ///13/
   Ve: 16.4 L/min
   Physical Examination
   General Appearance: Sedated, unresponsive, intubated
   Eyes / Conjunctiva: Pupils mid, responsive to light.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+ lower.  Upper warm with 3+.
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed, No respone to sternal rub.
   Negative corneal reflex
   Labs / Radiology
   188 K/uL
   9.7 g/dL
   135 mg/dL
   2.0 mg/dL
   13 mEq/L
   5.7 mEq/L
   71 mg/dL
   99 mEq/L
   129 mEq/L
   29.0 %
   17.7 K/uL
        [image002.jpg]
                             [**2138-10-23**]  05:06 AM
                             [**2138-10-23**]  07:55 AM
                             [**2138-10-23**]  04:45 PM
                             [**2138-10-23**]  08:09 PM
                             [**2138-10-23**]  09:55 PM
                             [**2138-10-24**]  03:53 AM
                             [**2138-10-24**]  04:10 AM
                             [**2138-10-25**]  03:42 AM
                             [**2138-10-26**]  10:48 PM
                             [**2138-10-27**]  12:06 AM
   WBC
   7.1
   8.7
   6.1
   8.5
   13.1
   17.7
   Hct
   17.4
   22.0
   27.6
   29.9
   24.8
   29.0
   Plt
   185
   218
   215
   232
   165
   188
   Cr
   1.5
   1.5
   0.9
   1.6
   1.6
   1.7
   1.3
   2.0
   TCO2
   20
   16
   Glucose
   [**Telephone/Fax (3) 2327**]7
   57
   60
   702
   135
   Other labs: PT / PTT / INR:25.5/36.0/2.5, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:80.0 %, Band:16.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:562 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.5 g/dL, LDH:261 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   74 yo female with metastatic ovarian adenocarcinoma admitted with
   persistent respiratory failure with multipe failed extubations,
   hypotension requiring prolonged pressor support, acute renal failure
   requiring CVVH, [**Female First Name (un) 1354**] fungemia, and VAP.
   .
   # VAP: Patient with pseudomonas on sputum and started on meropenem
   ([**10-24**]).  Sensitivites today indicate Pseudomonas resistant to meropenem
   sensitive but with poor MICSs to ceftazidime, amikacin, and pip/tazo.
   Patient today also obtunded with new leukocytosis and low grade fever
   also suggesting systemic infection.
   - Discontinue meropenem, start ceftaz and amikacin (one dose).
   - Blood cultures x2
   - Replace CVL
   .
   # Obtundation: As above, in setting of leukocytosis, low grade fever,
   and sputum culture likely represents VAP with possible systemic
   spread.  Other potential sources include encephalopathy in setting of
   slowly worsening renal failure +/- sedation, CNS bleed, or CNS
   metastases.
   - non-con CTH to rule out mets or bleed
   - Antimicrobial therapy as above
   - Titrate down on sedation
   .
   # Respiratory Failure: Patient with new evidence of VAP after already
   having completed antimicrobial therapy for VAP during admission.  Chest
   tubes removed ([**10-24**]). Patient has been intubated for a significant
   period of time, and will likely be difficult to extubate successfully
   in the short-term.  Thoracic surgery has evaluated patient and do not
   feel that she is a good candidate for trach given prognosis.
   .
   # Fungemia: Patient with [**Female First Name (un) 1354**] fungemia treated currently with
   Caspofungin for total of 14 days from earliest negative blood culture.
   - Continue caspofungin for Candidemia (13/14).
   - F/u cultures, last positive on [**10-9**]
   .
   # Hypotension: Patient persistently hypotensive requiring prolonged
   norepinephrine. Patient has failed dopamine, vasopressin, and
   midodrine.
   - Continue levophed and attempt to wean
   - pt needs post-pyloric tube for feeding before starting midodrine,
   discuss with IR.
   - continue hydrocortisone
   - Monitor UOP, lactate, mentation
   .
   # Acute Renal Failure: Patient with hemolyzed labs overnight with
   variable bun/creatinine, likely representing hemolyzed specimen or lab
   error.  She did receive insulin and kaexylate for possible
   hyperkalemia.  FC placed with continued minimal UOP.  Renal is
   following patient and will assess need for CVVH on a daily basis.
   - Trend BUN/creatinine/potassium
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins.
   - f/u with renal recs
   .
   # Metastatic Malignancy: Provider to provider second opinion requested
   both for [**Company 2021**] and at [**Hospital1 19**].  Ca-125 was 43 (previous was 70)
   - Follow-up with oncology.
   .
   # FEN: tube feeds held secondary to increased residuals.  Replete as
   necessary.  Patient will need IR guided post-pyloric feeding tube, will
   discuss with IR.
   .
   # PPx: SCDs and PPI
   .
   # Code: Full code, reconfirmed with family today.
   .
   # Lines: Left IJ, OG, FC, ETT.
   .
   # Dipso: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-10-15**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-28 07:46:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, renal failure, obtundation,
   metastatic ovarian CA
   [**54**] Hour Events:
 MULTI LUMEN - START [**2138-10-27**] 09:10 PM
 BLOOD CULTURED - At [**2138-10-27**] 09:49 PM
   left   IJ
 MULTI LUMEN - STOP [**2138-10-27**] 11:40 PM
 STOOL CULTURE - At [**2138-10-28**] 02:04 AM
   - Non-con CTH: No acute intracranial abnormality
   - RIJ placed, LIJ pulled with tip cultured
   - Family meeting: Patient continues to be full code
   - Antibiotics converted to amikacin and ceftazadime
   - Diarrhea overnight, C. diff toxin [**Doctor First Name 2448**] positive. Started on iv
   flagyl.
   - Progressively hypotensive with levophed slowly titrated up to near
   max dose.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2138-10-27**] 03:00 AM
   Amikacin - [**2138-10-27**] 03:30 PM
   Ceftazidime - [**2138-10-27**] 08:00 PM
   Caspofungin - [**2138-10-27**] 08:56 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.26 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-28**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 118 (110 - 128) bpm
   BP: 83/34(60) {73/30(43) - 98/77(81)} mmHg
   RR: 26 (0 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 0 (0 - 0)mmHg
   Total In:
                                                                  2,304 mL
                                                                    366 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,159 mL
                                                                    366 mL
   Blood products:
   Total out:
                                                                     58 mL
                                                                     19 mL
   Urine:
                                                                     58 mL
                                                                     19 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,246 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 33 cmH2O
   Plateau: 32 cmH2O
   Compliance: 16 cmH2O/mL
   SpO2: 100%
   ABG: ///17/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: Sedated, unresponsive, intubated
   Eyes / Conjunctiva: Pupils mid, responsive to light.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+ lower.  Upper warm with 3+.
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed, No response  to sternal rub.
   Positive corneal reflex
   Labs / Radiology
   245 K/uL
   10.6 g/dL
   89 mg/dL
   2.2 mg/dL
   17 mEq/L
   5.1 mEq/L
   79 mg/dL
   102 mEq/L
   133 mEq/L
   32.7 %
   29.1 K/uL
        [image002.jpg]
                             [**2138-10-23**]  07:55 AM
                             [**2138-10-23**]  04:45 PM
                             [**2138-10-23**]  08:09 PM
                             [**2138-10-23**]  09:55 PM
                             [**2138-10-24**]  03:53 AM
                             [**2138-10-24**]  04:10 AM
                             [**2138-10-25**]  03:42 AM
                             [**2138-10-26**]  10:48 PM
                             [**2138-10-27**]  12:06 AM
                             [**2138-10-28**]  03:56 AM
   WBC
   8.7
   6.1
   8.5
   13.1
   17.7
   29.1
   Hct
   22.0
   27.6
   29.9
   24.8
   29.0
   32.7
   Plt
   [**Telephone/Fax (3) 2449**]65
   188
   245
   Cr
   1.5
   0.9
   1.6
   1.6
   1.7
   1.3
   2.0
   2.2
   TCO2
   20
   16
   Glucose
   [**Telephone/Fax (2) 2450**]
   60
   702
   135
   89
   Other labs: PT / PTT / INR:25.5/36.0/2.5, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:80.0 %, Band:16.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:562 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.5 g/dL, LDH:261 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   74 yo female with metastatic ovarian adenocarcinoma admitted with
   persistent respiratory failure with multipe failed extubations,
   hypotension requiring prolonged pressor support, acute renal failure
   requiring CVVH, [**Female First Name (un) 1354**] fungemia, and VAP.
   .
   # Hypotension: Patient persistently hypotensive requiring prolonged
   norepinephrine. Patient has failed dopamine, vasopressin, and
   midodrine.  Overnight progressively hypotensive requiring max dose
   levophed.  She is likely intravascularly volume depleted secondary to
   hypoalbuminemia in addition to sepsis, although she has profound
   anasarca.
   - Continue levophed, add vasopressin if necessary
   - 500 cc IVF bolus
   - continue hydrocortisone, increase to stress dose level.
   - Monitor UOP
   .
   # VAP: Patient with pseudomonas on sputum and started on meropenem
   ([**10-24**]).  Sensitivities indicate Pseudomonas resistant to meropenem
   sensitive but with poor MICSs to ceftazidime, amikacin, and pip/tazo.
   Patient continues to be obtunded, now with leukocytosis to 29.1 from
   17.7 yesterday, although C. diff is likely contributing to this.
   Unlikely to be meningoencephalitis given
   - Continue ceftazidime
   - Received one dose of amikacin yesterday.
   - Replace CVL
   - f/u blood cultures, CVL tip culture.
   .
   # C. diff: Patient with diarrhea overnight positive for C. difficile
   toxin.  Increased leukocytosis to 29.1 this AM consistent with C.diff.
   - Continue IV flagyl
   - Add po/pr vancomycin
   .
   # Obtundation: As above, in setting of leukocytosis, low grade fever,
   and sputum culture likely represents infectious process, whether
   systemic spread of VAP or de [**Last Name (un) 2451**] infection.  Other potential sources
   include encephalopathy in setting of progressive renal failure.
   Non-contrast CTH did not demonstrate ICH or significant mass effect.
   Sedation held from yesterday morning to overnight, when fentaynl was
   restarted.  Unlikely to be meningoencephalitis given likely pseudomonas
   source.
   - Antimicrobial therapy as above
   - Titrate sedation
   .
   # Respiratory Failure: Patient with new evidence of VAP after already
   having completed antimicrobial therapy for VAP during admission.  Chest
   tubes removed ([**10-24**]). Patient has been intubated for a significant
   period of time, and will likely be difficult to extubate successfully
   in the short-term.  Thoracic surgery has evaluated patient and do not
   feel that she is a good candidate for trach given prognosis.
   .
   # Fungemia: Patient with [**Female First Name (un) 1354**] fungemia treated currently with
   Caspofungin for total of 14 days from earliest negative blood culture.
   - Continue caspofungin for Candidemia (14/14).
   - F/u cultures, last positive on [**10-9**]
   .
   # Acute Renal Failure: Patient with slowly worsening renal function.
   Creatinine this AM 2.2 from 2.0 yesterday.  BUN continues to rise, this
   AM to 79 from 71.  Potassium this AM 5.1.  Renal is following patient
   and will assess need for CVVH on a daily basis.
   - Trend BUN/creatinine/potassium
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins.
   - f/u with renal recs
   .
   # Metastatic Malignancy: Provider to provider second opinion requested
   both for [**Company 2021**] and at [**Hospital1 19**].  Ca-125 was 43 (previous was 70)
   - Follow-up with oncology.
   .
   # FEN: tube feeds held secondary to increased residuals.  Replete as
   necessary.  Patient will need IR guided post-pyloric feeding tube, will
   hold off until patient stabilized.
   .
   # PPx: SCDs and PPI
   .
   # Code: Full code, reconfirmed with family.
   .
   # Access: Right IJ, OG, FC, ETT.
   .
   # Dipso: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-10-27**] 09:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-10-29 07:18:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, renal failure, anasarca,
   metastatic ovarian CA
   [**54**] Hour Events:
   - BP difficult to measure with BP cuff overnight. Given 2 500cc
   boluses, added 3rd pressor (neo). UOP 0-5cc/hr. CVP 0-3.
   - 1:30AM VBG 6.94/37/65 lactate 8.4; started 150 mEq Sodium
   Bicarbonate/ 1000 mL D5W at 250ml/hour for 4 hours; will run until
   7:00am. Repeat VBG 7.07/37/60, lactate 7.9
   - Per endocrine recs, sent of TFT. T4 and T3 low
   - Vancomycin PO/PR - needs ID approval
   - 5:30am - Kayexelate, calcium gluconate, vitamin K; also added on
   fibrinogen to AM labs
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2138-10-27**] 03:00 AM
   Amikacin - [**2138-10-27**] 03:30 PM
   Ceftazidime - [**2138-10-28**] 08:00 PM
   Caspofungin - [**2138-10-28**] 09:00 PM
   Metronidazole - [**2138-10-29**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.45 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-10-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-29**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 119 (115 - 135) bpm
   BP: 80/30(46) {60/15(36) - 122/88(76)} mmHg
   RR: 22 (0 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.3 kg (admission): 98.9 kg
   Height: 58 Inch
    CVP: 4 (-8 - 12)mmHg
   Mixed Venous O2% Sat: 84 - 84
   Total In:
                                                                  3,001 mL
                                                                  2,423 mL
   PO:
   TF:
   IVF:
                                                                  3,001 mL
                                                                  2,423 mL
   Blood products:
   Total out:
                                                                     34 mL
                                                                     12 mL
   Urine:
                                                                     34 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,967 mL
                                                                  2,411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 37 cmH2O
   Plateau: 34 cmH2O
   SpO2: 98%
   ABG: ///12/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Sedated, unresponsive, intubated
   Eyes / Conjunctiva: Pupils mid, responsive to light.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+ lower.  Upper warm with 3+.
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed, No response  to sternal rub.
   Positive corneal reflex
   Labs / Radiology
   172 K/uL
   9.4 g/dL
   203 mg/dL
   2.5 mg/dL
   12 mEq/L
   6.0 mEq/L
   79 mg/dL
   104 mEq/L
   125 mEq/L
   30.6 %
   30.1 K/uL
        [image002.jpg]
                             [**2138-10-23**]  04:45 PM
                             [**2138-10-23**]  08:09 PM
                             [**2138-10-23**]  09:55 PM
                             [**2138-10-24**]  03:53 AM
                             [**2138-10-24**]  04:10 AM
                             [**2138-10-25**]  03:42 AM
                             [**2138-10-26**]  10:48 PM
                             [**2138-10-27**]  12:06 AM
                             [**2138-10-28**]  03:56 AM
                             [**2138-10-29**]  03:49 AM
   WBC
   6.1
   8.5
   13.1
   17.7
   29.1
   30.1
   Hct
   27.6
   29.9
   24.8
   29.0
   32.7
   30.6
   Plt
   [**Telephone/Fax (3) 2487**]88
   245
   172
   Cr
   0.9
   1.6
   1.6
   1.7
   1.3
   2.0
   2.2
   2.5
   TCO2
   20
   16
   Glucose
   948
   67
   57
   60
   702
   135
   89
   203
   Other labs: PT / PTT / INR:46.4/54.8/5.2, CK / CKMB /
   Troponin-T:63/8/0.10, ALT / AST:23/34, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:26/24, Differential-Neuts:85.0 %, Band:3.0 %,
   Lymph:3.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:307 mg/dL, Lactic
   Acid:7.9 mmol/L, Albumin:1.5 g/dL, LDH:261 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:9.6 mg/dL
   Assessment and Plan
   74 yo female with metastatic ovarian adenocarcinoma admitted with
   persistent respiratory failure with multipe failed extubations,
   hypotension requiring prolonged pressor support, acute renal failure
   requiring CVVH, [**Female First Name (un) 1354**] fungemia, and VAP.
   .
   # Hypotension: Patient deteriorating overnight, now requiring near max
   dose 3 pressors (levophed, vasopressin, and phenylephrine).  Unable to
   blace arterial line secondary to anasarca and BP cuff with inconsistent
   [**Location (un) **].  She received 500 cc bolus x2 yesterday with minimal benefit,
   and continues to have minimal UOP.  Patient likely with sepsis given
   low grade temperature, hypotension, and elevated lactate to 8.  Patient
   increasingly acidotic with pH <7 requiring sodium bicarb IVF.
   - Continue levophed, vasopressin, and neo
   - Continue stress dose hydrocortisone
   - Monitor UOP
   - IVF unlikely to help given degree of hypoalbuminemia, anasarca, but
   given degree of acidosis, give 1 liter NaHC03 IVF.
   .
   # VAP: Patient with pseudomonas on sputum and started on meropenem
   ([**10-24**]).  Sensitivities indicate Pseudomonas resistant to meropenem
   sensitive but with poor MICSs to ceftazidime, amikacin, and pip/tazo.
   Patient continues to be obtunded, now with leukocytosis to 29.1 from
   17.7 yesterday, although C. diff is likely contributing to this.
   - Continue ceftazidime, has received one dose of amikacin
   - f/u blood cultures, CVL tip culture.
   .
   # C. diff: Patient with C. difficile.  Increased leukocytosis to 30.1
   from 29.1 this AM.
   - Continue IV flagyl, added po/pr vancomycin yesterday.
   .
   # Obtundation: As above, in setting of leukocytosis, low grade fever,
   and sputum culture likely represents infectious process, whether
   systemic spread of VAP or de [**Last Name (un) 2451**] infection.  Other potential sources
   include encephalopathy in setting of progressive renal failure.
   Non-contrast CTH did not demonstrate ICH or significant mass effect.
   Sedation held from yesterday morning to overnight, when fentaynl was
   restarted.  Unlikely to be meningoencephalitis given likely pseudomonas
   source.
   - Antimicrobial therapy as above
   - Titrate sedation
   .
   # Respiratory Failure: Patient with new evidence of VAP after already
   having completed antimicrobial therapy for VAP during admission.  Chest
   tubes removed ([**10-24**]). Patient has been intubated for a significant
   period of time, and will likely be difficult to extubate successfully
   in the short-term.  Thoracic surgery has evaluated patient and do not
   feel that she is a good candidate for trach given prognosis.
   .
   # Fungemia: Patient with [**Female First Name (un) 1354**] fungemia treated with Caspofungin for
   total of 14 days from earliest negative blood culture.  Hold
   caspofungin today.
   .
   # Acute Renal Failure: Patient with slowly worsening renal function.
   Creatinine this AM 2.5 from 2.2.  Potassium this AM 6, patient received
   kaexylate, calcium gluconate.  Renal is following patient and will
   assess need for CVVH on a daily basis.
   - ECG today
   - Trend BUN/creatinine/potassium
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins.
   - f/u with renal recs
   .
   # Metastatic Malignancy: Provider to provider second opinion requested
   both for [**Company 2021**] and at [**Hospital1 19**].  Ca-125 was 43 (previous was 70)
   - Follow-up with oncology.
   .
   # Hypothyroid: Patient with significant hypothyroid with low T3 and T4.
   - F/u with endocrine regarding treating with cytomel.
   .
   # FEN: tube feeds held secondary to increased residuals.  Replete as
   necessary.  Patient will need IR guided post-pyloric feeding tube, will
   hold off until patient stabilized.
   .
   # PPx: SCDs and PPI
   .
   # Code: Full code, reconfirmed with family.
   .
   # Access: Right IJ, OG, FC, ETT.
   .
   # Dipso: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-10-27**] 09:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: